2178-07-29 00:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**7-28**]:
   - Intubated for resp distress, started on dopamine gtt for hypotension,
   required high doses propofol for sedation adequate to maintain
   oxygenation
   - transitioned from dopamine to levophed
   - Received 2 u FFP for INR 10
   - Viral DFA negative
   - currently on 12 midazolam, 200 fentanyl, 40 propofol, and off levo
   with MAP in low 60s
   - trying to wean propofol and accepting higher midazolam/fentanyl as
   needed
   - Oxygenating and ventilating much improved on APRV
   History obtained from Family / [**Hospital 380**] Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-7-28**] 02:45 PM
   Azithromycin - [**2178-7-28**] 04:00 PM
   Vancomycin - [**2178-7-28**] 08:40 PM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Propofol - [**2178-7-28**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-29**] 12:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.7
C (96.2
   HR: 64 (64 - 118) bpm
   BP: 96/53(67) {96/53(-9) - 138/88(105)} mmHg
   RR: 25 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,441 mL
                                                                      6 mL
   PO:
             TF:
   IVF:
                                                                  6,161 mL
                                                                      6 mL
   Blood products:
                                                                  1,280 mL
   Total out:
                                                                  2,900 mL
                                                                      0 mL
   Urine:
                                                                  2,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,541 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 520 (500 - 520) mL
   Vt (Spontaneous): 416 (416 - 416) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 29 cmH2O
   SpO2: 100%
   ABG: 7.38/59/207/32/8
   Ve: 15.1 L/min
   PaO2 / FiO2: 296
   Physical Examination
   General: Intubated, sedated, on ventilator
   HEENT: Sclerae anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated but with brisk upstroke, no LAD
   Lungs: Poor air movement throughout with diffuse rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops.
   Loud P2.
   Abdomen: soft, obese, non-tender, non-distended, bowel sounds present,
   no rebound tenderness or guarding
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis. No rash,
   trace to 1+ edema
   Labs / Radiology
   181 K/uL
   9.3
   137 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.3
   7 mg/dL
   108 mEq/L
   148          mEq/L
   28.8
   7.0
        [image002.jpg]
   Ca: 8.6 Mg: 2.0 P: 3.4
                                     pH
                                    7.42
                                    pCO2
                                     54
                                     pO2
                                     123
                                    HCO3
                                     36
                                   BaseXS
                                      9
   Type:Art; Intubated
   Lactate:1.3
   O2Sat: 98
   PT: 16.0
   PTT: 33.5
   IINR: 1.4
                             [**2178-7-28**]  11:46 AM
                             [**2178-7-28**]  11:53 AM
                             [**2178-7-28**]  01:11 PM
                             [**2178-7-28**]  02:08 PM
                             [**2178-7-28**]  03:10 PM
                             [**2178-7-28**]  04:50 PM
                             [**2178-7-28**]  06:32 PM
                             [**2178-7-28**]  09:03 PM
                             [**2178-7-28**]  09:18 PM
                             [**2178-7-29**]  12:09 AM
   WBC
   9.4
   Hct
   35.3
   Plt
   193
   Cr
   0.7
   0.6
   TCO2
   36
   38
   38
   39
   37
   37
   36
   36
   Glucose
   146
   132
   Assessment and Plan
   51 yo M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Hypoxic and Hypercarbic Respiratory Failure: the patient had been
   hypoxic for some time; likely it was his profound hypercarbia that
   precipitated failure. The most likely trigger for his demise is
   inhalation injury from the exploding oxygen tank, which would support
   the appearance of his sputum which seems to be less frank hemoptysis
   and more pink tinged, more suggestive of the presence of hyaline
   membrane formation in the setting of [**Doctor Last Name 2**]. Other possibilities on the
   differential include CAP, but WBC wnl and no history of fevers or
   precipitating illness. Areas of ground glass on CT are suggestive more
   of blood rather than consolidative process. Likely there is a COPD
   exacerbation precipitated by inhalation injury resulting in cough which
   could easily bleed, made worse by his extreme coagulopathy. Concerning
   with this patient is his bullous emphysema, his history of spontaneous
   PTX, and large abdominal and chest wall mass, is the ability to
   ventilate adequately with accurate knowledge of transpulmonary pressure
   and alveolar pressure.
   -oxygenating and ventilating well on APRV.  Have decreased FIO2
   requirements to 0.5
   - will d/c empiric abx
   - will drop T low in an attempt to begin weaning off of ventilator.
   - esophageal balloon to titrate peep effectively
   -continue deep suction
   -methylprednisolone 60 IV Q6h
   -aggressive albuterol and ipratropium MDI's
   -hold coumadin, reverse with ffp and vitamin K 10 IV x 1.
   -aline, CVL in place
   .
   # Sedation - patient requiring propofol at 40, versed at 12 and
   fentanyl at 200 to maintain synchrony and oxygenation. Would like to
   come down off propofol, while going up preferentially on versed.
   Continue to wean sedation.
   .
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Currently the hypotension is in the setting
   of decreased preload of applied peep via mechanical ventilation. Was on
   dopamine via peripheral access. Then to levophed for improved ionotropy
   with attempt to wean overnight.  Pt is now off levophed with MAP > 60.
   # Hypernatremia
 will start free water 250 mg q 4 hours
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   -restart anticoagulation - will give pt heparin IV  without bolus and
   goal PTT 60-80
   -monitor coags
   -active type and screen
   .
   # FEN: No IVF for now, replete electrolytes prn, nutrition consult
   today, OGT in place to begin trickle TF.
   .
   # Prophylaxis: pneumoboots; can restart heparin subcut tid if INR is
   subtherapeutic in AM.
   .
   # Access: peripherals, right IJ triple lumen, aline
   .
   # Code: confirmed full code with HCP
   .
   # Communication: [**Name (NI) **] brother
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   18 Gauge - [**2178-7-28**] 02:57 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2178-07-29 08:56:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2178-7-28**] 09:54 AM
 ARTERIAL LINE - START [**2178-7-28**] 02:53 PM
 MULTI LUMEN - START [**2178-7-28**] 02:54 PM
   wean Levo off,
   Decreased propafol
   Much better ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-7-28**] 02:45 PM
   Azithromycin - [**2178-7-28**] 04:00 PM
   Vancomycin - [**2178-7-28**] 08:40 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2178-7-28**] 10:30 AM
   Fentanyl 200
   Versed 12
   Albuterol Atrovent
   Medrol 60 q6
   PPI
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-29**] 08:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.3
C (95.6
   HR: 65 (58 - 118) bpm
   BP: 103/57(72) {84/48(-9) - 141/88(105)} mmHg
   RR: 25 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  7,548 mL
                                                                  1,138 mL
   PO:
             TF:
   IVF:
                                                                  6,268 mL
                                                                  1,138 mL
   Blood products:
                                                                  1,280 mL
   Total out:
                                                                  2,900 mL
                                                                  2,150 mL
   Urine:
                                                                  2,900 mL
                                                                  2,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,648 mL
                                                                 -1,012 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Set): 520 (500 - 520) mL
   Vt (Spontaneous): 416 (416 - 416) mL
   RR (Set): 26
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 31 cmH2O
   SpO2: 98%
   ABG: 7.42/54/123/31/9
   Ve: 14.2 L/min
   PaO2 / FiO2: 246
   Physical Examination
   Gen intubated and sedated
   HEENT: ETT OGT
   CV: RR
   Chest: coarse bs
   Abd: obese soft NT
   Ext: 3+ edema
   Neuro: sedated
   Labs / Radiology
   9.3 g/dL
   181 K/uL
   137 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.3 mEq/L
   7 mg/dL
   108 mEq/L
   148 mEq/L
   28.8 %
   7.0 K/uL
        [image002.jpg]
                             [**2178-7-28**]  02:08 PM
                             [**2178-7-28**]  03:10 PM
                             [**2178-7-28**]  04:50 PM
                             [**2178-7-28**]  06:32 PM
                             [**2178-7-28**]  09:03 PM
                             [**2178-7-28**]  09:18 PM
                             [**2178-7-29**]  12:09 AM
                             [**2178-7-29**]  01:36 AM
                             [**2178-7-29**]  03:46 AM
                             [**2178-7-29**]  08:03 AM
   WBC
   7.0
   Hct
   28.8
   Plt
   181
   Cr
   0.6
   0.7
   TCO2
   38
   39
   37
   37
   36
   36
   35
   36
   Glucose
   132
   137
   Other labs: PT / PTT / INR:16.0/33.5/1.4, Amylase / Lipase:/17, Lactic
   Acid:1.3 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1.       Profound Hypoxemic Resp Failure: DDx is broad with primary
   COPD exacerbation in setting on inhalational injury, pulmonary
   hemorrhage in setting of hypercoag state, PNA, PE excluded with PE.
   Presently on APRV with excellent response. Have come slightly on Phigh
   and will drop T low. Has hx of spontaneous PTX with blebs in past so
   careful with overdistension.
   Will Rx with MDI and high dose steroids,
   Droplet precautions
 DFA negative
   2.       Hypotension: DDx very low pre load given high PEEPS, massive
   sedation or evolving early sepsis. Check CVP on new CVL- though he has
   likely [**First Name9 (NamePattern2) 6874**]
 [**Last Name (un) **] to wean off Levophed this AM
 trend
   3.       Sedation: Pt required massive sedation to maintain passive
   ventilation. Currently on lower dose propafol and transitioning over to
   versed and fentanyl.
   4.       Free Water deficit: start free water bolus
   5.       antiCoag: for DVT- reversed yesterday
 start heparin
   remaining issues per housestaff as above
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   18 Gauge - [**2178-7-28**] 02:57 PM
   Prophylaxis:
   DVT: start heparin
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with brother  also let PCP, [**Name (NI) **], and sleep MDs know he
   is in ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-07-30 06:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient had concerning CXR at 3am, ?RL collapse. Repeated CXR unable
   to be performed as patient became brady to 30's when laying flat. Good
   breath sounds on both sides, desat to 80's  but maintained pressure. HR
   currently stable at 50's with sitting up, sats returned to high 90's.
   -OG tube advanced and position will be re-evaluated on AM CXR
   -Pt did not tolerate free water flushes of OGT.
   -Nuring noted OGT coiled in oropharynx and removed the tube.  Pt then
   desated to upper 80's for ~10minutes and then recovered to 99%.
   -OGT replaced with 20cc return of bile.  Will confirm placement with
   CXR in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-7-28**] 02:45 PM
   Azithromycin - [**2178-7-28**] 04:00 PM
   Vancomycin - [**2178-7-28**] 08:40 PM
   Infusions:
   Heparin Sodium - 1,600 units/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 210 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-30**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 73 (41 - 73) bpm
   BP: 114/65(79) {88/49(62) - 138/78(102)} mmHg
   RR: 29 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 12 (6 - 59)mmHg
   Total In:
                                                                  5,043 mL
                                                                    870 mL
   PO:
   TF:
   IVF:
                                                                  4,793 mL
                                                                    870 mL
   Blood products:
   Total out:
                                                                  2,807 mL
                                                                    137 mL
   Urine:
                                                                  2,507 mL
                                                                    137 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                    733 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 1
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   SpO2: 95%
   ABG: 7.34/65/102/33/6
   Ve: 13 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Labs / Radiology
   198 K/uL
   9.3 g/dL
   117 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.1 mEq/L
   12 mg/dL
   109 mEq/L
   147 mEq/L
   31.1 %
   9.1 K/uL
        [image002.jpg]
                             [**2178-7-29**]  12:09 AM
                             [**2178-7-29**]  01:36 AM
                             [**2178-7-29**]  03:46 AM
                             [**2178-7-29**]  08:03 AM
                             [**2178-7-29**]  12:07 PM
                             [**2178-7-29**]  04:23 PM
                             [**2178-7-29**]  08:40 PM
                             [**2178-7-30**]  03:54 AM
                             [**2178-7-30**]  04:29 AM
                             [**2178-7-30**]  06:09 AM
   WBC
   7.0
   9.1
   Hct
   28.8
   27
   31.1
   Plt
   181
   198
   Cr
   0.7
   0.7
   TCO2
   36
   35
   36
   37
   37
   37
   38
   37
   Glucose
   137
   115
   117
   Other labs: PT / PTT / INR:17.1/150.0/1.5, Amylase / Lipase:/17, Lactic
   Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   51 yo M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Hypoxic and Hypercarbic Respiratory Failure: the patient had been
   hypoxic for some time; likely it was his profound hypercarbia that
   precipitated failure. The most likely trigger for his demise is
   inhalation injury from the exploding oxygen tank, which would support
   the appearance of his sputum which seems to be less frank hemoptysis
   and more pink tinged, more suggestive of the presence of hyaline
   membrane formation in the setting of [**Doctor Last Name 2**]. Other possibilities on the
   differential include CAP, but WBC wnl and no history of fevers or
   precipitating illness. Areas of ground glass on CT are suggestive more
   of blood rather than consolidative process. Likely there is a COPD
   exacerbation precipitated by inhalation injury resulting in cough which
   could easily bleed, made worse by his extreme coagulopathy. Concerning
   with this patient is his bullous emphysema, his history of spontaneous
   PTX, and large abdominal and chest wall mass, is the ability to
   ventilate adequately with accurate knowledge of transpulmonary pressure
   and alveolar pressure.
   -- prior CXR at 3 AM with ? RL collapse but pt was clinically stable to
   improving.  Repeat CXR unable to be performed as patient became brady
   to 30's when laying flat. Currently stable.
   - on APRV.  Have decreased FIO2 requirements to 0.5
   - off empiric Abx
   - dropped T low in an attempt to begin weaning off of ventilator.
   - esophageal balloon to titrate peep effectively
   -continue deep suction
   -methylprednisolone 60 IV Q6h
   -aggressive albuterol and ipratropium MDI's
   -hold coumadin, reverse with ffp and vitamin K 10 IV x 1.
   -aline, CVL in place
   # Bradycardia - pt became brady to 30's when laying flat.  Currently
   stable without sx; will cont to monitor.
   .
   # Sedation - patient requiring propofol at 40, versed at 12 and
   fentanyl at 200 to maintain synchrony and oxygenation. Would like to
   come down off propofol, while going up preferentially on versed.
   Continue to wean sedation.
   .
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Currently the hypotension is in the setting
   of decreased preload of applied peep via mechanical ventilation. Was on
   dopamine via peripheral access. Then to levophed for improved ionotropy
   with attempt to wean overnight.  Pt is now off levophed with MAP > 60.
   # Hypernatremia
 will start free water 250 mg q 4 hours
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   -restart anticoagulation
 on heparin IV  without bolus and goal PTT
   60-80
   -monitor coags
   -active type and screen
   .
   # FEN: No IVF for now, replete electrolytes prn, nutrition consult
   today, OGT in place to begin trickle TF.
   .
   # Prophylaxis: pneumoboots; can restart heparin subcut tid if INR is
   subtherapeutic in AM.
   .
   # Access: peripherals, right IJ triple lumen, aline
   .
   # Code: confirmed full code with HCP
   .
   # Communication: [**Name (NI) **] brother
   .
   # Disposition: ICU
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   18 Gauge - [**2178-7-28**] 02:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-07-30 10:01:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bradycardia with any position change
   Drops sats with any movement
   Left side down decreased ventilation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-7-28**] 02:45 PM
   Azithromycin - [**2178-7-28**] 04:00 PM
   Vancomycin - [**2178-7-28**] 08:40 PM
   Infusions:
   Fentanyl - 210 mcg/hour
   Midazolam (Versed) - 13 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-30**] 09:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 73 (41 - 75) bpm
   BP: 127/67(86) {88/49(62) - 138/78(102)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
   CVP: 16 (6 - 352)mmHg
   Total In:
                                                                  5,043 mL
                                                                  1,053 mL
   PO:
   TF:
   IVF:
                                                                  4,793 mL
                                                                  1,023 mL
   Blood products:
   Total out:
                                                                  2,807 mL
                                                                    222 mL
   Urine:
                                                                  2,507 mL
                                                                    222 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                  2,236 mL
                                                                    831 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Spontaneous): 2
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 28 cmH2O
   SpO2: 97%
   ABG: 7.34/65/102/33/6
   Ve: 14.1 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Gen: intubated and sedated
   HEENT: ETT OGT
   CV: RR
   Chest: coarse bs
   Abd: obese soft NT
   Ext: 3+ edema
   Neuro: sedated
   Labs / Radiology
   9.3 g/dL
   198 K/uL
   117 mg/dL
   0.7 mg/dL
   33 mEq/L
   4.1 mEq/L
   12 mg/dL
   109 mEq/L
   147 mEq/L
   31.1 %
   9.1 K/uL
         [image002.jpg]
                             [**2178-7-29**]  12:09 AM
                             [**2178-7-29**]  01:36 AM
                             [**2178-7-29**]  03:46 AM
                             [**2178-7-29**]  08:03 AM
                             [**2178-7-29**]  12:07 PM
                             [**2178-7-29**]  04:23 PM
                             [**2178-7-29**]  08:40 PM
                             [**2178-7-30**]  03:54 AM
                             [**2178-7-30**]  04:29 AM
                             [**2178-7-30**]  06:09 AM
   WBC
   7.0
   9.1
   Hct
   28.8
   27
   31.1
   Plt
   181
   198
   Cr
   0.7
   0.7
   TCO2
   36
   35
   36
   37
   37
   37
   38
   37
   Glucose
   137
   115
   117
   Other labs: PT / PTT / INR:17.1/>150.0/1.5, Amylase / Lipase:/17,
   Lactic Acid:0.8 mmol/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1.       Profound Hypoxemic Resp Failure: DDx is broad with primary
   COPD exacerbation in setting on inhalational injury, pulmonary
   hemorrhage in setting of hypercoag state, PNA, Presently on APRV with
   good response.
   Will Rx with MDI and high dose steroids, reoeat gas but could incre T
   high if needs more vent.
   2.       Hypotension: DDx very low pre load given high PEEPS, massive
   sedation or evolving early sepsis. Has been on off Levoiphed and trying
   to wean again today.
   3.       Sedation: Pt required massive sedation to maintain passive
   ventilation. Currently off propafol and transitioning over to versed
   and fentanyl.
   4.       Free Water deficit: start free water bolus
   5.       antiCoag: for DVT- reversed yesterday
 start heparin
 too
   high
   remaining issues as per Housestaff
   ICU Care
   Nutrition: start TFs tonight if stable
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   18 Gauge - [**2178-7-28**] 02:57 PM
   Prophylaxis:
   DVT: hep drip needs adjustment
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  trying to reach brother today
   [**Name2 (NI) 129**] status: Full code
   Disposition :ICU 45min

2178-07-31 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - when we tried to wean down sedation, the patient's sats dropped and
   sedation was restarted.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-7-28**] 02:45 PM
   Azithromycin - [**2178-7-28**] 04:00 PM
   Vancomycin - [**2178-7-28**] 08:40 PM
   Infusions:
   Fentanyl - 210 mcg/hour
   Heparin Sodium - 800 units/hour
   Midazolam (Versed) - 13 mg/hour
   Furosemide (Lasix) - 1 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-7-30**] 04:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-31**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.1
C (96.9
   HR: 70 (56 - 98) bpm
   BP: 103/56(70) {81/41(53) - 139/77(98)} mmHg
   RR: 24 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 4 (4 - 352)mmHg
   Total In:
                                                                  1,996 mL
                                                                    802 mL
   PO:
   TF:
                                                                     36 mL
                                                                    164 mL
   IVF:
                                                                  1,930 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                    857 mL
                                                                    240 mL
   Urine:
                                                                    857 mL
                                                                    240 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,139 mL
                                                                    562 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Spontaneous): 3
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.37/65/102/36/8
   Ve: 12.5 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Labs / Radiology
   156 K/uL
   8.4 g/dL
   107 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.2 mEq/L
   19 mg/dL
   109 mEq/L
   149 mEq/L
   28.7 %
   6.4 K/uL
        [image002.jpg]
                             [**2178-7-29**]  08:40 PM
                             [**2178-7-30**]  03:54 AM
                             [**2178-7-30**]  04:29 AM
                             [**2178-7-30**]  06:09 AM
                             [**2178-7-30**]  12:46 PM
                             [**2178-7-30**]  01:07 PM
                             [**2178-7-30**]  04:40 PM
                             [**2178-7-30**]  06:44 PM
                             [**2178-7-31**]  03:56 AM
                             [**2178-7-31**]  04:32 AM
   WBC
   9.1
   6.4
   Hct
   27
   31.1
   28.7
   Plt
   198
   156
   Cr
   0.7
   0.7
   0.7
   TCO2
   37
   38
   37
   36
   36
   39
   39
   Glucose
   115
   117
   118
   107
   Other labs: PT / PTT / INR:15.9/44.5/1.4, Amylase / Lipase:/17, Lactic
   Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
   51 yo M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Hypoxic and Hypercarbic Respiratory Failure: the patient had been
   hypoxic for some time; likely it was his profound hypercarbia that
   precipitated failure. The most likely trigger for his demise is
   inhalation injury from the exploding oxygen tank, which would support
   the appearance of his sputum which seems to be less frank hemoptysis
   and more pink tinged, more suggestive of the presence of hyaline
   membrane formation in the setting of [**Doctor Last Name 2**]. Other possibilities on the
   differential include CAP, but WBC wnl and no history of fevers or
   precipitating illness. Areas of ground glass on CT are suggestive more
   of blood rather than consolidative process. Likely there is a COPD
   exacerbation precipitated by inhalation injury resulting in cough which
   could easily bleed, made worse by his extreme coagulopathy. Concerning
   with this patient is his bullous emphysema, his history of spontaneous
   PTX, and large abdominal and chest wall mass, is the ability to
   ventilate adequately with accurate knowledge of transpulmonary pressure
   and alveolar pressure.
   -- CXR this AM seems improved from prior one with RLL collapse.
   - on APRV.  Have decreased FIO2 requirements to 0.5
   - off empiric Abx
   - esophageal balloon to titrate peep effectively
   -continue deep suction
   -methylprednisolone 60 IV Q6h for one more day prior to wean
   -aggressive albuterol and ipratropium MDI's
   -hold coumadin, reverse with ffp and vitamin K 10 IV x 1.
   -aline, CVL in place
   # Bradycardia - pt became brady to 30's-40s when laying flat.
   Currently stable without sx; will cont to monitor.  [**Month (only) 11**] be
   temperature/hypothermia related.
   .
   # Sedation - patient off propofol, versed at 13 and fentanyl at 210 to
   maintain synchrony and oxygenation. Continue to wean sedation as
   tolerated.
   .
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Currently the hypotension is in the setting
   of decreased preload of applied peep via mechanical ventilation. Was on
   dopamine via peripheral access. Then to levophed for improved ionotropy
   with attempt to wean overnight.  Pt is now off levophed vs low dose at
   0.02 with MAP > 60.
   # Hypernatremia
 correcting on free water 250 mg q 4 hours
   # Decreased Urine output
 currently making 15-40 ml/hr UOP.  ? ATN.
   Will follow closely, and consider diuresis.
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   -restart anticoagulation
 on heparin IV  without bolus and goal PTT
   60-80, monitor closely
   -monitor coags
   -active type and screen
   .
   # FEN: No IVF for now, replete electrolytes prn, nutrition consult
   today, OGT in place to begin trickle TF at 10 mL/hr.
   .
   # Prophylaxis: pneumoboots; can restart heparin subcut tid if INR is
   subtherapeutic in AM.
   .
   # Access: peripherals, right IJ triple lumen, a line
   .
   # Code: confirmed full code with HCP
   .
   # Communication: [**Name (NI) **] brother
   .
   # Disposition: ICU
   1.       Profound Hypoxemic Resp Failure: DDx is broad with primary
   COPD exacerbation in setting on inhalational injury, pulmonary
   hemorrhage in setting of hypercoag state, PNA, Presently on APRV with
   good response.
   Will Rx with MDI and high dose steroids, reoeat gas but could incre T
   high if needs more vent.
   2.       Hypotension: DDx very low pre load given high PEEPS, massive
   sedation or evolving early sepsis. Has been on off Levoiphed and trying
   to wean again today.
   3.       Sedation: Pt required massive sedation to maintain passive
   ventilation. Currently off propafol and transitioning over to versed
   and fentanyl.
   4.       Free Water deficit: start free water bolus
   5.       antiCoag: for DVT- reversed yesterday
 start heparin
 too
   high
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-7-30**] 08:27 PM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   18 Gauge - [**2178-7-28**] 02:57 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-07-31 11:31:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Able to wean off Levophed
   Started low dose Lasix drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-7-28**] 02:45 PM
   Azithromycin - [**2178-7-28**] 04:00 PM
   Vancomycin - [**2178-7-28**] 08:40 PM
   Infusions:
   Heparin Sodium - 850 units/hour
   Furosemide (Lasix) - 1 mg/hour
   Midazolam (Versed) - 12 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Fentanyl - [**2178-7-31**] 10:00 AM
   Midazolam (Versed) - [**2178-7-31**] 10:00 AM
   Heparin Sodium - [**2178-7-31**] 11:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-7-31**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 71 (56 - 98) bpm
   BP: 122/62(82) {81/41(53) - 137/77(98)} mmHg
   RR: 23 (0 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
   CVP: 8 (4 - 8)mmHg
   Total In:
                                                                  1,996 mL
                                                                  1,487 mL
   PO:
   TF:
                                                                     36 mL
                                                                    345 mL
   IVF:
                                                                  1,930 mL
                                                                    502 mL
   Blood products:
   Total out:
                                                                    857 mL
                                                                    835 mL
   Urine:
                                                                    857 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,139 mL
                                                                    652 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: 7.37/65/102/36/8
   Ve: 11.7 L/min
   PaO2 / FiO2: 255
   Physical Examination
    Gen: intubated and sedated
   HEENT: ETT OGT
   CV: RR
   Chest: coarse bs
   Abd: obese soft NT
   Ext: 3+ edema
   Neuro: sedated
   Labs / Radiology
   8.4 g/dL
   156 K/uL
   107 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.2 mEq/L
   19 mg/dL
   109 mEq/L
   149 mEq/L
   28.7 %
   6.4 K/uL
        [image002.jpg]
                             [**2178-7-29**]  08:40 PM
                             [**2178-7-30**]  03:54 AM
                             [**2178-7-30**]  04:29 AM
                             [**2178-7-30**]  06:09 AM
                             [**2178-7-30**]  12:46 PM
                             [**2178-7-30**]  01:07 PM
                             [**2178-7-30**]  04:40 PM
                             [**2178-7-30**]  06:44 PM
                             [**2178-7-31**]  03:56 AM
                             [**2178-7-31**]  04:32 AM
   WBC
   9.1
   6.4
   Hct
   27
   31.1
   28.7
   Plt
   198
   156
   Cr
   0.7
   0.7
   0.7
   TCO2
   37
   38
   37
   36
   36
   39
   39
   Glucose
   115
   117
   118
   107
   Other labs: PT / PTT / INR:15.9/43.1/1.4, Amylase / Lipase:/17, Lactic
   Acid:0.9 mmol/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 yr old man with hypoxemic and hypercarbic rsp failure
   Profound Hypoxemic Resp Failure: DDx is broad with primary COPD
   exacerbation in setting on inhalational injury, pulmonary hemorrhage in
   setting of hypercoag state, PNA, Presently on APRV with good response
   -   try to drop P high and reassess.
   1.       Hypotension: DDx very low pre load given high PEEPS, massive
   sedation or evolving early sepsis. Now off Levophed with stable CVP.
   2.       Sedation: Pt required massive sedation to maintain passive
   ventilation. Off prop and now trying to wean Fent and Versed
   3.       Free Water deficit: increase free water bolus
   4.       antiCoag: for DVT, heparin drip titrate up
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2178-7-31**] 06:50 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   Prophylaxis:
   DVT: coumadin
   Stress ulcer: PPI
   VAP: chlorhex, HOB
   Communication:   trying to reach brother to update but RN spoke to him
   last PM
   Code status: Full code
   Disposition : ICU
   Total time spent: 40

2178-08-01 05:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - P high dropped to 25 and then increased to 27
   - ETT advanced 3 cm, repeat CXR looks good with tube in adequate
   position
   - currently +300 on net I/O (will adjust lasix at midnight)
   - 2100 hrs: on 10 versed, fent at 170
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2178-7-31**] 11:26 AM
   Midazolam (Versed) - [**2178-7-31**] 05:10 PM
   Fentanyl - [**2178-7-31**] 05:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-1**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.1
C (98.7
   HR: 55 (55 - 85) bpm
   BP: 104/51(66) {80/35(49) - 126/66(86)} mmHg
   RR: 24 (0 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 74 Inch
    CVP: 12 (6 - 12)mmHg
   Total In:
                                                                  3,170 mL
                                                                    171 mL
   PO:
   TF:
                                                                    858 mL
                                                                     67 mL
   IVF:
                                                                  1,012 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  3,140 mL
                                                                    800 mL
   Urine:
                                                                  3,140 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     30 mL
                                                                   -629 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   RR (Set): 27
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   SpO2: 97%
   ABG: 7.38/60/106/36/8
   Ve: 11.5 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   156 K/uL
   8.4 g/dL
   120 mg/dL
   0.7 mg/dL
   36 mEq/L
   4.3 mEq/L
   21 mg/dL
   107 mEq/L
   146 mEq/L
   28.7 %
   6.4 K/uL
        [image002.jpg]
                             [**2178-7-30**]  12:46 PM
                             [**2178-7-30**]  01:07 PM
                             [**2178-7-30**]  04:40 PM
                             [**2178-7-30**]  06:44 PM
                             [**2178-7-31**]  03:56 AM
                             [**2178-7-31**]  04:32 AM
                             [**2178-7-31**]  02:40 PM
                             [**2178-7-31**]  02:41 PM
                             [**2178-7-31**]  08:22 PM
                             [**2178-7-31**]  09:53 PM
   WBC
   6.4
   Hct
   28.7
   Plt
   156
   Cr
   0.7
   0.7
   0.7
   TCO2
   36
   36
   39
   39
   36
   38
   37
   Glucose
   118
   107
   120
   Other labs: PT / PTT / INR:15.9/45.1/1.4, Amylase / Lipase:/17, Lactic
   Acid:1.0 mmol/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   51 yo M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Severe hypoxic and hypercarbic respiratory failure: ddx includes
   inhalational injury on top of severe COPD, diffuse pulm hemorrhage [**3-9**]
   elevated INR, and/or pneumonia.  Pna unlikely given normal temp curve
   and normal WBC. Concerning with this patient is his bullous emphysema,
   his history of spontaneous PTX, and large abdominal and chest wall
   mass, is the ability to ventilate adequately with accurate knowledge of
   transpulmonary pressure and alveolar pressure.
   - oxygenating/ventilating well on APRV.  Will try to decrease P high to
   25 in an attempt to wean from vent, check ABG.
   - off empiric Abx
   - esophageal balloon to titrate peep effectively
   -continue deep suction
   -methylprednisolone 60 IV Q6h.  Will titrate down in next 24-48 hrs.
   -aggressive albuterol and ipratropium MDI's
   -a line, CVL in place
   # Sedation - patient off propofol, versed at 13 and fentanyl at 210 to
   maintain synchrony and oxygenation. Continue to wean sedation as
   tolerated.
   # Bradycardia
 seems positional, but no events overnight.
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Currently the hypotension is in the setting
   of decreased preload of applied peep via mechanical ventilation vs high
   sedation. Was on dopamine via peripheral access. Then to levophed for
   improved ionotropy with attempt to wean overnight.  Pt is now off
   levophed with MAP > 60.
   # Hypernatremia
 on free water 200 mg q 6 hours.  Will inc free water
   boluses to 300 mg q6.
   # Decreased Urine output
 currently making 40 ml/hr UOP on lasix gtt
   at 1.  Will follow closely.
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   -restart anticoagulation
 on heparin IV  without bolus and goal PTT
   60-80, monitor closely
   -monitor coags
   -active type and screen
   # Anemia
 Hb with slight drop from 9.3 to 8.4.  Closely monitor, can
   repeat Hct, guiac all stools.
   # FEN: On TF at 30 ml/hr, replete electrolytes prn
   .
   # Prophylaxis: pneumoboots; heparin
   .
   # Access: peripherals, right IJ triple lumen, a line
   .
   # Code: confirmed full code with HCP
   .
   # Communication: [**Name (NI) **] brother
   .
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   20 Gauge - [**2178-7-28**] 02:55 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-02 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2178-8-1**] 12:25 PM
   Drawn/sent from RIJ TLC red port and RUE a-line.
 URINE CULTURE - At [**2178-8-1**] 12:26 PM
   -Pt had temp to 100.7  Blood/Urine cultures drawn.  Prior Urine culture
   from [**7-30**] No Growth final.
   -Goal diuresis of -2L for the day
 ended up diuresing 1.7 L
   -Adjusted heparin scale.  Will follow.
   -2218 after adjusting heparin dosing PTT 49.4 will recheck in 6hrs and
   if not achieving anticoag will adjust dosing again.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Fentanyl - 140 mcg/hour
   Midazolam (Versed) - 7 mg/hour
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-1**] 06:00 PM
   Fentanyl - [**2178-8-1**] 06:00 PM
   Heparin Sodium - [**2178-8-1**] 11:58 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-2**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.6
C (99.7
   HR: 58 (52 - 74) bpm
   BP: 112/57(72) {92/46(59) - 114/60(74)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 74 Inch
    CVP: 10 (6 - 12)mmHg
   Total In:
                                                                  3,773 mL
                                                                  1,137 mL
   PO:
   TF:
                                                                  1,449 mL
                                                                    539 mL
   IVF:
                                                                    894 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  5,515 mL
                                                                  1,150 mL
   Urine:
                                                                  5,515 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,742 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 461 (460 - 461) mL
   RR (Set): 25
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 96%
   ABG: 7.35/78.[**Numeric Identifier 274**]/104/42/14
   Ve: 14 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General
 sedated, on ventilator
   CV
 RRR, no murmurs, rubs, or gallops
   Resp
 clear to auscultation anteriorly
   Abdomen
 obese, soft, non-distended, BS present
   Extremities
 slight edema noted in feet
   Labs / Radiology
   156 K/uL
   9.1 g/dL
   119 mg/dL
   0.8 mg/dL
   42 mEq/L
   4.0 mEq/L
   29 mg/dL
   99 mEq/L
   146 mEq/L
   30.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2178-7-31**]  04:32 AM
                             [**2178-7-31**]  02:40 PM
                             [**2178-7-31**]  02:41 PM
                             [**2178-7-31**]  08:22 PM
                             [**2178-7-31**]  09:53 PM
                             [**2178-8-1**]  05:32 AM
                             [**2178-8-1**]  01:55 PM
                             [**2178-8-1**]  06:19 PM
                             [**2178-8-2**]  05:57 AM
                             [**2178-8-2**]  06:03 AM
   WBC
   5.9
   7.2
   Hct
   27.5
   30.6
   Plt
   134
   156
   Cr
   0.7
   0.8
   0.9
   0.8
   TCO2
   39
   36
   38
   37
   43
   45
   Glucose
   120
   103
   159
   119
   Other labs: PT / PTT / INR:16.3/49.4/1.4, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:1.5 mmol/L, Ca++:8.7 mg/dL, Mg++:2.5 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Severe hypoxic and hypercarbic respiratory failure: ddx includes
   inhalational injury on top of severe COPD, diffuse pulm hemorrhage [**3-9**]
   elevated INR, and/or pneumonia.
   - pt is off of abx
   - pt still receiving methylprednisolone 60 IV Q6h.  Change to
   methylprednisolone 60 IV once daily.  Change to prednisone tomorrow.
   - continue with albuterol and ipratropium
   - attempting to wean pt off of ventilator
 working with RT to find
   ventilator settings that patient can tolerate
   # Fever
   - pt did spike a fever yesterday
   - blood and urine cultures were sent.  Will f/u.
   - no additional fevers since 10am yesterday
   # Sedation
 patient off Propofol.  Pt receiving versed at 6 and
   fentanyl at 120 to maintain synchrony and oxygenation.
   - continue to attempt wean sedation while maintaining synchrony and
   oxygenation.
   # Bradycardia
 pt has had h/o bradycardia when he is moved.
   Overnight, pt
s HR seems to have been stable with lowest Hr at 52.
   - will continue to monitor HR trends.
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Then, the hypotension was in the setting of
   decreased preload of applied peep via mechanical ventilation vs high
   sedation.
   - pt has been off of pressors for some time.  MAP ranged 59 to 72
   overnight.
   - continue to monitor BP
s and use pressors to keep MAP > 60.
   - hopefully, pt will be able to remain off of pressors
   # Hypernatremia
 currently, 146
   - will continue to trend sodium levels
   - will continue free water 300 mg q 6 hours.
   # Decreased Urine output
   - UOP has been 100-360mL/hr over past 24 hrs.  I/O net negative 1.7 L
   yesterday.
   - pt on Lasix gtt at 7 currently
   - goal I/O is -1 to -1.5 L today
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   - pt currently on heparin gtt at 150.  Goal PTT is 60-80.
   - most recent PTT was 49.4.  Ordered a new set of coag
s for this
   morning and will f/u.  Suspect will need to titrate up heparin gtt
   today.
   - continue to monitor coags
   # Anemia
   - Hct stable
   - Continue to monitor Hct
   # FEN: On TF at 85 ml/hr, replete electrolytes prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-2**] 04:14 AM 85 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2178-08-03 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -attempting to change pt's vent settings to begin weaning him off of
   vent
   -tried PS and PC - persistently dysynchronous and hypercarbic - back on
   APRV
   -urine cx ([**8-1**]) - no growth
   -1515 - notified by lab that pt's blood cultures positive for GPC in
   clusters in both bottles - started pt on vanc
   -pt developed subcutaneous emphysema - CXR ordered
   -radiology report - concerning for pneumomediastinum, air tracking up
   the great vessels into the neck, low lying ET tube - also mentioned
   ARDS
   -multiple attempts to wean to pressure support, pressure control, and
   assist control have failed
   -2215 - pCO2 up to the 80's - RT notified me that they put pt back on
   his original APRV settings (phigh 27, plow 0, thigh 2s, tlow 0.5s)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-2**] 03:48 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-2**] 01:01 PM
   Fentanyl - [**2178-8-2**] 01:01 PM
   Heparin Sodium - [**2178-8-2**] 01:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-3**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 76 (57 - 83) bpm
   BP: 90/48(61) {90/48(61) - 118/64(80)} mmHg
   RR: 22 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 9 (0 - 10)mmHg
   Total In:
                                                                  4,339 mL
                                                                  1,041 mL
   PO:
   TF:
                                                                  2,023 mL
                                                                    556 mL
   IVF:
                                                                  1,026 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                    750 mL
   Urine:
                                                                  4,480 mL
                                                                    750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -141 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 477 (377 - 863) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 97%
   ABG: 7.40/76.[**Numeric Identifier 433**]/121/46/18
   Ve: 11.2 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   173 K/uL
   8.6 g/dL
   94 mg/dL
   0.7 mg/dL
   46 mEq/L
   3.8 mEq/L
   30 mg/dL
   95 mEq/L
   144 mEq/L
   28.9 %
   8.6 K/uL
        [image002.jpg]
                             [**2178-8-1**]  06:19 PM
                             [**2178-8-2**]  05:57 AM
                             [**2178-8-2**]  06:03 AM
                             [**2178-8-2**]  12:23 PM
                             [**2178-8-2**]  01:20 PM
                             [**2178-8-2**]  01:27 PM
                             [**2178-8-2**]  05:56 PM
                             [**2178-8-2**]  10:02 PM
                             [**2178-8-3**]  03:05 AM
                             [**2178-8-3**]  05:49 AM
   WBC
   7.2
   8.6
   Hct
   30.6
   28.9
   Plt
   156
   173
   Cr
   0.9
   0.8
   0.8
   0.7
   TCO2
   45
   50
   48
   46
   50
   49
   Glucose
   159
   119
   94
   Other labs: PT / PTT / INR:15.3/64.4/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.3 mg/dL, Mg++:2.4 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Severe hypoxic and hypercarbic respiratory failure: ddx includes
   inhalational injury on top of severe COPD, diffuse pulm hemorrhage [**3-9**]
   elevated INR, and/or pneumonia.
   - weaning down pt
s steroid - currently receiving methylprednisolone 60
   IV once daily.  Change to prednisone today.
   - continue with albuterol and ipratropium
   - difficulty weaning pt off of APRV yesterday.  After trying different
   settings, the patient is back on APRV on his original settings.
   - additionally, the pt developed subcutaneous emphysema yesterday
   afternoon
 STAT CXR report said that they findings were concerning for
   pneumomediastinum, also with air tracking up along the great vessels
   will review with team today
   # Alkalemia
   - pt
s serum bicarb continuously rising
 now up to 46
   - possibly due to hyperventilation, but pt
s pCO2 is in the 70
s, so
   that seems unlikely
   # Bacteremia
   - pt did spike a fever on Saturday.  Blood and urine cultures were
   sent.  GPC in clusters in 2 tubes.
   - pt started on vancomycin
   - awaiting further culture results
   # Sedation
 patient off Propofol.  Pt receiving versed at 6 and
   fentanyl at 120 to maintain synchrony and oxygenation.
   - continue to attempt wean sedation while maintaining synchrony and
   oxygenation.
   # Bradycardia
 pt has had h/o bradycardia when he is moved.
   Overnight, pt
s HR seems to have been stable with lowest Hr at 52.
   - will continue to monitor HR trends.
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Then, the hypotension was in the setting of
   decreased preload of applied peep via mechanical ventilation vs high
   sedation.
   - pt has been off of pressors for some time.  MAP ranged 59 to 72
   overnight.
   - continue to monitor BP
s and use pressors to keep MAP > 60.
   - hopefully, pt will be able to remain off of pressors
   # Hypernatremia
 currently, 146
   - will continue to trend sodium levels
   - will continue free water 300 mg q 6 hours.
   # Decreased Urine output
   - UOP has been 100-360mL/hr over past 24 hrs.  I/O net negative 1.7 L
   yesterday.
   - pt on Lasix gtt at 7 currently
   - goal I/O is -1 to -1.5 L today
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   - pt currently on heparin gtt at 150.  Goal PTT is 60-80.
   - most recent PTT was 49.4.  Ordered a new set of coag
s for this
   morning and will f/u.  Suspect will need to titrate up heparin gtt
   today.
   - continue to monitor coags
   # Anemia
   - Hct stable
   - Continue to monitor Hct
   # FEN: On TF at 85 ml/hr, replete electrolytes prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-3**] 02:17 AM 85 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-03 11:05:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   SC emphysema
   Tried to wean to PSV or PCV without success and ended up back on APRV
   + blood cultures for GPCs
 from A line, neg from CVL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-2**] 03:48 PM
   Infusions:
   Fentanyl - 80 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Heparin Sodium - 1,250 units/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-2**] 01:01 PM
   Fentanyl - [**2178-8-2**] 01:01 PM
   Heparin Sodium - [**2178-8-2**] 01:04 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-3**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100.1
   HR: 80 (72 - 83) bpm
   BP: 116/61(77) {90/48(61) - 118/64(80)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
   CVP: 9 (4 - 10)mmHg
   Total In:
                                                                  4,339 mL
                                                                  1,594 mL
   PO:
   TF:
                                                                  2,023 mL
                                                                    903 mL
   IVF:
                                                                  1,026 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  4,480 mL
                                                                  1,440 mL
   Urine:
                                                                  4,480 mL
                                                                  1,440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -141 mL
                                                                    154 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: APRV
   Vt (Spontaneous): 477 (477 - 863) mL
   PS : 12 cmH2O
   RR (Set): 24
   RR (Spontaneous): 3
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 95%
   ABG: 7.40/76.[**Numeric Identifier 433**]/121/46/18
   Ve: 10.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
    Gen intubated and sedated, ++sq aur over neck and chest
   CV: RR
   Chest: no wheeze, [**Month (only) 202**] bases
   Abd obese soft NT _BS
   Ext: 2+ edema
   Neuro: sedated but intermittenty wakens
   CXR: no PTX but pneumomed.
   Labs / Radiology
   8.7 g/dL
   151 K/uL
   80 mg/dL
   0.7 mg/dL
   46 mEq/L
   3.6 mEq/L
   31 mg/dL
   94 mEq/L
   144 mEq/L
   29.2 %
   8.2 K/uL
        [image002.jpg]
                             [**2178-8-2**]  05:57 AM
                             [**2178-8-2**]  06:03 AM
                             [**2178-8-2**]  12:23 PM
                             [**2178-8-2**]  01:20 PM
                             [**2178-8-2**]  01:27 PM
                             [**2178-8-2**]  05:56 PM
                             [**2178-8-2**]  10:02 PM
                             [**2178-8-3**]  03:05 AM
                             [**2178-8-3**]  05:49 AM
                             [**2178-8-3**]  06:40 AM
   WBC
   7.2
   8.6
   8.2
   Hct
   30.6
   28.9
   29.2
   Plt
   156
   173
   151
   Cr
   0.8
   0.8
   0.7
   0.7
   TCO2
   45
   50
   48
   46
   50
   49
   Glucose
   119
   94
   80
   Other labs: PT / PTT / INR:14.8/57.6/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1.       Hypox resp failure: now need to drop pressures due to
   pneumomediastinum and need to minimize all barotrauma. Will drop P high
   to 25, then 23, and allow PCO2 to rise so long as ph above 7.[**6-6**]
   even be able to get over to PSV if we sedated. Likely will need trach
   but need to get to a place where he can even get trach re SC air and
   exclusing airway spillage
   2.       Pneumomediastinum
 following clinically, lower all pressure
   settings, serial CXR, Thoracics consult- Dr [**Name (NI) 6986**] pt
   3.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip
   Remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-3**] 07:55 AM 85 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: hep drip
   Stress ulcer: PPI
   VAP: HOB, chlorhex
   Communication:  trying to reach brother or mother
   [**Name (NI) 129**] status: Full code
   Disposition :ICU
   Total time spent: 45

2178-08-04 03:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - thoracics consulted and CT done for expanding pneumomediastinum
   - updated pt
s brother on clinical status; he will be here in AM
   - pt with ptx on CT scan. called thoracics for possible chest tube.
   they will defer at this time. they are available if pt clinically
   worsens. if chest tube is needed, they will do CT guided tube.
   - pt on CPAP 5 PS / 8 PEEP with elevated CO2 to 108 --> changed pt to
   pressure support with Pinsp of 20, PEEP 5, f 25, Tinsp 0.8 with slight
   reduction in CO2
   - subcut emphysema progressing/dissecting down arm and face
   - positive blood cultures for GPCs
 from A line, neg from CVL
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-3**] 04:00 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-4**] 03:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.6
   HR: 83 (71 - 107) bpm
   BP: 91/49(61) {90/48(61) - 172/82(109)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 12 (12 - 12)mmHg
   Total In:
                                                                  3,920 mL
                                                                    411 mL
   PO:
   TF:
                                                                  1,882 mL
                                                                    281 mL
   IVF:
                                                                    897 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                  4,640 mL
                                                                    140 mL
   Urine:
                                                                  4,480 mL
                                                                    140 mL
   NG:
                                                                    160 mL
   Stool:
   Drains:
   Balance:
                                                                   -720 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 849 (715 - 849) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.38/92/91
   Ve: 11.8 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen intubated and sedated, subcut emphysema over neck and chest
   CV: RR, nl S1S2
   Chest: no wheeze, decreased at bases, crepitus anteriorly
   Abd obese soft NT BS
   Ext: 2+ edema
   Neuro: sedated but intermittenty wakens
   CXR: moderate left ptx with pneumomediastinum.
   Labs / Radiology
   144 K/uL
   8.6 g/dL
   110 mg/dL
   0.6 mg/dL
   49 mEq/L
   4.2 mEq/L
   26 mg/dL
   92 mEq/L
   144 mEq/L
   29.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2178-8-3**]  10:47 AM
                             [**2178-8-3**]  11:36 AM
                             [**2178-8-3**]  11:44 AM
                             [**2178-8-3**]  02:16 PM
                             [**2178-8-3**]  03:42 PM
                             [**2178-8-3**]  11:55 PM
                             [**2178-8-4**]  12:47 AM
                             [**2178-8-4**]  01:31 AM
                             [**2178-8-4**]  01:43 AM
                             [**2178-8-4**]  02:44 AM
   WBC
   9.6
   11.5
   Hct
   30.7
   29.2
   Plt
   157
   144
   Cr
   0.7
   0.6
   TCO2
   52
   38
   42
   42
   57
   52
   56
   57
   Glucose
   102
   110
   Other labs: PT / PTT / INR:14.6/54.8/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   1.       Hypoxic respiratory failure: try to drop pressures due to
   pneumomediastinum and pneumothorax; need to minimize all barotrauma.
   Thoracics following; no acute intervention at this time.  Currently on
   PSV.  Will drop Pinsp and allow PCO2 to rise so long as ph above 7.2
   Likely will need trach in long term.  Can taper prednisone today.  Cont
   MDI
   2.       Pneumomediastinum / pneumothorax
 following clinically, lower
   all pressure settings, serial CXR, Thoracics following.
   3.       Bacteremia
 spiked overnight, repeat cultures sent, currently
   on vanco
   4.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip
   5.       Coagulopathy
   6.       Hypernatremia
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-3**] 09:00 PM 85.[**Telephone/Fax (5) 7002**]
   mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   # Bacteremia
   - pt did spike a fever on Saturday.  Blood and urine cultures were
   sent.  GPC in clusters in 2 tubes.
   - pt started on vancomycin
   - awaiting further culture results
   - will repeat blood cultures
   # Sedation
 patient off Propofol.  Pt receiving versed at 4 and
   fentanyl at 80 to maintain synchrony and oxygenation.
   - continue to attempt wean sedation while maintaining synchrony and
   oxygenation.
   # Bradycardia
 pt has had h/o bradycardia when he is moved.
   - pt
s HR ranged 57-83 overnight
   - will continue to monitor HR trends.
   # Hypotension - likely in the setting of peep initially in the ED with
   BiPap, and peri-intubation. Then, the hypotension was in the setting of
   decreased preload of applied peep via mechanical ventilation vs high
   sedation.
   - pt still of off pressors, with MAP ranging 61-80
   - continue to monitor BP
s and use pressors to keep MAP > 60.
   - note that pt has not required pressors for some time
   # Hypernatremia
 resolved
   - current sodium level is 144
   - will continue to trend sodium levels
   # Decreased Urine output
   - Net UOP yesterday was 4.5 L; however, I/O net negative only 141 mL.
   - pt still on Lasix gtt
   - would like I/O to be -1 to -1.5 L today
   .
   # Coagulopathy - unclear why INR is so high on admission; it could be
   that patient is not taking his medication correctly. Currently
   reversed. Caution with restarting coumadin.
   - pt currently on heparin gtt.  Goal PTT is 60-80.
   - most recent PTT is within range at 64.4 so no further need to titrate
   - continue to monitor coags
   # Anemia
   - Hct stable
   - Continue to monitor Hct
   # FEN: On TF at 85 ml/hr, replete electrolytes prn

2178-08-04 09:18:00 Physician Attending Progress Note
Chief Complaint: resp failure, SQ emphysema
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2178-8-3**] 05:30 PM
 PAN CULTURE - At [**2178-8-3**] 08:56 PM
 FEVER - 101.6
F - [**2178-8-3**] 08:00 PM
   CT with extensive SC emphysema, no tracheal injury by bronch, no clear
   PTX but air around lung ? between mediastinum and parietal pleura
   needs close monitoring for PTX
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-4**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Heparin Sodium - 1,350 units/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-4**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36
C (96.8
   HR: 78 (71 - 107) bpm
   BP: 106/57(71) {91/48(61) - 172/82(109)} mmHg
   RR: 15 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
   CVP: 10 (10 - 12)mmHg
   Total In:
                                                                  4,280 mL
                                                                  1,670 mL
   PO:
   TF:
                                                                  1,888 mL
                                                                    798 mL
   IVF:
                                                                    902 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  4,640 mL
                                                                  1,355 mL
   Urine:
                                                                  4,480 mL
                                                                  1,345 mL
   NG:
                                                                    160 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                    317 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 849 (715 - 849) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.38/91.[**Numeric Identifier **]/91/49/23
   Ve: 11.3 L/min
   PaO2 / FiO2: 182
   Physical Examination
   Gen intubated and sedated, ++sq air over neck and chest
   CV: RR
   Chest: no wheeze, [**Month (only) 202**] bases
   Abd obese soft NT _BS
   Ext: 2+ edema
   Neuro: sedated but intermittenty wakens
   Labs / Radiology
   8.6 g/dL
   144 K/uL
   110 mg/dL
   0.6 mg/dL
   49 mEq/L
   4.2 mEq/L
   26 mg/dL
   92 mEq/L
   144 mEq/L
   29.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2178-8-3**]  10:47 AM
                             [**2178-8-3**]  11:36 AM
                             [**2178-8-3**]  11:44 AM
                             [**2178-8-3**]  02:16 PM
                             [**2178-8-3**]  03:42 PM
                             [**2178-8-3**]  11:55 PM
                             [**2178-8-4**]  12:47 AM
                             [**2178-8-4**]  01:31 AM
                             [**2178-8-4**]  01:43 AM
                             [**2178-8-4**]  02:44 AM
   WBC
   9.6
   11.5
   Hct
   30.7
   29.2
   Plt
   157
   144
   Cr
   0.7
   0.6
   TCO2
   52
   38
   42
   42
   57
   52
   56
   57
   Glucose
   102
   110
   Other labs: PT / PTT / INR:14.6/54.8/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1.       Hypox resp failure: now need to drop pressures due to
   pneumomediastinum and need to minimize all barotraumas. Went back on
   PCV last PM for PCO2 of 104 but ph was OK. Drop back to PSV and wean as
   tolerates to ph above 7.2.
   2.       Pneumomediastinum
 following clinically, lower all pressure
   settings, serial CXR, Thoracics consult- Dr [**Last Name (STitle) 6986**] following. ?
   role of ABX
   3.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip
   4.       fevers: single + aline cx S epi- will try to resite, follow
   serial CX. Review data on ABX for pneumomed with Toracics
   remaining issues as per Housestaff
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-4**] 08:27 AM 85.[**Telephone/Fax (5) 7002**]
   mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: heparin drip
   Stress ulcer: PPI
   VAP: chlorhex, VAP
   Comments:
   Communication:  I updated bother last PM and he is supposed to come in
   today
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2178-08-05 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Diuresing with lasix
   - has been on [**6-9**] all night
   -Possible attempt at extubation tomorrow morning.
   -Per Psych when extubated and alert restart Trasadone @ 100mg PO qhs
   and increase by 100mg each day until at admission dose.
   - dropped his FIO2 to 40%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-4**] 04:25 PM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2178-8-4**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-5**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.1
   HR: 75 (66 - 95) bpm
   BP: 108/55(71) {100/54(68) - 143/75(96)} mmHg
   RR: 17 (15 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 9 (8 - 15)mmHg
   Total In:
                                                                  4,343 mL
                                                                    994 mL
   PO:
   TF:
                                                                  2,070 mL
                                                                    467 mL
   IVF:
                                                                  1,373 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  3,895 mL
                                                                    540 mL
   Urine:
                                                                  3,870 mL
                                                                    540 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    454 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (545 - 731) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.39/91.[**Numeric Identifier **]/77.[**Numeric Identifier **]//24
   Ve: 10.2 L/min
   PaO2 / FiO2: 156
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   8.6 g/dL
   110 mg/dL
   0.6 mg/dL
   49 mEq/L
   4.2 mEq/L
   26 mg/dL
   92 mEq/L
   144 mEq/L
   29.2 %
   11.5 K/uL
        [image002.jpg]
                             [**2178-8-3**]  02:16 PM
                             [**2178-8-3**]  03:42 PM
                             [**2178-8-3**]  11:55 PM
                             [**2178-8-4**]  12:47 AM
                             [**2178-8-4**]  01:31 AM
                             [**2178-8-4**]  01:43 AM
                             [**2178-8-4**]  02:44 AM
                             [**2178-8-4**]  09:34 AM
                             [**2178-8-4**]  06:41 PM
                             [**2178-8-4**]  11:02 PM
   WBC
   11.5
   Hct
   29.2
   Plt
   144
   Cr
   0.6
   TCO2
   42
   42
   57
   52
   56
   57
   53
   55
   58
   Glucose
   110
   Other labs: PT / PTT / INR:14.6/57.5/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-4**] 08:07 PM 85.[**Telephone/Fax (5) 7002**]
   mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-05 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Thoracics c/s - No clear pneumothorax therefore nothing to drain.
   - Will follow up with thoracics tomorrow re: abx for pneumomediastinum.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-5**] 06:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Midazolam (Versed) - 8 mg/hour
   Heparin Sodium - 1,450 units/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2178-8-4**] 10:28 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-5**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.2
C (98.9
   HR: 75 (66 - 95) bpm
   BP: 145/72(95) {100/54(68) - 145/75(96)} mmHg
   RR: 25 (15 - 44) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 74 Inch
    CVP: 9 (8 - 15)mmHg
   Total In:
                                                                  4,343 mL
                                                                  1,289 mL
   PO:
   TF:
                                                                  2,070 mL
                                                                    531 mL
   IVF:
                                                                  1,373 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  3,895 mL
                                                                    540 mL
   Urine:
                                                                  3,870 mL
                                                                    540 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    749 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 561 (545 - 731) mL
   PS : 10 cmH2O
   RR (Set): 25
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 91%
   ABG: 7.39/91.[**Numeric Identifier **]/77.[**Numeric Identifier **]//24
   Ve: 10.2 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General
 Sedated, On ventilator
   CV
 RRR; No murmurs, rubs, or gallops
   Resp
 clear to auscultation bilaterally
   Chest
 significant subcutaneous emphysema that is greater on the left
   chest; radiates down both arms to the wrists and extends up the neck
   onto the cheeks
   Abdomen
 soft, non-distended, hypoactive bowel sounds present
   Labs / Radiology
   140 K/uL
   8.8 g/dL
   121mg/dL
   0.6 mg/dL
   49 mEq/L
   4.3 mEq/L
   28 mg/dL
   89 mEq/L
   142 mEq/L
   28.6 %
   11.3 K/uL
        [image002.jpg]
                                     pH
                                    7.43
                                    pCO2
                                     73
                                     pO2
                                     103
                                    HCO3
                                     50
                                   BaseXS
                                     20
   Type:Art; Intubated; FiO2%:50; Rate:/35; PEEP:5; Temp:35.9
   Ca: 9.1 Mg: 2.6 P: 3.4
                             [**2178-8-3**]  03:42 PM
                             [**2178-8-3**]  11:55 PM
                             [**2178-8-4**]  12:47 AM
                             [**2178-8-4**]  01:31 AM
                             [**2178-8-4**]  01:43 AM
                             [**2178-8-4**]  02:44 AM
                             [**2178-8-4**]  09:34 AM
                             [**2178-8-4**]  06:41 PM
                             [**2178-8-4**]  11:02 PM
                             [**2178-8-5**]  05:18 AM
   WBC
   11.5
   11.3
   Hct
   29.2
   28.6
   Plt
   144
   140
   Cr
   0.6
   TCO2
   42
   57
   52
   56
   57
   53
   55
   58
   Glucose
   110
   Other labs: PT / PTT / INR:13.7/56.7/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L,
   Sputum cx - budding yeast and GPC in pairs/clusters
   Blood Cx - PENDING
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   #  Hypoxic and Hypercarbic Respiratory Failure
   - weaning down pt
s steroids
 patient has been getting prednisone 40
   mg daily for the past 2 days
 wean down to 30 mg tomorrow
   - continue with albuterol and ipratropium
   - pt is on PSV with a PEEP of 5, PS of 10
 will wean to a PS of 8 and
   then get an ABG to see if tolerated
   - bicarb is 49 this morning, which is where it has been running
   - will obtain another ABG and will continue to allow for permissive
   hypercapnia as long as pt
s pH remains stable
   # Subcutaneous Emphysema with Pneumomediastinum
   - thoracics was consulted and reported there was no pneumothordax and
   therefore nothing to drain
   - will follow-up thoracics recommendations for abx prophylaxis
   - continue to closely monitor hemodynamic stability
   # Bacteremia
   - One set of blood cx showed GPC (coag negative) in clusters in 2
   tubes.
   - no other blood cultures have grown anything at this time
 will d/c
   vano and will follow-up further culture results (blood and urine
   cultures)
   - will also resite a-line
   - sputum cx
 budding yeast and GPC in pairs/clusters
   # Bradycardia
 no acute issues.
   - pt
s HR ranged 66-95 overnight
   - will continue to monitor HR trends.
   # Hypotension
 no acute issues
   - pt off of pressors for a while, with MAP ranging 68-96
   - continue to monitor BP
s and use pressors to keep MAP > 60.
   # Hypernatremia
 no acute issues
   - current sodium level is 142
   - will continue to trend sodium levels
   - will decreased free water flushes t0 200 q4hr
   # Decreased Urine output
 no acute issues
   - Net UOP yesterday was 3.9 L; however, I/O net positive 448 mL.
   - will increase Lasix gtt to 7 at this time
   - will also increase parameters of pt
s lasix gtt
   - will also give an IV lasix bolus
   - I/O goal for the day: even or slightly negative
   .
   # H/o LE DVT
 INR high on admission. Currently reversed. Now on
   heparin gtt.
   - Goal PTT is 60-80.
   - most recent PTT is 56.7  so need to titrate up heparin drip slightly.
   - continue to monitor coags
   # Anemia
   - Hct fairly stable at 28.6
   - Continue to monitor Hct
   # Constipation
   - soap suds enema and oral naloxone
   # FEN: On TF at 85 ml/hr, replete electrolytes prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-4**] 08:07 PM 85.[**Telephone/Fax (5) 7002**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-05 10:26:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains on PSV, presistent SC emphysema
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-5**] 06:00 AM
   Infusions:
   Heparin Sodium - 1,550 units/hour
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2178-8-5**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-5**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.9
C (96.7
   HR: 58 (58 - 95) bpm
   BP: 116/56(76) {100/54(68) - 145/75(96)} mmHg
   RR: 18 (15 - 44) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 150 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 3 (2 - 15)mmHg
   Total In:
                                                                  4,343 mL
                                                                  1,885 mL
   PO:
   TF:
                                                                  2,070 mL
                                                                    886 mL
   IVF:
                                                                  1,373 mL
                                                                    639 mL
   Blood products:
   Total out:
                                                                  3,895 mL
                                                                  1,420 mL
   Urine:
                                                                  3,870 mL
                                                                  1,420 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    465 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (458 - 731) mL
   PS : 10 cmH2O
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.43/73.[**Numeric Identifier **]/103/49/20
   Ve: 7 L/min
   PaO2 / FiO2: 206
   Physical Examination
    Gen intubated and sedated, ++sq air over neck and chest
   CV: RR
   Chest: no wheeze, [**Month (only) 202**] bases
   Abd obese soft NT _BS
   Ext: 2+ edema
   Neuro: sedated but intermittently wakens
   Labs / Radiology
   8.8 g/dL
   140 K/uL
   121 mg/dL
   0.6 mg/dL
   49 mEq/L
   4.3 mEq/L
   28 mg/dL
   88 mEq/L
   142 mEq/L
   28.6 %
   11.3 K/uL
        [image002.jpg]
                             [**2178-8-3**]  11:55 PM
                             [**2178-8-4**]  12:47 AM
                             [**2178-8-4**]  01:31 AM
                             [**2178-8-4**]  01:43 AM
                             [**2178-8-4**]  02:44 AM
                             [**2178-8-4**]  09:34 AM
                             [**2178-8-4**]  06:41 PM
                             [**2178-8-4**]  11:02 PM
                             [**2178-8-5**]  05:18 AM
                             [**2178-8-5**]  07:45 AM
   WBC
   11.5
   11.3
   Hct
   29.2
   28.6
   Plt
   144
   140
   Cr
   0.6
   0.6
   TCO2
   57
   52
   56
   57
   53
   55
   58
   50
   Glucose
   110
   121
   Other labs: PT / PTT / INR:13.7/56.7/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1.       Hypox resp failure: able to wean to PSV, [**11-9**], drop to [**9-9**] - -
   goal would be to get to [**6-9**] and then bronch from above look for
   supraglottic edema, check cuff leak, safety of possible extunation
   would would need to be discussed with MICU and Thoracics teams. He will
   need to have less sedation on board before we can even consider this/
   However, all efforts towards extubation removal of positive pressure
   will expedite resolution of pneumomed, risk of Pneumothorax, and
   increase chances of surviving.
   2.       Pneumomediastinum
 following clinically, lower all pressure
   settings, serial CXR, Thoracics Dr [**Last Name (STitle) 6986**] following. ? role of
   ABX in this severe pnemomed- we cannot find any tdata and have held off
   thus far.
   3.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip
   4.       Fevers: resolved, single + aline cx S epi follow cx, resite
   Aline. Continue Vanco
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2178-8-5**] 07:48 AM
   85.[**Telephone/Fax (5) 7002**] mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2178-7-28**] 02:53 PM
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: heparin gtts
   Stress ulcer: PPI
   VAP: HOB chlor hex
   Communication:  brother was in yesterday but only for 5 minutes, he is
   to return and we will try to meet and update.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2178-08-06 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -resited a-line
   -weaned down to PS 5 PEEP 5
   - [**Name8 (MD) 24**] RN, has been waking up a bit more now that we are weaning
   sedation
   - has received bolus sedation x 2 (0.5 versed, 25 fentanyl) during
   periods of discomfort
   -pt's UOP went up drastically with 80 IV Lasix, but BP also dropped to
   90's
 stopped lasix drip
   -restarted lasix gtt at 2345 hrs
   - no BM yet, but passing gas
   -ICU bronch today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-5**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 0-10 mg/hour
   Heparin Sodium - 1,550 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-5**] 11:00 AM
   Midazolam (Versed) - [**2178-8-6**] 04:08 AM
   Fentanyl - [**2178-8-6**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-6**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.5
C (97.7
   HR: 82 (58 - 97) bpm
   BP: 102/52(68) {88/45(60) - 147/79(103)} mmHg
   RR: 23 (13 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 5 (2 - 5)mmHg
   Total In:
                                                                  3,635 mL
                                                                    254 mL
   PO:
   TF:
                                                                  1,795 mL
                                                                      4 mL
   IVF:
                                                                  1,050 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  5,320 mL
                                                                  1,350 mL
   Urine:
                                                                  5,320 mL
                                                                  1,350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,685 mL
                                                                 -1,096 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (458 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.44/82.[**Numeric Identifier **]/85.[**Numeric Identifier 433**]//26
   Ve: 17 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Gen intubated and sedated, ++sq air over neck and chest
   CV: RRR, nl S1S2
   Chest: no wheeze, [**Month (only) 202**] bases
   Abd obese soft NT distended, hypoactive BS
   Ext: 2+ edema
   Neuro: sedated but intermittently wakens to voice this AM, moving R
   extremity [**Name8 (MD) 24**] RN
   Labs / Radiology
   183 K/uL
   9.1 g/dL
   101 mg/dL
   0.5 mg/dL
   49 mEq/L
   3.9 mEq/L
   33 mg/dL
   84 mEq/L
   140 mEq/L
   30.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2178-8-4**]  09:34 AM
                             [**2178-8-4**]  06:41 PM
                             [**2178-8-4**]  11:02 PM
                             [**2178-8-5**]  05:18 AM
                             [**2178-8-5**]  07:45 AM
                             [**2178-8-5**]  01:08 PM
                             [**2178-8-5**]  02:37 PM
                             [**2178-8-5**]  04:51 PM
                             [**2178-8-6**]  04:27 AM
                             [**2178-8-6**]  04:34 AM
   WBC
   11.3
   11.8
   Hct
   28.6
   30.0
   Plt
   140
   183
   Cr
   0.6
   0.6
   0.5
   TCO2
   53
   55
   58
   50
   54
   60
   58
   Glucose
   121
   137
   101
   Other labs: PT / PTT / INR:13.1/62.7/1.1, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Wound cx a-line [**8-5**]
 in progress
   Sputum cx trach [**8-3**]
 GPC
   Blood cx [**8-3**]
 NGTD
   Urine cx neg.
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   1.       Hypoxic respiratory failure: able to wean to PSV 5/5 overnight
   and able to decrease sedation to 3 versed/50 fentanyl.  Will bronch
   this AM and assess possible edema adjacent to airway, possible cuff
   leak, and safety of extubation.  Appreciate thoracics recs and input.
   Goal would be to decrease pos pressure ventilation ASAP to resolve
   pneumomediastinum and [**Month (only) 202**] risk of ptx.  If unable to wean from vent,
   consider trach placement.  [**Month (only) 11**] be good candidate for precedex.  Weaning
   steroids, cont MDI.  Allowing permissive hypercapnia.
   2.       Pneumomediastinum/sq emphysema
 following clinically and with
   serial cxr
s, lower all pressure settings, Thoracics Dr [**Last Name (STitle) 6986**]
   following.  No apparent role of abx in this severe pnemomediastinum.
   Holding off for now.
   3.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip.  Diuresing well (net 3.5L positive throughout hospital
   stay).  Goal for the day -1L.
   4.       Fevers: resolved, single + a line cx of S epi.  DDX includes
   trangient vs. contaminant vs. (less likely) pathogen.  Follow cx,
   re-sited A-line. Vanco d/c
ed.  Urine cx [**8-3**] neg, catheter tip culture
   [**8-5**] pending, sputum/tracheal cx [**8-3**] with GPC.
   5.       Coagulopathy
 hx of chronic DVT, on heparin gtt with goal PTT
   60-80.
   6.       Hypernatremia
 resolved with free water flushes.
   7.       Constipation
 on senna, colase, lactulose, soap suds enema,
   and oral naloxone.  Will follow.
   # FEN: On TF at 85 ml/hr, replete electrolytes prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP: elevate HOB, mouth care
   Comments:
   Communication:  Comments: brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2178-08-06 10:28:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2178-8-5**] 01:00 PM
 ARTERIAL LINE - STOP [**2178-8-5**] 02:30 PM
   Wenaed to [**6-9**]
   Wenend sedation
   \
   ++ UOP with lasix drip
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-5**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 50 mcg/hour
   Furosemide (Lasix) - 10 mg/hour
   Heparin Sodium - 1,550 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2178-8-5**] 11:00 AM
   Fentanyl - [**2178-8-6**] 04:08 AM
   Midazolam (Versed) - [**2178-8-6**] 04:08 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-6**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 82 (61 - 97) bpm
   BP: 96/49(64) {88/45(60) - 147/79(103)} mmHg
   RR: 22 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 8 (5 - 8)mmHg
   Total In:
                                                                  3,635 mL
                                                                    372 mL
   PO:
   TF:
                                                                  1,795 mL
                                                                      4 mL
   IVF:
                                                                  1,050 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  5,320 mL
                                                                  1,730 mL
   Urine:
                                                                  5,320 mL
                                                                  1,730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,685 mL
                                                                 -1,358 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 539 (497 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.44/82.[**Numeric Identifier **]/85.[**Numeric Identifier 433**]//26
   Ve: 10.8 L/min
   PaO2 / FiO2: 170
   Physical Examination
   Gen intubated and sedated, ++sq air over neck and chest
   CV: RR
   Chest: no wheeze, [**Month (only) 202**] bases
   Abd obese soft NT _BS
   Ext: 2+ edema
   Neuro: wakes to voice, not following commands
   Labs / Radiology
   9.1 g/dL
   183 K/uL
   101 mg/dL
   0.5 mg/dL
   49 mEq/L
   3.9 mEq/L
   33 mg/dL
   84 mEq/L
   140 mEq/L
   30.0 %
   11.8 K/uL
        [image002.jpg]
                             [**2178-8-4**]  09:34 AM
                             [**2178-8-4**]  06:41 PM
                             [**2178-8-4**]  11:02 PM
                             [**2178-8-5**]  05:18 AM
                             [**2178-8-5**]  07:45 AM
                             [**2178-8-5**]  01:08 PM
                             [**2178-8-5**]  02:37 PM
                             [**2178-8-5**]  04:51 PM
                             [**2178-8-6**]  04:27 AM
                             [**2178-8-6**]  04:34 AM
   WBC
   11.3
   11.8
   Hct
   28.6
   30.0
   Plt
   140
   183
   Cr
   0.6
   0.6
   0.5
   TCO2
   53
   55
   58
   50
   54
   60
   58
   Glucose
   121
   137
   101
   Other labs: PT / PTT / INR:13.1/62.7/1.1, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   1.       Hypox resp failure: able to wean to PSV 5/5
 will bronch to
   rule out for supraglottic edema, but doubt with cuff leak. [**Month (only) 11**] need
   Precidex to tolerate being awake enough to extubate but control anxiety
   2.       Pneumomediastinum
 following clinically, lower all pressure
   settings, serial CXR, Thoracics Dr [**Last Name (STitle) 6986**] following. No  role for
   empiric ABX in this severe pnemomed- trend
   3.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip
   4.       Fevers: resolved, single + aline cx S epi follow cx, resited
   Aline. Follow up surveillance cultures.
   Remaining issues as per Housestaff
   ICU Care
   Nutrition: TF on hold for possible ext
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT: hep drip
   Stress ulcer: PPI
   VAP: chlorhex,
   Communication:  with brother confirmed full code and owul dbe
   reintubated should he fail
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-08-07 04:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Went up on his sedation, as pt slightly more agitated and
   dys-synchronous on vent
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-5**] 06:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Heparin Sodium - 1,550 units/hour
   Other ICU medications:
   Fentanyl - [**2178-8-6**] 10:00 PM
   Midazolam (Versed) - [**2178-8-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-7**] 04:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 38.2
C (100.7
   HR: 91 (82 - 107) bpm
   BP: 90/59(70) {90/49(64) - 125/79(94)} mmHg
   RR: 23 (22 - 38) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 2 (2 - 8)mmHg
   Total In:
                                                                  1,713 mL
                                                                    512 mL
   PO:
   TF:
                                                                    297 mL
                                                                    184 mL
   IVF:
                                                                    796 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                  4,965 mL
                                                                    480 mL
   Urine:
                                                                  4,965 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,252 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 537 (483 - 625) mL
   PS : 5 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 44
   PIP: 12 cmH2O
   SpO2: 95%
   ABG: 7.43/82.[**Numeric Identifier **]/142/50/25
   Ve: 16.4 L/min
   PaO2 / FiO2: 284
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   201 K/uL
   9.5 g/dL
   97 mg/dL
   0.6 mg/dL
   50 mEq/L
   3.2 mEq/L
   24 mg/dL
   84 mEq/L
   137 mEq/L
   31.3 %
   12.7 K/uL
        [image002.jpg]
                             [**2178-8-5**]  05:18 AM
                             [**2178-8-5**]  07:45 AM
                             [**2178-8-5**]  01:08 PM
                             [**2178-8-5**]  02:37 PM
                             [**2178-8-5**]  04:51 PM
                             [**2178-8-6**]  04:27 AM
                             [**2178-8-6**]  04:34 AM
                             [**2178-8-6**]  09:59 PM
                             [**2178-8-7**]  01:58 AM
                             [**2178-8-7**]  02:16 AM
   WBC
   11.3
   11.8
   12.7
   Hct
   28.6
   30.0
   31.3
   Plt
   140
   183
   201
   Cr
   0.6
   0.6
   0.5
   0.6
   TCO2
   50
   54
   60
   58
   57
   57
   Glucose
   121
   137
   101
   107
   97
   Other labs: PT / PTT / INR:14.6/56.4/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:9.1 mg/dL, Mg++:2.6 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 BACTEREMIA
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPERNATREMIA (HIGH SODIUM)
 BRADYCARDIA
 HYPOTHERMIA
 HYPOTENSION (NOT SHOCK)
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   1.       Hypoxic respiratory failure: able to wean to PSV 5/5 overnight
   and able to decrease sedation to 3 versed/50 fentanyl.  Will bronch
   this AM and assess possible edema adjacent to airway, possible cuff
   leak, and safety of extubation.  Appreciate thoracics recs and input.
   Goal would be to decrease pos pressure ventilation ASAP to resolve
   pneumomediastinum and [**Month (only) 202**] risk of ptx.  If unable to wean from vent,
   consider trach placement.  [**Month (only) 11**] be good candidate for precedex.  Weaning
   steroids, cont MDI.  Allowing permissive hypercapnia.
   2.       Pneumomediastinum/sq emphysema
 following clinically and with
   serial cxr
s, lower all pressure settings, Thoracics Dr [**Last Name (STitle) 6986**]
   following.  No apparent role of abx in this severe pnemomediastinum.
   Holding off for now.
   3.       Hypotension: resolved, off pressors and tolerating low dose
   lasix drip.  Diuresing well (net 3.5L positive throughout hospital
   stay).  Goal for the day -1L.
   4.       Fevers: resolved, single + a line cx of S epi.  DDX includes
   trangient vs. contaminant vs. (less likely) pathogen.  Follow cx,
   re-sited A-line. Vanco d/c
ed.  Urine cx [**8-3**] neg, catheter tip culture
   [**8-5**] pending, sputum/tracheal cx [**8-3**] with GPC.
   5.       Coagulopathy
 hx of chronic DVT, on heparin gtt with goal PTT
   60-80.
   6.       Hypernatremia
 resolved with free water flushes.
   7.       Constipation
 on senna, colase, lactulose, soap suds enema,
   and oral naloxone.  Will follow.
   # FEN: On TF at 85 ml/hr, replete electrolytes prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-6**] 05:30 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-08 06:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2178-8-7**] 03:13 PM
   - AM CXR concerning for air under diaphragm
   - Repeat CXR performed upright shows no evidence of free air under
   diaphragm and interval improvement in subQ emph.
   - KUB shows stool backed up to R colon
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-7**] 03:12 PM
   Piperacillin - [**2178-8-8**] 03:00 AM
   Vancomycin - [**2178-8-8**] 04:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-8**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 82 (77 - 93) bpm
   BP: 108/61(76) {93/52(65) - 124/73(90)} mmHg
   RR: 23 (15 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 150 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 0 (-1 - 0)mmHg
   Total In:
                                                                  4,009 mL
                                                                  1,307 mL
   PO:
   TF:
                                                                  1,565 mL
                                                                    521 mL
   IVF:
                                                                  1,524 mL
                                                                    586 mL
   Blood products:
   Total out:
                                                                  5,240 mL
                                                                    950 mL
   Urine:
                                                                  5,240 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,231 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 619 (571 - 624) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 42
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.39/77.[**Numeric Identifier **]/77.[**Numeric Identifier **]/41/17
   Ve: 13.3 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General
 sedated, on ventilator
   CV
 faint heart sounds that are difficult to hear; no murmurs, rubs,
   or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 slightly firmer than previously, BS present
   Extremities
 some slight edema in the distal LE
   Labs / Radiology
   191 K/uL
   10.0 g/dL
   107 mg/dL
   0.6 mg/dL
   41 mEq/L
   3.6 mEq/L
   28 mg/dL
   91 mEq/L
   140 mEq/L
   33.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2178-8-5**]  02:37 PM
                             [**2178-8-5**]  04:51 PM
                             [**2178-8-6**]  04:27 AM
                             [**2178-8-6**]  04:34 AM
                             [**2178-8-6**]  09:59 PM
                             [**2178-8-7**]  01:58 AM
                             [**2178-8-7**]  02:16 AM
                             [**2178-8-7**]  05:55 PM
                             [**2178-8-8**]  04:19 AM
                             [**2178-8-8**]  04:32 AM
   WBC
   11.8
   12.7
   10.0
   Hct
   30.0
   31.3
   33.8
   Plt
   183
   201
   191
   Cr
   0.6
   0.5
   0.6
   0.6
   TCO2
   60
   58
   57
   57
   52
   49
   Glucose
   137
   101
   107
   97
   107
   Other labs: PT / PTT / INR:13.5/67.2/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on PSV 5/5; sedation: versed at 3 and fentanyl at 75
   - was able to wean down versed a little yesterday
 however, have had
   trouble weaning down pt
s sedation
 whenever his sedation is
   decreased, he becomes tachypneic
 pt would possibly be a candidate for
   precedex
   - will also increase sedation in order to decrease the patient
   respiratory rate
   - goal is to get patient off of positive pressure ventilation in order
   to decrease risk of worsening his subcutaneous emphysema and
   pneumomediastinum
   - on prednisone taper
   - continue albuterol and ipratroprium
   - I/O
 negative 1.2 L yesterday
 Cr still steady at 0.6 and BP
   holding steady around 100
 will continue with diuresis
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
   - pt had upright CXR yesterday that showed interval improvement in
   subcutaneous emphysema
   - minimize positive pressure if possible
   - Thoracics (Dr [**Last Name (STitle) 6986**] following)
   # Fevers
   - one set of blood cx positive for coag- staph
 repeat blood cx
   PENDING
   - a-line resited
 tip of previous a-line positive for coag- staph
   - sputum cx
 2+ GPC in pairs and clusters; 2+ GPR
   - pt was started on VAP coverage with vanc/zosyn yesterday
   - pt afebrile and WBC trending down
 10.0 today (from 12.7)
   - continue abx and continue to monitor
   # Hypotension
   - no acute issues
 off pressors
   # Hx of Chronic DVT
   - on heparin gtt with goal PTT 60-80 (Current PTT 67.2)
 at goal;
   continue heparin drip
   - will transition to coumadin after it is finally determined whether pt
   will need a trach
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, soap suds enema, and oral naloxone.
   - KUB showed stool backed up to the R colon
   - will also consider methylnaltrexone if pt continues without bowl
   movements
   - will consult GI
   # FEN: On TF at 85 ml/hr, replete electrolytes prn
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-8**] 01:17 AM 85 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-09 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - abdominal CT done per radiology recs; prior KUB showing stool backup
   to R colon.  No additional abd pathology noted.
   - on 6 versed, 100 fentanyl, 15 mg/hr lasix gtt
   - still with significant sq emphysema, low grade temps.  WBC stable.
   - trying to diurese 1 to 2 L neg, but not quite there last night.
   - remains with periods of marked tachypnea, though slightly improved
   now on AC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-7**] 03:12 PM
   Vancomycin - [**2178-8-9**] 03:45 AM
   Piperacillin - [**2178-8-9**] 04:30 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,650 units/hour
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-8**] 04:12 PM
   Midazolam (Versed) - [**2178-8-8**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-9**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 79 (79 - 116) bpm
   BP: 108/60(75) {84/53(64) - 130/77(91)} mmHg
   RR: 22 (22 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.5 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  5,256 mL
                                                                    960 mL
   PO:
             TF:
                                                                  1,646 mL
                                                                    260 mL
   IVF:
                                                                  1,910 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                  3,710 mL
                                                                  1,210 mL
   Urine:
                                                                  3,710 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,546 mL
                                                                   -250 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 655 (573 - 655) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.41/65/71/40/12 (9 pm last night)
   Ve: 10.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General
 sedated, on ventilator, rouses to voice
   CV
 faint heart sounds but regular rate and rhythm; no murmurs, rubs,
   or gallops
   Resp
 diffuse crackles, sq emphysema over chest and chest wall
   Abdomen
 soft, distended, hypoactive BS
   Extremities
 [**2-6**]+ edema in the distal LE
   Labs / Radiology
   260 K/uL
   9.8 g/dL
   109 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.2 mEq/L
   29 mg/dL
   89 mEq/L
   137 mEq/L
   32.0 %
   10.3 K/uL
        [image002.jpg]
                             [**2178-8-6**]  09:59 PM
                             [**2178-8-7**]  01:58 AM
                             [**2178-8-7**]  02:16 AM
                             [**2178-8-7**]  05:55 PM
                             [**2178-8-8**]  04:19 AM
                             [**2178-8-8**]  04:32 AM
                             [**2178-8-8**]  03:02 PM
                             [**2178-8-8**]  03:28 PM
                             [**2178-8-8**]  08:50 PM
                             [**2178-8-9**]  02:15 AM
   WBC
   12.7
   10.0
   10.3
   Hct
   31.3
   33.8
   32.0
   Plt
   [**Telephone/Fax (3) 7109**]
   Cr
   0.6
   0.6
   0.7
   0.7
   TCO2
   57
   57
   52
   49
   46
   43
   Glucose
   107
   97
   107
   148
   109
   Other labs: PT / PTT / INR:14.4/76.9/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.9 mmol/L, Ca++:9.0 mg/dL, Mg++:2.6 mg/dL, PO4:3.2 mg/dL
   Micro
   Sputum [**8-7**]
 2+ GPC pairs and clusters, 2+ GPR
   A-line tip [**8-5**]
 coag neg staph
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on AC 500 x 20, PEEP 5, FIO2 40%.  Increased sedation to 6 versed and
   100 fentanyl to decrease autoPEEP and air hunger.
   - still with high MVe and likely significant dead space given his MVe
   and ABG (ddx includes consolidation vs. volume overload vs.
   subcutaneous air)
   - of note, when sedation is decreased pt becomes tachypnic and
   generates autoPEEP.  Have not made much progress with increasing
   sedation to [**Month (only) 202**] autoPEEP overnight.
   - goal is to get patient off of positive pressure ventilation to
   decrease risk of worsening his subcutaneous emphysema and
   pneumomediastinum, but pt
s overall pulm status is poor.
   - on prednisone taper
   - continue albuterol and ipratroprium
   - I/O
 positive 1 L yesterday (possibly due to PO contrast)
 Cr still
   steady and BP stable; cont with diuresis goal of -1 L today.  Will add
   zaroxyln.
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
   - pt had upright CXR yesterday that showed interval improvement in
   subcutaneous emphysema
   - minimize positive pressure if possible
   - Thoracics (Dr [**Last Name (STitle) 6986**] following)
   # Fevers
   - one set of blood cx positive for coag- staph
 repeat blood cx NGTD
   - a-line resited
 tip of previous a-line positive for coag- staph
   (likely trangient or contaminant)
   - sputum cx
 2+ GPC in pairs and clusters; 2+ GPR
   - pt was started on VAP coverage with vanc/zosyn (day 3 today) given
   pulm infiltrates, low grade temps, WBC.
   - pt with low grade temp (Tm 99.4) and WBC stable
   - continue abx for total of 7 days and continue to monitor
   # Hypotension
   - no acute issues
 off pressors
   # Hx of Chronic DVT
   - on heparin gtt with goal PTT 60-80 (Current PTT 77)
 at goal
   - switch to lovenox to decerase total intake (150 mg [**Hospital1 **])
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, soap suds enema, methylnaltrexone.  Will
   [**Month (only) 202**] TF rate to 30 ml/hr.
   - KUB showed stool backed up to the R colon; f/u CT scan shows no
   additional abd pathology
   - will consult GI
   - will add golytely
   # FEN: On TF at 85 ml/hr, decrease to 30 ml/hr, nutrition consult
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-9**] 03:00 AM 85 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   20 Gauge - [**2178-8-8**] 07:53 PM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: lansoprazole
   VAP:  elevate HOB, mouth care
   Comments:
   Communication:  Comments: family meeting with brother [**Name (NI) 305**] 1 pm
   Code status: Full code
   Disposition: ICU

2178-08-10 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - abdominal CT done per radiology recs
   - increased FIO2
   - increased sedation to decrease air hunger
   - PIPs in high 30s for a bit, but then went back to low teens, possibly
   after clearing secretions/increasing sedation?
   - not tolerating AC --> switched to PS 14/5 (but CO2 rising)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-7**] 03:12 PM
   Vancomycin - [**2178-8-10**] 03:00 AM
   Piperacillin - [**2178-8-10**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 8 mg/hour
   Other ICU medications:
   Acetaminophen
   Albuterol Inhaler
   Bisacodyl
   Docusate Sodium (Liquid)
   Enoxaparin Sodium
   Fentanyl Citrate
   Furosemide
   Insulin
   Ipratropium Bromide MDI
   Lactulose
   Metolazone
   Midazolam
   Pantoprazole
   Piperacillin-Tazobactam
   Senna
   Vancomycin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-10**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 93 (84 - 105) bpm
   BP: 111/62(79) {89/54(67) - 135/76(96)} mmHg
   RR: 44 (22 - 44) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.5 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  3,838 mL
                                                                    559 mL
   PO:
             TF:
                                                                    742 mL
   IVF:
                                                                  1,841 mL
                                                                    559 mL
   Blood products:
   Total out:
                                                                  4,750 mL
                                                                    810 mL
   Urine:
                                                                  4,550 mL
                                                                    810 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -912 mL
                                                                   -251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 400 (400 - 400) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   SpO2: 94%
   ABG: 7.32/91/72/43/15
   Ve: 11.2 L/min
   PaO2 / FiO2: 144
   Physical Examination
   Labs / Radiology
   225 K/uL
   9.7 g/dL
   127 mg/dL
   0.8 mg/dL
   43 mEq/L
   3.2 mEq/L
   33 mg/dL
   87 mEq/L
   139 mEq/L
   31.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2178-8-8**]  03:28 PM
                             [**2178-8-8**]  08:50 PM
                             [**2178-8-9**]  02:15 AM
                             [**2178-8-9**]  09:16 AM
                             [**2178-8-9**]  02:40 PM
                             [**2178-8-9**]  02:56 PM
                             [**2178-8-9**]  09:57 PM
                             [**2178-8-10**]  03:42 AM
                             [**2178-8-10**]  05:15 AM
                             [**2178-8-10**]  05:53 AM
   WBC
   10.3
   10.3
   Hct
   32.0
   31.5
   Plt
   260
   225
   Cr
   0.7
   0.8
   0.8
   TCO2
   46
   43
   47
   47
   49
   50
   49
   Glucose
   109
   109
   127
   Other labs: PT / PTT / INR:14.3/40.6/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on PS 14/5 50%.
   - still with high MVe and likely significant dead space given his MVe
   and
   - When sedation is decreased pt becomes tachypnic and generates
   autoPEEP.
   - goal is to wean patient off of positive pressure ventilation in hopes
   of allowing his lungs to heal and prevent worsening of his subcutaneous
   emphysema and pneumomediastinum, but pt
s overall pulm status is poor.
   - on prednisone taper
   - continue albuterol and ipratroprium
   - I/O
 negative 900cc yesterday (possibly due to PO contrast)
   still steady and BP stable; cont with diuresis goal of -1 L today.
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
   - Worsening subcutaneous emphysema
   - minimize positive pressure if possible
   - Thoracics (Dr [**Last Name (STitle) 6986**] following); no new recs at this time
   - Will decrease pts MVe and tolerage elevated PCO2.
   - Pending family meeting may opt to paralyze patient and decrease PIP
   and Volumes to attempt to allow lungs to heal
   # Fevers
   - one set of blood cx positive for coag- staph
 repeat blood cx NGTD
   - a-line resited
 tip of previous a-line positive for coag- staph
   (likely trangient or contaminant)
   - sputum cx
 2+ GPC in pairs and clusters; 2+ GPR
   - pt was started on VAP coverage with vanc/zosyn (day 3 today) given
   pulm infiltrates, low grade temps, WBC.
   - pt with low grade temp (Tm 99.4) and WBC stable
   - continue abx for total of 7 days and continue to monitor
   # Constipation
   - on senna, colase, lactulose, soap suds enema, methylnaltrexone.  Will
   [**Month (only) 202**] TF rate to 30 ml/hr.
   - KUB showed stool backed up to the R colon; f/u CT scan shows no
   additional abd pathology
   - will consult GI after discussing goals of care with family as we have
   exhausted our capabilities and are concerned for obstipation
   - added golytely
   # Hx of Chronic DVT
   - on heparin gtt with goal PTT 60-80 (Current PTT 77)
 at goal
   - switch to lovenox to decerase total intake (150 mg [**Hospital1 **])
   # Hypotension
 (Resolved)
   - no acute issues
 off pressors
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN: Tube feeds held given high residual.
   ICU Care
   Nutrition: Holding tube feeds [**3-9**] high residuals.
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   20 Gauge - [**2178-8-8**] 07:53 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer:  PPI
   VAP:  Vanc/Zosyn, HOB>30, oral care
   Comments:
   Communication: with Brother. Family meeting for 1300hrs today Comments:
   Code status: Full code
   Disposition: MICU

2178-08-11 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Family meeting today.  Pts brother states pt had expressed desire to
   live and therefore wants everything done.
   - Consulted GI re: constipation/obstipation.  GI recommended
   gastrografin enema and they will see pt on [**8-11**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2178-8-10**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-11**] 04:00 AM
   Vancomycin - [**2178-8-11**] 05:16 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Cisatracurium - [**2178-8-10**] 06:48 PM
   Fentanyl - [**2178-8-10**] 08:57 PM
   Enoxaparin (Lovenox) - [**2178-8-11**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-11**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 88 (83 - 113) bpm
   BP: 88/53(65) {68/48(54) - 151/84(109)} mmHg
   RR: 26 (20 - 44) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 147.7 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,157 mL
                                                                  1,093 mL
   PO:
             TF:
   IVF:
                                                                  2,057 mL
                                                                  1,033 mL
   Blood products:
   Total out:
                                                                  3,335 mL
                                                                    325 mL
   Urine:
                                                                  3,135 mL
                                                                    325 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,178 mL
                                                                    768 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   Vt (Spontaneous): 424 (419 - 467) mL
   PS : 14 cmH2O
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 96%
   ABG: 7.26/116/137/47/19
   Ve: 10 L/min
   PaO2 / FiO2: 274
   Physical Examination
   General
 Sedated and on ventilator
   Chest
 subcutaneous emphysema present across chest, down both arms, up
   cheeks to eye level, and into upper abdomen
   CV
 RRR; no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 obese, slightly tighter than previously, bowel sounds present
   Extremities
 R and DP pulses palpable bilaterally
   Labs / Radiology
   264 K/uL
   9.8 g/dL
   111 mg/dL
   1.1 mg/dL
   47 mEq/L
   3.9 mEq/L
   40 mg/dL
   88 mEq/L
   141 mEq/L
   33.2 %
   10.7 K/uL
        [image002.jpg]
                             [**2178-8-10**]  03:42 AM
                             [**2178-8-10**]  05:15 AM
                             [**2178-8-10**]  05:53 AM
                             [**2178-8-10**]  06:41 AM
                             [**2178-8-10**]  06:13 PM
                             [**2178-8-10**]  08:23 PM
                             [**2178-8-10**]  09:15 PM
                             [**2178-8-10**]  10:12 PM
                             [**2178-8-11**]  03:00 AM
                             [**2178-8-11**]  03:14 AM
   WBC
   10.3
   10.7
   Hct
   31.5
   33.2
   Plt
   225
   264
   Cr
   0.8
   1.1
   TCO2
   50
   49
   49
   55
   52
   55
   53
   54
   Glucose
   127
   111
   Other labs: PT / PTT / INR:14.7/43.6/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.8 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on PCV+Assist 14/5 50%.
   - CXR essentially unchanged
   - When sedation is decreased pt becomes tachypnic and generates
   autoPEEP.
   - goal is to wean patient off of positive pressure ventilation
   - continue albuterol and ipratroprium
   - I/O
 patient was negative 1.2L yesterday
 pt also has a Cr bump
   (now up to 1.1)
 Lasix gtt off right now; consider slowing down on
   diuresis today (Goal of negative 500mL to 1L tomorrow)
   - will decrease pt
s respiratory rate to 24 breaths per minute
   # Fevers/Leukocytosis
   - one set of blood cx positive for coag- staph
 blood cultures
   negative since
   - a-line resited
 tip of previous a-line positive for coag- staph
   - sputum cx
 yeast, GPC in pairs and clusters, GPR
   - urine cx negative
   - pt was started on VAP coverage with vanc/zosyn (day 5 today)
 will
   complete a 7 day course
   - afebrile overnight (Tmax 99.9); WBC at 10.7
   - continue abx for total of 7 days and continue to monitor
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   - thoracics (Dr [**Last Name (STitle) 6986**] following); questioned possibility of lung
   transplant; however, pt would not be a suitable candidate secondary to
   lack of mobility, active infection, and mental retardation
   - pt currently paralyzed in an attempt to allow lungs to heal
   # Constipation
   - on senna, colase, lactulose, soap suds enema, methylnaltrexone.
   - KUB showed stool backed up to the R colon; f/u CT scan shows no
   additional abd pathology
   - GI recommends checking TSH, getting a gastrograffin enema, and
   following serial KUB
   # Hx of Chronic DVT
   - switched to lovenox yesterday
   # Hypotension
   - pt did have some episodes on hypotension overnight
   - normotensive now
 continue to monitor
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 Currently holding tube feeds secondary to high residuals
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   20 Gauge - [**2178-8-8**] 07:53 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-12 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-11**]
   -changed vent settings to RR of 24 (from 26) - after new ABG, decreased
   respiratory rate again to 20
   -1400 - lasix stopped [**3-9**] decreased BP
   -notfied that patient has been [**5-9**] twitches all day - should be more
   like [**3-11**] - paralytic [**Doctor Last Name 23**] increased
   -TSH low (only borderline, though)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2178-8-10**] 08:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-12**] 04:22 AM
   Vancomycin - [**2178-8-12**] 05:15 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Cisatracurium - 0.19 mg/Kg/hour
   Midazolam (Versed) - 10 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-11**] 08:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-12**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.5
C (97.7
   HR: 86 (83 - 100) bpm
   BP: 121/67(84) {90/55(66) - 162/93(105)} mmHg
   RR: 20 (18 - 42) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 147.7 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,861 mL
                                                                  1,115 mL
   PO:
             TF:
   IVF:
                                                                  2,711 mL
                                                                  1,115 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    960 mL
   Urine:
                                                                  1,665 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,196 mL
                                                                    155 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.24/125/53/47/19
   Ve: 8.5 L/min
   PaO2 / FiO2: 106
   Physical Examination
   General
 Sedated and on ventilator
   Chest
 subcutaneous emphysema present across chest, down both arms, up
   cheeks to eye level, and into upper abdomen
   CV
 RRR; no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 Obese, Soft/ND bowel sounds absent.
   Extremities
 R and DP pulses palpable bilaterally
   Labs / Radiology
   263 K/uL
   9.2 g/dL
   138 mg/dL
   0.9 mg/dL
   47 mEq/L
   3.3 mEq/L
   43 mg/dL
   84 mEq/L
   138 mEq/L
   30.8 %
   11.1 K/uL
        [image002.jpg]
                             [**2178-8-10**]  08:23 PM
                             [**2178-8-10**]  09:15 PM
                             [**2178-8-10**]  10:12 PM
                             [**2178-8-11**]  03:00 AM
                             [**2178-8-11**]  03:14 AM
                             [**2178-8-11**]  06:33 AM
                             [**2178-8-11**]  05:11 PM
                             [**2178-8-12**]  01:29 AM
                             [**2178-8-12**]  02:48 AM
                             [**2178-8-12**]  03:04 AM
   WBC
   10.7
   11.1
   Hct
   33.2
   30.8
   Plt
   264
   263
   Cr
   1.1
   0.9
   TCO2
   52
   55
   53
   54
   52
   45
   55
   56
   Glucose
   111
   138
   Other labs: PT / PTT / INR:14.7/43.6/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.9 mg/dL, Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on PCV+Assist 14/5 50%.
   - CXR essentially unchanged
   - When sedation is decreased pt becomes tachypnic and generates
   autoPEEP.
   - goal is to wean patient off of positive pressure ventilation
   - continue albuterol and ipratroprium
   - I/O
 patient was negative 1.2L yesterday, goal of 1L negative for
   today given Cr. bump that occurred yesterday.
   - Pt is paralyzed with cisatricurium in hopes of decreasing PIPs and
   allowing the lung to heal.
   # Fevers/Leukocytosis
   - one set of blood cx positive for coag- staph
 blood cultures
   negative since
   - a-line resited
 tip of previous a-line positive for coag- staph
   - sputum cx
 yeast, GPC in pairs and clusters, GPR
   - urine cx negative
   - pt was started on VAP coverage with vanc/zosyn (day 6 today)
 will
   complete a 7 day course
   - afebrile overnight; WBC at 10.7
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   - pt currently paralyzed in an attempt to allow lungs to heal
   # Constipation
   - on senna, colase, lactulose, soap suds enema, methylnaltrexone.
   - KUB showed stool backed up to the R colon; f/u CT scan shows no
   additional abd pathology
   - GI recommended checking TSH which was 0.25.  Constipation more likely
   in setting of hypothyroidism, while hyperthyroidism generates increased
   freq of bowel movements.
   - following serial KUB
   #Hyperthyroid
   - TSH was 0.25
   - Need to check free T4 as this may be subclinical hyperthyroidism, and
   this will also help guide further evaluation and management.
   # Hx of Chronic DVT
   - switched to lovenox
   # Hypotension
   - pt did have some episodes on hypotension overnight
   - normotensive now
 continue to monitor
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 Currently holding tube feeds secondary to high residuals
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   20 Gauge - [**2178-8-8**] 07:53 PM
   Prophylaxis:
   DVT: Therapeutic Lovenox
   Stress ulcer: PPI
   VAP:  HOB>30, Oral Care
   Comments:
   Communication: With Brother Comments:
   [**Name2 (NI) 129**] status: Full code
   Disposition: MICU

2178-08-13 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2178-8-12**] 06:00 PM
   [**2178-8-12**]
   - EKG: atrial tachycardia ?MAT, started on beta blocker
   - suctioning with increased thick secretions
   - notified that pt having [**5-9**] twitches and that RN has gone up on
   versed gtt - should be [**3-11**] twitches - paralytic [**Doctor Last Name 23**] increased per
   protocol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2178-8-10**] 08:30 PM
   Vancomycin - [**2178-8-13**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-13**] 04:21 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-12**] 06:00 PM
   Metoprolol - [**2178-8-12**] 06:45 PM
   Enoxaparin (Lovenox) - [**2178-8-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-13**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 85 (81 - 127) bpm
   BP: 87/49(62) {87/44(60) - 139/70(93)} mmHg
   RR: 24 (20 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 148.3 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  3,091 mL
                                                                    909 mL
   PO:
             TF:
   IVF:
                                                                  2,916 mL
                                                                    909 mL
   Blood products:
   Total out:
                                                                  1,840 mL
                                                                    460 mL
   Urine:
                                                                  1,840 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,251 mL
                                                                    449 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   PC : 20 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Neuromusc Block
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.32/98.[**Numeric Identifier 500**]/109/47/18
   Ve: 9 L/min
   PaO2 / FiO2: 218
   Physical Examination
   General
 Sedated and on ventilator
   Chest
 subcutaneous emphysema present across chest, down both arms, up
   cheeks to eye level, and into upper abdomen
   CV
 RRR; no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 Obese, Soft/ND bowel sounds absent.
   Extremities
 R and DP pulses palpable bilaterally
   Labs / Radiology
   204 K/uL
   7.8 g/dL
   125 mg/dL
   0.6 mg/dL
   47 mEq/L
   3.6 mEq/L
   41 mg/dL
   87 mEq/L
   140 mEq/L
   26.8 %
   8.2 K/uL
        [image002.jpg]
                             [**2178-8-11**]  06:33 AM
                             [**2178-8-11**]  05:11 PM
                             [**2178-8-12**]  01:29 AM
                             [**2178-8-12**]  02:48 AM
                             [**2178-8-12**]  03:04 AM
                             [**2178-8-12**]  08:22 AM
                             [**2178-8-12**]  10:49 AM
                             [**2178-8-12**]  05:41 PM
                             [**2178-8-13**]  04:50 AM
                             [**2178-8-13**]  05:22 AM
   WBC
   11.1
   8.2
   Hct
   30.8
   26.8
   Plt
   263
   204
   Cr
   0.9
   0.6
   TCO2
   52
   45
   55
   56
   54
   50
   55
   53
   Glucose
   138
   125
   Other labs: PT / PTT / INR:14.7/43.6/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.4 mg/dL, Mg++:2.7 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on PCV+Assist 14/5 50%.
   - CXR essentially unchanged
   - continue albuterol and ipratroprium
   - I/O
 patient was positive 1.2L yesterday, goal of 1L negative for
   today.
   - Pt is paralyzed with cisatricurium in hopes of decreasing PIPs and
   allowing the lung to heal.
   -Goal paralysis TOF [**3-11**].  This is achieved by adjusting the
   cisatricurium gtt per protocol as ordered.
   -Will tolerate ph to 7.15 and pCO2 of 120
s with goal of lowest airway
   pressure possible while maintaining oxygenation.
   - Will d/c paralytic this afternoon and monitor status. With goal of
   weaning off vent and extubating.
   # Fevers/Leukocytosis
   - sputum cx
 yeast, GPC in pairs and clusters, GPR
   - pt was started on VAP coverage with vanc/zosyn (day 7 today).  Final
   dose today
   - afebrile overnight; WBC at 8.2
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   - pt currently paralyzed in an attempt to allow lungs to heal
   - Plan to keep paralyzed through this afternoon.
   #MAT?/Tachycardia:  Patient was tachycardic last night to 120
s.  Was
   given 5mg IV metoprolol and has been in NSR in the 80
s.  MAT/Atrial
   tachycardia may be precipitated by lung pathology or hyperthyroid (this
   is subclinical and less likely).
   # Constipation
   - on senna, colase, lactulose, soap suds enema, methylnaltrexone.
   - KUB showed stool backed up to the R colon; f/u CT scan shows no
   additional abd pathology
   - GI recommended checking TSH which was 0.25.  Constipation more likely
   in setting of hypothyroidism, while hyperthyroidism generates increased
   freq of bowel movements.
   - GI following
   #Hyperthyroid: Low TSH with normal T4 c/w subclinical hyperthyroid.  No
   treatment indicated.
   - TSH was 0.25
   - Free T4 was 6.5 (WNL).
   # Hx of Chronic DVT
   - switched to lovenox
   # Hypotension
   - pt did have some episodes on hypotension overnight
   - normotensive now
 continue to monitor
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 Currently holding tube feeds secondary to high residuals
   ICU Care
   Nutrition: Holding tube feeds [**3-9**] high residuals.
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT: Therapeutic lovenox
   Stress ulcer: Pantoprazole
   VAP:  on Vanc/Zosyn
   Comments:
   Communication: With pts brother  Comments:
   [**Name2 (NI) 129**] status: Full code
   Disposition: MICU

2178-08-14 05:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c paralytic
   - Decision made to place trach.  Attempting to get consent from Brother
   but cell phone appears to be d/c'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-13**] 08:00 PM
   Vancomycin - [**2178-8-14**] 03:46 AM
   Infusions:
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-13**] 08:00 PM
   Enoxaparin (Lovenox) - [**2178-8-13**] 11:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-14**] 05:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.2
C (97.1
   HR: 77 (75 - 85) bpm
   BP: 91/48(61) {84/47(59) - 110/65(77)} mmHg
   RR: 24 (22 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 147.6 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,409 mL
                                                                    391 mL
   PO:
             TF:
   IVF:
                                                                  2,409 mL
                                                                    331 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    400 mL
   Urine:
                                                                  1,640 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    769 mL
                                                                     -9 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PCV+Assist
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability, No Spon Resp
   PIP: 26 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.39/87.[**Numeric Identifier 274**]/108/50/22
   Ve: 9.3 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General
 Sedated and on ventilator
   Chest
 subcutaneous emphysema present across chest, down both arms, up
   cheeks to eye level, and into upper abdomen
   CV
 RRR; no murmurs, rubs, or gallops appreciated
   Resp
 clear to auscultation anteriorly
   Abdomen
 Obese, Soft/ND bowel sounds absent.
   Extremities
 R and DP pulses palpable bilaterally
   Labs / Radiology
   181 K/uL
   7.3 g/dL
   99 mg/dL
   0.6 mg/dL
   50 mEq/L
   3.5 mEq/L
   29 mg/dL
   88 mEq/L
   140 mEq/L
   24.6 %
   6.7 K/uL
        [image002.jpg]
                             [**2178-8-12**]  01:29 AM
                             [**2178-8-12**]  02:48 AM
                             [**2178-8-12**]  03:04 AM
                             [**2178-8-12**]  08:22 AM
                             [**2178-8-12**]  10:49 AM
                             [**2178-8-12**]  05:41 PM
                             [**2178-8-13**]  04:50 AM
                             [**2178-8-13**]  05:22 AM
                             [**2178-8-13**]  04:00 PM
                             [**2178-8-14**]  03:26 AM
   WBC
   11.1
   8.2
   6.7
   Hct
   30.8
   26.8
   24.6
   Plt
   263
   204
   181
   Cr
   0.9
   0.6
   0.6
   TCO2
   55
   56
   54
   50
   55
   53
   55
   Glucose
   138
   125
   99
   Other labs: PT / PTT / INR:14.1/44.8/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.7 mg/dL, Mg++:3.0 mg/dL, PO4:1.2 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - on PCV+Assist 14/5 50%.
   - CXR essentially unchanged
   - continue albuterol and ipratroprium
   - I/O
 patient was positive 1.2L yesterday, goal of 1L negative for
   today.
   - Pt is paralyzed with cisatricurium in hopes of decreasing PIPs and
   allowing the lung to heal.
   -Goal paralysis TOF [**3-11**].  This is achieved by adjusting the
   cisatricurium gtt per protocol as ordered.
   -Will tolerate ph to 7.15 and pCO2 of 120
s with goal of lowest airway
   pressure possible while maintaining oxygenation.
   - Will d/c paralytic this afternoon and monitor status. With goal of
   weaning off vent and extubating.
   # Fevers/Leukocytosis
   - sputum cx
 yeast, GPC in pairs and clusters, GPR
   - pt was started on VAP coverage with vanc/zosyn (day 7 today).  Final
   dose today
   - afebrile overnight; WBC at 8.2
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   - pt currently paralyzed in an attempt to allow lungs to heal
   - Plan to keep paralyzed through this afternoon.
   #MAT?/Tachycardia:  Patient was tachycardic last night to 120
s.  Was
   given 5mg IV metoprolol and has been in NSR in the 80
s.  MAT/Atrial
   tachycardia may be precipitated by lung pathology or hyperthyroid (this
   is subclinical and less likely).
   # Constipation
   - on senna, colase, lactulose, soap suds enema, methylnaltrexone.
   - KUB showed stool backed up to the R colon; f/u CT scan shows no
   additional abd pathology
   - GI recommended checking TSH which was 0.25.  Constipation more likely
   in setting of hypothyroidism, while hyperthyroidism generates increased
   freq of bowel movements.
   - GI following
   #Hyperthyroid: Low TSH with normal T4 c/w subclinical hyperthyroid.  No
   treatment indicated.
   - TSH was 0.25
   - Free T4 was 6.5 (WNL).
   # Hx of Chronic DVT
   - switched to lovenox
   # Hypotension
   - pt did have some episodes on hypotension overnight
   - normotensive now
 continue to monitor
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 Currently holding tube feeds secondary to high residuals
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT: Boots, LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-15 05:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2178-8-14**] 02:00 PM
    Trach and Peg.
 OR RECEIVED - At [**2178-8-14**] 04:50 PM
   - trached and peg'ed
   - can restart lovenox and use g tube in AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-13**] 08:00 PM
   Vancomycin - [**2178-8-14**] 03:46 AM
   Piperacillin - [**2178-8-14**] 12:05 PM
   Erythromycin - [**2178-8-15**] 12:00 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 12 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-15**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.5
   HR: 81 (74 - 94) bpm
   BP: 92/54(68) {83/47(59) - 115/65(80)} mmHg
   RR: 24 (22 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145.2 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  1,474 mL
                                                                    356 mL
   PO:
             TF:
   IVF:
                                                                  1,294 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  1,395 mL
                                                                     50 mL
   Urine:
                                                                  1,395 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     79 mL
                                                                    306 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   Compliance: 21.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/70/146/46/20
   Ve: 11 L/min
   PaO2 / FiO2: 292
   Physical Examination
   General
 Sedated and on ventilator
   Chest
 subcutaneous emphysema seems improved across abdomen and face
   but worse across chest
   CV
 faint heart sounds; no murmurs, rubs, or gallops appreciated
   Resp
 harsh breath sounds ?ronchi
   Abdomen
 obese, [**Hospital1 1628**] than previous, bowel sounds present
   Extremities
 slight edema noted in feet bilaterally
   Labs / Radiology
   185 K/uL
   7.1 g/dL
   99 mg/dL
   0.5 mg/dL
   46 mEq/L
   3.5 mEq/L
   20 mg/dL
   92 mEq/L
   142 mEq/L
   24.3 %
   8.7 K/uL
        [image002.jpg]
                             [**2178-8-12**]  10:49 AM
                             [**2178-8-12**]  05:41 PM
                             [**2178-8-13**]  04:50 AM
                             [**2178-8-13**]  05:22 AM
                             [**2178-8-13**]  04:00 PM
                             [**2178-8-14**]  03:26 AM
                             [**2178-8-14**]  03:42 AM
                             [**2178-8-14**]  05:29 PM
                             [**2178-8-14**]  11:30 PM
                             [**2178-8-15**]  02:42 AM
   WBC
   8.2
   6.7
   8.7
   Hct
   26.8
   24.6
   25.5
   24.3
   Plt
   [**Telephone/Fax (3) 7214**]
   Cr
   0.6
   0.6
   0.5
   TCO2
   50
   55
   53
   55
   55
   50
   Glucose
   125
   99
   99
   Other labs: PT / PTT / INR:14.1/44.8/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.8 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - trach and peg yesterday
 on CMV 450x24 PEEP 5 FiO2 50%
   - CXR essentially unchanged
   - continue albuterol and ipratroprium
   - I/O
 patient was positive 79 mL yesterday
   - will wean versed and fentanyl
   - will hold off on weaning patient
s ventilation at this point until
   his sedation has been weaned successfully
   # Fevers/Leukocytosis
   - pt completed 7-day course of vanc/zosyn for VAP several days ago
   - WBC still WNL and pt still afebrile
   - will obtain repeat sputum cx to ensure that it has improved
   - will continue to monitor WBC and look for any signs of clinical
   deterioration
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, bisacodyl
   - GI following
 recommends following daily KUBs, giving daily fleet
   and gastrograffin enemas, and erythromycin
   - pt started on erythromycin 250 m g IV TID and will give GoLytely
   today
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - on lovenox
   - lovenox was held yesterday [**3-9**] procedure
 will restart today
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 will restart TF
s it pt moves bowels soon
 if not, will start
   TPN
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   CRITICAL CARE:
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Mr [**Known lastname 6949**] has continued problems with constipation ( since ICU admit)
   and has not stooled for over a week. He remains stable s/p recent
   trach/peg. Sedation is being weaned and we will transition to PSV/CPAP
   but keep PEEP no higher than [**6-12**] ( barotrauma). He will need golytely
   prep today and we ill hold off on Tube feeds till he has started to
   have BM. Possible use of neostigmine if still refractory to golytley
   prep. TPN a consideration if tube feed residuals are high.
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 715**]
   [**Location (un) 3500**], KS-B23
   [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2178-8-15**] 16:02 ------

2178-08-16 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**8-15**]
   - briefly switched to PS, but ABG not ideal --> back to AC
   - had his first real BM in 2 weeks
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2178-8-13**] 08:00 PM
   Vancomycin - [**2178-8-14**] 03:46 AM
   Piperacillin - [**2178-8-14**] 12:05 PM
   Erythromycin - [**2178-8-16**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Albuterol Inhaler
   Artificial Tear Ointment
   Bisacodyl
   Chlorhexidine Gluconate 0.12% Oral Docusate Sodium (Liquid)
   Enoxaparin Sodium
   Fentanyl Citrate
   Insulin
   Ipratropium Bromide MDI
   Lactulose
   Midazolam
   Pantoprazole
   Senna
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-16**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.1
C (98.7
   HR: 83 (80 - 100) bpm
   BP: 89/52(65) {82/45(57) - 114/65(81)} mmHg
   RR: 22 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 144.7 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  4,205 mL
                                                                    539 mL
   PO:
             TF:
   IVF:
                                                                  1,560 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                    860 mL
                                                                    350 mL
   Urine:
                                                                    860 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,345 mL
                                                                    189 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 477 (387 - 477) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.36/90.[**Numeric Identifier 433**]/129/42/20
   Ve: 6.1 L/min
   PaO2 / FiO2: 258
   Physical Examination
   General
 Sedated and on ventilator
   Chest
 subcutaneous emphysema seems improved across abdomen and face
   but worse across chest
   CV
 faint heart sounds; no murmurs, rubs, or gallops appreciated
   Resp
 harsh breath sounds ?ronchi
   Abdomen
 obese, [**Hospital1 1628**] than previous, bowel sounds present
   Extremities
 slight edema noted in feet bilaterally
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   144 K/uL
   6.9 g/dL
   98 mg/dL
   0.5 mg/dL
   42 mEq/L
   2.9 mEq/L
   18 mg/dL
   97 mEq/L
   149 mEq/L
   23.3 %
   8.3 K/uL
        [image002.jpg]
                             [**2178-8-13**]  04:00 PM
                             [**2178-8-14**]  03:26 AM
                             [**2178-8-14**]  03:42 AM
                             [**2178-8-14**]  05:29 PM
                             [**2178-8-14**]  11:30 PM
                             [**2178-8-15**]  02:42 AM
                             [**2178-8-15**]  08:13 AM
                             [**2178-8-15**]  02:21 PM
                             [**2178-8-16**]  03:02 AM
                             [**2178-8-16**]  03:20 AM
   WBC
   6.7
   8.7
   8.3
   Hct
   24.6
   25.5
   24.3
   23.3
   Plt
   181
   185
   144
   Cr
   0.6
   0.5
   0.5
   TCO2
   55
   55
   50
   47
   49
   53
   Glucose
   99
   99
   98
   Other labs: PT / PTT / INR:14.1/44.8/1.2, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - trach and peg Friday
 on CMV 450x24 PEEP 5 FiO2 50%
   - CXR essentially unchanged
   - continue albuterol and ipratroprium
   - I/O
 patient was positive 3,345 mL yesterday
   - will wean versed and fentanyl (20% each day)
   - will hold off on weaning patient
s ventilation at this point until
   his sedation has been weaned successfully
   # Fevers/Leukocytosis
   - pt completed 7-day course of vanc/zosyn for VAP several days ago
   - WBC still WNL and pt still afebrile
   - will continue to monitor WBC and look for any signs of clinical
   deterioration
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, bisacodyl
   - GI following
 recommends following daily KUBs, giving daily fleet
   and gastrograffin enemas, and erythromycin
   - pt started on erythromycin 250 m g IV TID and will give GoLytely
   today
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - on lovenox
   - lovenox was held yesterday [**3-9**] procedure
 will restart today
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 will restart TF
s it pt moves bowels soon
 if not, will start
   TPN
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer:
   VAP:  HOB>30; Oral Care
   Comments:
   Communication: With Brother Comments:
   [**Name2 (NI) 129**] status: Full code
   Disposition: MICU

2178-08-17 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2178-8-14**] 12:05 PM
   Erythromycin - [**2178-8-16**] 12:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2178-8-16**] 11:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-17**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.6
C (99.6
   HR: 87 (82 - 100) bpm
   BP: 91/51(65) {76/44(56) - 103/63(78)} mmHg
   RR: 23 (20 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 144.7 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  1,387 mL
                                                                    385 mL
   PO:
             TF:
                                                                    152 mL
                                                                    137 mL
   IVF:
                                                                  1,180 mL
                                                                    248 mL
   Blood products:
   Total out:
                                                                    985 mL
                                                                    105 mL
   Urine:
                                                                    985 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    402 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 22
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 25 cmH2O
   Plateau: 26 cmH2O
   SpO2: 98%
   ABG: ///42/
   Ve: 10.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   127 K/uL
   7.3 g/dL
   109 mg/dL
   0.6 mg/dL
   42 mEq/L
   3.6 mEq/L
   20 mg/dL
   99 mEq/L
   149 mEq/L
   24.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2178-8-14**]  03:42 AM
                             [**2178-8-14**]  05:29 PM
                             [**2178-8-14**]  11:30 PM
                             [**2178-8-15**]  02:42 AM
                             [**2178-8-15**]  08:13 AM
                             [**2178-8-15**]  02:21 PM
                             [**2178-8-16**]  03:02 AM
                             [**2178-8-16**]  03:20 AM
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
   WBC
   8.7
   8.3
   7.1
   Hct
   25.5
   24.3
   23.3
   24.3
   Plt
   185
   144
   127
   Cr
   0.5
   0.5
   0.6
   0.6
   TCO2
   55
   50
   47
   49
   53
   Glucose
   99
   98
   105
   109
   Other labs: PT / PTT / INR:15.3/47.8/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.6 mg/dL, Mg++:2.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - trach and peg Friday
 on CMV 450x24 PEEP 5 FiO2 50%
   - continue albuterol and ipratroprium
   - I/O
 patient was positive 420 yesterday
   - will wean versed and fentanyl (20% each day)
   - will hold off on weaning patient
s ventilation at this point until
   his sedation has been weaned successfully
   # Fevers/Leukocytosis
   - pt completed 7-day course of vanc/zosyn for VAP several days ago
   - WBC still WNL and pt still afebrile
   - will continue to monitor WBC and look for any signs of clinical
   deterioration
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 essentially unchanged today
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, bisacodyl
   - GI following
 recommends following daily KUBs, giving daily fleet
   and gastrograffin enemas, and erythromycin
   - pt started on erythromycin 250 m g IV TID and will give GoLytely
   today
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - on lovenox
   - lovenox was held yesterday [**3-9**] procedure
 will restart today
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
   - resolved with free water flushes.
   - no acute issues
   # FEN
 will restart TF
s it pt moves bowels soon
 if not, will start
   TPN
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-16**] 02:20 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Arterial Line - [**2178-8-5**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-18 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2178-8-17**] 12:30 PM
 BLOOD CULTURED - At [**2178-8-17**] 03:00 PM
   2 sets
 SPUTUM CULTURE - At [**2178-8-17**] 03:00 PM
 URINE CULTURE - At [**2178-8-17**] 03:00 PM
 STOOL CULTURE - At [**2178-8-17**] 03:00 PM
   c-diff
   - changed to pressure supoort
   - weaned sedation
   - spiked temp 100.8 so pan cultured
   - due to spike, did not get PIC
   - repleated with free water and increased free water flushes to replete
   free water deficit and treat hypernatremia
   - ?d/c
d aline
   - ?IR placed PICC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Erythromycin - [**2178-8-16**] 12:00 AM
   Vancomycin - [**2178-8-17**] 08:26 PM
   Cefipime - [**2178-8-18**] 04:06 AM
   Infusions:
   Fentanyl - 60 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-17**] 08:26 PM
   Enoxaparin (Lovenox) - [**2178-8-17**] 11:48 PM
   Other medications:
   1. 2. 3. 4. Acetaminophen 5. Albuterol Inhaler 6. Artificial Tear
   Ointment 7. Bisacodyl 8. CefePIME
   9. CefePIME 10. Chlorhexidine Gluconate 0.12% Oral Rinse 11. Docusate
   Sodium (Liquid) 12. Enoxaparin Sodium
   13. Fentanyl Citrate 14. 15. 16. 17. 18. Insulin 19. Ipratropium
   Bromide MDI 20. Lactulose
   21. Midazolam 22. Pantoprazole 23. Potassium Chloride 24. Senna 25.
   Sodium Chloride 0.9% Flush
   26. Sodium Chloride 0.9% Flush 27. Vancomycin 28. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-18**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37
C (98.6
   HR: 87 (84 - 105) bpm
   BP: 97/49(60) {97/44(56) - 115/58(69)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 145 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,976 mL
                                                                  1,038 mL
   PO:
             TF:
                                                                    729 mL
                                                                    436 mL
   IVF:
                                                                  1,807 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                    948 mL
                                                                    300 mL
   Urine:
                                                                    948 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,028 mL
                                                                    738 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 491 (417 - 491) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///42/
   Ve: 8.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   147 K/uL
   6.7 g/dL
   118 mg/dL
   0.7 mg/dL
   42 mEq/L
   4.0 mEq/L
   21 mg/dL
   101 mEq/L
   145 mEq/L
   22.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2178-8-14**]  05:29 PM
                             [**2178-8-14**]  11:30 PM
                             [**2178-8-15**]  02:42 AM
                             [**2178-8-15**]  08:13 AM
                             [**2178-8-15**]  02:21 PM
                             [**2178-8-16**]  03:02 AM
                             [**2178-8-16**]  03:20 AM
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
   WBC
   8.7
   8.3
   7.1
   6.3
   Hct
   25.5
   24.3
   23.3
   24.3
   22.9
   Plt
   185
   144
   127
   147
   Cr
   0.5
   0.5
   0.6
   0.6
   0.7
   TCO2
   50
   47
   49
   53
   Glucose
   99
   98
   105
   109
   118
   Other labs: PT / PTT / INR:14.9/52.2/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.5 mg/dL
   [**8-17**] sputum OP flora
   [**8-17**] cdiff pending
   [**8-17**] blood and urine pending
   [**8-18**] CXR
   [**8-17**] CXR:
   Heterogeneous opacification primarily of the lower lungs has improved
   since
   [**8-11**], stable since [**8-16**] probably residual edema. Subcutaneous
   emphysema
   in the chest wall and neck has improved similarly since [**8-11**], not
   appreciably since [**8-16**]. Pneumothorax if any is minimal. Heart is
   probably
   not enlarged. Lung volumes remain quite small. No large pleural
   effusion.
   Tracheostomy tube in standard placement. Right supraclavicular central
   venous
   line ends in the region of superior cavoatrial junction.
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
   - s/p trach and peg
   - continue albuterol and ipratroprium
   - will wean versed and fentanyl (20% each day)
   - will hold off on weaning patient
s ventilation at this point until
   his sedation has been weaned successfully
   # Fevers/Leukocytosis
   - pt completed 7-day course of vanc/zosyn for VAP several days ago
   - WBC still WNL and pt still afebrile
   - will continue to monitor WBC and look for any signs of clinical
   deterioration
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 seems improving
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, bisacodyl
   - pt had a bowel movement
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - on lovenox
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
  Pt [**Name (NI) **] is 149. will calculate free water deficit and
   replete with free water flushes and free water via IV.
   -- no acute issues
   # FEN
 restarted TPN based on nutrition recs
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-18**] 02:13 AM 60 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-19 07:05:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 NASAL SWAB - At [**2178-8-18**] 12:31 PM
   routine Tuesday MRSA swab
   - PIC held for temperature
   - CM to screen for rehab
   -Temp up yesterday and we have restarted Cefepime and Vanco
   -100cc bright red partially clotted blood suctioned from trach tube,
   started running clear; H/H sent and stable, T&C
   -weaned entirely of sedation so put in for Fentanyl patch due to
   grimacing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-18**] 08:28 PM
   Cefipime - [**2178-8-19**] 04:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-18**] 08:29 PM
   Fentanyl - [**2178-8-18**] 10:28 PM
   Midazolam (Versed) - [**2178-8-18**] 10:29 PM
   Enoxaparin (Lovenox) - [**2178-8-19**] 12:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-19**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 102 (80 - 111) bpm
   BP: 103/60(70) {84/45(52) - 121/64(75)} mmHg
   RR: 30 (16 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 147.2 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  4,009 mL
                                                                  1,191 mL
   PO:
             TF:
                                                                  1,669 mL
                                                                    564 mL
   IVF:
                                                                  1,465 mL
                                                                    227 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    390 mL
   Urine:
                                                                  1,155 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,854 mL
                                                                    801 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (410 - 570) mL
   PS : 15 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///40/
   Ve: 11.3 L/min
   Physical Examination
   GEN: Pt looks slightly uncomfortable, more alert than previously
   Resp: bilateral breath sounds
   CV: RRR, no m,/r/g
   Abd: soft, obese, NT, ND, +BS
   Peripheral Vascular: 2+ radial pulses, warm extremeties
   Neurologic: Pt does not respond to questions/commands but does seem
   more alert than previously
   Labs / Radiology
   154 K/uL
   6.8 g/dL
   100 mg/dL
   0.7 mg/dL
   40 mEq/L
   4.2 mEq/L
   23 mg/dL
   99 mEq/L
   145 mEq/L
   23.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2178-8-15**]  02:42 AM
                             [**2178-8-15**]  08:13 AM
                             [**2178-8-15**]  02:21 PM
                             [**2178-8-16**]  03:02 AM
                             [**2178-8-16**]  03:20 AM
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
   WBC
   8.7
   8.3
   7.1
   6.3
   7.2
   Hct
   24.3
   23.3
   24.3
   22.9
   24.8
   23.4
   Plt
   185
   144
   127
   147
   154
   Cr
   0.5
   0.5
   0.6
   0.6
   0.7
   0.7
   TCO2
   47
   49
   53
   Glucose
   99
   98
   105
   109
   118
   100
   Other labs: PT / PTT / INR:14.9/52.2/1.3, Amylase / Lipase:/17,
   Differential-Neuts:68.4 %, Lymph:22.8 %, Mono:7.4 %, Eos:1.2 %, Lactic
   Acid:0.7 mmol/L, Ca++:8.1 mg/dL, Mg++:2.8 mg/dL, PO4:2.5 mg/dL
   Imaging: [**2178-8-18**] CXR: As compared to the previous radiograph, there is
   no relevant
   change. The tracheostomy tube and the right-sided central venous access
   line
   are in identical position.
   Microbiology: Urine culture: yeast
   BC [**8-17**]: pending
   [**8-17**] sputum culture: oropharyngeal flora, sparse
   Clostridium negative
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure
 with trach and peg
   - continue albuterol and ipratroprium
   - pt off sedation so will try to wean off ventilation
   - Consider increasing fentanyl patch
   # Fevers/Leukocytosis
   - pt completed 7-day course of vanc/zosyn for VAP several days ago
   - with fever last night started on Vanc/Cefepime though WBC decreating,
   f/u ctxs and consider d/c of antibiotics if no growth
   - will continue to monitor WBC and look for any signs of clinical
   deterioration
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 seems improving
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, bisacodyl
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - on lovenox
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
  Pt [**Name (NI) **] is improved at 145 today.
   # FEN
 tube feeds through PEG
   ICU Care
   Nutrition: tube feeds
   Replete with Fiber (Full) - [**2178-8-19**] 05:28 AM 80 mL/hour
   Glycemic Control:  good
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending above

2178-08-20 06:53:00 Physician Resident Progress Note
Chief Complaint: respiratory failure
   24 Hour Events:
 URINE CULTURE - At [**2178-8-19**] 10:20 AM
 BLOOD CULTURED - At [**2178-8-19**] 10:30 AM
 BRONCHOSCOPY - At [**2178-8-19**] 10:35 AM
 BLOOD CULTURED - At [**2178-8-20**] 05:23 AM
   This AM, pt had temp spike of 100.8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-19**] 08:28 PM
   Cefipime - [**2178-8-20**] 04:03 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-19**] 08:28 PM
   Fentanyl - [**2178-8-20**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-20**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 107 (85 - 115) bpm
   BP: 84/50(58) {84/39(53) - 112/69(77)} mmHg
   RR: 32 (22 - 37) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 147.2 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  3,361 mL
                                                                    654 mL
   PO:
             TF:
                                                                  1,763 mL
                                                                    536 mL
   IVF:
                                                                    798 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  1,255 mL
                                                                    285 mL
   Urine:
                                                                  1,255 mL
                                                                    285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,106 mL
                                                                    369 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 552 (282 - 686) mL
   PS : 15 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 22 cmH2O
   SpO2: 100%
   ABG: ///39/
   Ve: 16.6 L/min
   Physical Examination
   GEN: patient is more responsive, he has occasional grimace
   CV: RRR, no m/r/g appreciated
   Resp: trach, no bleeding around trach, increased/murky secretions in
   trach tube, tachypnic, slight left sided wheeze
   Abd: pt has grimace/tenderness when lower abdomen palpated, hypoactive
   bowel sounds, ND
   Peripheral Vascular: warm extremities
   Skin:  warm, slightly sweaty
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   7.5 g/dL
   155 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.2 mEq/L
   32 mg/dL
   99 mEq/L
   144 mEq/L
   26.7 %
   5.8 K/uL
        [image002.jpg]
                             [**2178-8-15**]  02:21 PM
                             [**2178-8-16**]  03:02 AM
                             [**2178-8-16**]  03:20 AM
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
   WBC
   8.3
   7.1
   6.3
   7.2
   5.8
   Hct
   23.3
   24.3
   22.9
   24.8
   23.4
   24.6
   26.7
   Plt
   144
   127
   147
   154
   151
   Cr
   0.5
   0.6
   0.6
   0.7
   0.7
   0.8
   TCO2
   49
   53
   Glucose
   98
   105
   109
   118
   100
   155
   Other labs: PT / PTT / INR:14.0/37.5/1.2, ALT / AST:16/42, Alk Phos / T
   Bili:44/0.4, Amylase / Lipase:196/149, Differential-Neuts:88.3 %,
   Lymph:7.9 %, Mono:1.7 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.5 mg/dL, PO4:1.0 mg/dL
   Imaging: CXR [**8-19**] not acute changes
   Microbiology: Blood, urine cultues sent [**8-19**] still pending. Repeat
   blood cultures for [**8-20**] also pending. Stool culture for C.diff
   negative.
   Assessment and Plan
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure, currently with trach and peg. Patient
   bloody secretions resolved, but patient still has increased murky
   secretions.  Bronchoscopy done yesterday and no source of blood found
   - continue albuterol and ipratroprium
   - Will hold off ventilation wean for now
   - Will monitor pain on fentanyl patch with fentanyl IV as needed
   # Fevers/Leukocytosis
   - pt completed 7-day course of vanc/zosyn for VAP several days ago. New
   CXR not suggestive of recurrence.
   - with fever last night started on Vanc/Cefepime
   - WBC seem to be trending down
   - AST, amylase, lipase elevated. Will get RUQ U/S
   - Follow cultures
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 seems improving
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
   - on senna, colase, lactulose, bisacodyl
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - was  on lovenox, but recently stopped [**3-9**] trach bleed
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
  Pt [**Name (NI) **] is improved at 144 today.
   # FEN
 tube feeds through PEG, replete phos
   ICU Care
   Nutrition: Tube feed
   Replete with Fiber (Full) - [**2178-8-20**] 02:20 AM 80 mL/hour
   Glycemic Control:  good
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   Prophylaxis:
   DVT: lovenox d/c [**3-9**] to recent trach bleed. Will watch for rebleed and
   restart later
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending above

2178-08-21 06:24:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2178-8-20**] 02:00 PM
 SPUTUM CULTURE - At [**2178-8-20**] 04:46 PM
 FEVER - 101.3
F - [**2178-8-20**] 04:00 PM
   - Pt got RUQ U/S but tech said it was poor study so got CT abd/pelvis.
   RUQ prelim read was not concerning.
   - Got tylenol for spikes
   - CT radiologist called and said liver, gallbladder, pancreas all
   looked ok. Limitations to study given his size. However, lots of stool
   and his illiac muscle looks large. Concern for bleed? Wondering if ever
   had instrumentation.
   - This AM, patient continues to seem more alert. Nods head when he is
   asked if he is in pain, but after several questions,  unable to
   localize pain
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-20**] 08:45 AM
   Cefipime - [**2178-8-20**] 04:20 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-8-20**] 08:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-21**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 103 (98 - 113) bpm
   BP: 119/64(76) {84/46(56) - 121/70(78)} mmHg
   RR: 32 (23 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 147.2 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  4,256 mL
                                                                    734 mL
   PO:
                                                                    540 mL
             TF:
                                                                  1,551 mL
                                                                    468 mL
   IVF:
                                                                  1,715 mL
                                                                    207 mL
   Blood products:
   Total out:
                                                                  1,092 mL
                                                                    440 mL
   Urine:
                                                                  1,092 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,164 mL
                                                                    296 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 617 (447 - 853) mL
   PS : 15 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: ///39/
   Ve: 15.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese, occasional grimmace
   Head, Ears, Nose, Throat: Normocephalic, trach tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), warm extremeties
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   bilaterally, Wheezes : at trach site and upper left chest)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, hypoactive
   bowel sounds
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: weakness x 4
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli, No(t)
   Oriented (to): , Movement: Not assessed, Tone: Not assessed, tries to
   respond, but does not fully complete task
   Labs / Radiology
   161 K/uL
   7.3 g/dL
   160 mg/dL
   1.0 mg/dL
   39 mEq/L
   3.8 mEq/L
   37 mg/dL
   96 mEq/L
   142 mEq/L
   24.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2178-8-16**]  03:02 AM
                             [**2178-8-16**]  03:20 AM
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
                             [**2178-8-21**]  02:54 AM
   WBC
   8.3
   7.1
   6.3
   7.2
   5.8
   7.0
   Hct
   23.3
   24.3
   22.9
   24.8
   23.4
   24.6
   26.7
   24.4
   Plt
   144
   127
   147
   154
   151
   161
   Cr
   0.5
   0.6
   0.6
   0.7
   0.7
   0.8
   1.0
   TCO2
   53
   Glucose
   98
   105
   109
   118
   100
   155
   160
   Other labs: PT / PTT / INR:13.5/35.1/1.2, ALT / AST:15/38, Alk Phos / T
   Bili:43/0.4, Amylase / Lipase:268/225, Differential-Neuts:88.3 %,
   Lymph:7.9 %, Mono:1.7 %, Eos:1.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.6 mg/dL, PO4:1.2 mg/dL
   Imaging: CT abdomen pelvis:
   Enlargement of the right iliacus muscle, probably related to hematoma
   formation. There is no evidence for active or arterial extravasation
   within
   this hematoma. Would recommend clinical correlation with
   instrumentation of the patient's right groin. No other hematomas
   identified
   RUQ U/S: No gallstones. No sludge identified on this ultrasound. No
   evidence of cholecystitis and no biliary dilatation seen.
   Microbiology: Sputum culture shows: GRAM POSITIVE COCCI. IN PAIRS.
   Blood cultures from [**8-17**], [**8-19**], [**8-20**] show no growth to date
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure, currently with trach and peg
   - continue albuterol and ipratroprium
   - Will monitor pain on fentanyl patch with fentanyl IV as needed
   - Will try trach collar today
   # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology at
   this time.
   - pt completed 7-day course of vanc/zosyn for VAP several days ago. New
   CXR not suggestive of recurrence.
   - on Vanc/Cefepime day [**6-11**]. Vanc trough > 20 so will decrease dose to
   750mg [**Hospital1 **].
   - amylase, lipase trending up. RUQ and CT did not show abnormality in
   liver, gallbladder, or pancrease.  However, full of stool
   - Follow cultures and amylase/lipase/LFTs
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
 seems improving
   - minimize positive pressure if possible
   #MAT?/Tachycardia
   - no acute issues
   # Constipation
  CT full of stool
   - on senna, colase, bisacodyl
   - Added miralax and increased frequency of lactulose last night
   - Will do tap water enema today and escalate if needed
   - Will decrease frequency of fentanyl IV if possible to help with
   stooling
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - was on lovenox, but recently stopped [**3-9**] trach bleed. Will restart
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
  Pt [**Name (NI) **] is improved at 142 today.
   # FEN
 tube feeds through PEG, replete phos
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-21**] 04:17 AM 80 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   18 Gauge - [**2178-8-20**] 05:30 PM
   Prophylaxis:
   DVT: Restarted lovenox
   Stress ulcer: Pantoprozole
   VAP:
   Comments:
   Communication:  Comments: Socail worker spoke to family
   Code status: Full code
   Disposition: Will discuss with case manager if needs PIC line.

2178-08-22 07:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.6
F - [**2178-8-21**] 04:00 PM
   [**8-21**]
   -pt more alert
   -restarted Lovenox
   -failed trach mask trial and very uncomfortable, dysynchronous with
   trach, so placed back on AC and started Fentanyl and Versed drip
   -spiked T to 101.6-> sent blood ctx, urine ctx, started Flagyll since
   fever source remains obscure
   -still no stool after attempt with water, enema, and disimpaction
   -No evidence of pancreatitis or abscess on CT
   -note, [**Doctor First Name 430**] states he does not need line when he goes
   -CBC with diff showed significant left shift with 13 bands
   -repleted Phos X4pkts (may need standing [**Hospital1 **] dosing for a couple of
   days)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-21**] 10:00 PM
   Metronidazole - [**2178-8-22**] 02:00 AM
   Cefipime - [**2178-8-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Albuterol Inhaler Bisacodyl
   CefePIME
   Docusate Sodium
   Enoxaparin Sodium
   Fentanyl Citrate
   Insulin
   Ipratropium Bromide MDI
   Lactulose
   MetRONIDAZOLE (FLagyl)
   Midazolam
   Pantoprazole
   Polyethylene Glycol
   Senna
   Vancomycin
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-22**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.9
C (100.3
   HR: 103 (100 - 123) bpm
   BP: 106/56(67) {99/51(64) - 144/79(88)} mmHg
   RR: 28 (25 - 40) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150.5 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,609 mL
                                                                    349 mL
   PO:
             TF:
                                                                  1,344 mL
   IVF:
                                                                    845 mL
                                                                    229 mL
   Blood products:
   Total out:
                                                                  1,341 mL
                                                                    350 mL
   Urine:
                                                                  1,341 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 457 (457 - 584) mL
   PS : 15 cmH2O
   RR (Set): 22
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: ///38/
   Ve: 17.3 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   216 K/uL
   6.7 g/dL
   118 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.4 mEq/L
   44 mg/dL
   95 mEq/L
   140 mEq/L
   22.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
                             [**2178-8-21**]  02:54 AM
                             [**2178-8-21**]  08:06 PM
                             [**2178-8-22**]  03:18 AM
   WBC
   7.1
   6.3
   7.2
   5.8
   7.0
   5.4
   6.5
   Hct
   24.3
   22.9
   24.8
   23.4
   24.6
   26.7
   24.4
   23.2
   22.3
   Plt
   127
   147
   154
   151
   161
   199
   216
   Cr
   0.6
   0.6
   0.7
   0.7
   0.8
   1.0
   1.4
   Glucose
   105
   109
   118
   100
   155
   160
   118
   Other labs: PT / PTT / INR:14.9/45.0/1.3, ALT / AST:16/39, Alk Phos / T
   Bili:43/0.4, Amylase / Lipase:356/239, Differential-Neuts:60.0 %,
   Band:13.0 %, Lymph:7.0 %, Mono:15.0 %, Eos:3.0 %, Lactic Acid:0.7
   mmol/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure, currently with trach and peg
   - continue albuterol and ipratroprium
   - Will monitor discomfort; currently treated with fentanyl patch with
   fentanyl IV as needed
   - Will try trach collar again today
   # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology at
   this time.
   - pt completed 7-day course of vanc/zosyn for VAP several days ago. New
   CXR not suggestive of recurrence.
   - on Vanc/Cefepime day [**7-12**].
   - amylase, lipase trending up. RUQ u/s and CT did not show abnormality
   in liver, gallbladder, or pancrease.  However, full of stool
   - Follow cultures and amylase/lipase/LFTs
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
improving clincially
   - minimize positive pressure if possible
   # Constipation
  CT showed stool throughout colon
   - on senna, colase, bisacodyl
   - Added miralax and increased frequency of lactulose last night
   - Will escalate regimen today if needed
   #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - was on lovenox, but recently stopped [**3-9**] trach bleed. Restarted on
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # Hypernatremia
  Pt [**Name (NI) **] is improved at 142 today.
   # FEN
 tube feeds through PEG, replete phos
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   18 Gauge - [**2178-8-21**] 11:13 PM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:  HOB>30, oral care
   Comments:
   Communication: with pts Brother(HCP) Comments:
   Code status: Full code
   Disposition: MICU

2178-08-22 13:37:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with morbid obesity, OSA, severe emphysema admitted with
   acute respiratory failure related to particulant injury. INitilaly very
   difficult to ventilate requiring paralysis, ventilation course also
   notable for SQ emphysema
   24 Hour Events:
 FEVER - 101.6
F - [**2178-8-21**] 04:00 PM
   *Failed TC trial
   *Fever spike- started on flagyl for presumptive CDiff
   *Multiple attempted disimpactions and enema's for bowels
   *CT with no evidence of pancreatitis
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2178-8-22**] 04:00 AM
   Vancomycin - [**2178-8-22**] 07:45 AM
   Metronidazole - [**2178-8-22**] 10:45 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-22**] 08:00 AM
   Other medications:
   alb/atrov, SSI, colace, senna, dulcoolax, miralax, lactulose, lovenox,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-22**] 01:37 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.7
C (99.8
   HR: 102 (102 - 123) bpm
   BP: 100/47(58) {84/41(52) - 144/79(88)} mmHg
   RR: 26 (26 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 150.5 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,609 mL
                                                                    925 mL
   PO:
             TF:
                                                                  1,344 mL
   IVF:
                                                                    845 mL
                                                                    605 mL
   Blood products:
   Total out:
                                                                  1,341 mL
                                                                    610 mL
   Urine:
                                                                  1,341 mL
                                                                    610 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,269 mL
                                                                    315 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 530 (457 - 640) mL
   PS : 8 cmH2O
   RR (Set): 22
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 13 cmH2O
   SpO2: 99%
   ABG: ///38/
   Ve: 19.5 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Normocephalic, No(t) Poor dentition,
   No(t) Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), No(t) S3,
   No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: ), PEG
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   6.7 g/dL
   216 K/uL
   118 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.4 mEq/L
   44 mg/dL
   95 mEq/L
   140 mEq/L
   22.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2178-8-16**]  05:24 PM
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
                             [**2178-8-21**]  02:54 AM
                             [**2178-8-21**]  08:06 PM
                             [**2178-8-22**]  03:18 AM
   WBC
   7.1
   6.3
   7.2
   5.8
   7.0
   5.4
   6.5
   Hct
   24.3
   22.9
   24.8
   23.4
   24.6
   26.7
   24.4
   23.2
   22.3
   Plt
   127
   147
   154
   151
   161
   199
   216
   Cr
   0.6
   0.6
   0.7
   0.7
   0.8
   1.0
   1.4
   Glucose
   105
   109
   118
   100
   155
   160
   118
   Other labs: PT / PTT / INR:14.9/45.0/1.3, ALT / AST:16/39, Alk Phos / T
   Bili:43/0.4, Amylase / Lipase:356/239, Differential-Neuts:60.0 %,
   Band:13.0 %, Lymph:7.0 %, Mono:15.0 %, Eos:3.0 %, Lactic Acid:0.7
   mmol/L, Ca++:8.2 mg/dL, Mg++:2.8 mg/dL, PO4:3.2 mg/dL
   Microbiology: Blood/urine/sputum cultures: NGTD
   Cdiff pending
   Assessment and Plan
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 yo male w prolonged respiratory failure following particulant injury
   and VAP
   1. Resp failure: s/p particulant injury with acute respiratory failure.
   Currently on PSV - will wean ventilator as needed
   *Increase PS to 10 given tachypnea
   *Failed TC earlier, will hold on further attempts for today
   2. Fevers: Remains febrile on Vanc/Cefipime with negative cultures;
   flagyl recently added
   *Check CT sinus; Blood cultures from line
   3. ARF: Increase in Cr. Got CT 2 days ago, so possible component of
   contrast-induced nephropahty. Plan check urine 'lytes, urine eo's,
   hydrate with IVF and re-check renal function; consider US if renal
   fuction worsens
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   18 Gauge - [**2178-8-21**] 11:13 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-08-23 07:51:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
   - Called to bedside for rash.  Flat erythematous rash over torso and
   extremites without mucosal involvement.  Likely drug rash.  Will check
   diff with AM labs.  Will not d/c any abx at this time.
   - Vanco: 34.9 so held last nights dose. Getting another trough this AM
   before AM dose
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-22**] 07:45 AM
   Metronidazole - [**2178-8-23**] 02:10 AM
   Cefipime - [**2178-8-23**] 04:09 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-22**] 10:35 PM
   Enoxaparin (Lovenox) - [**2178-8-23**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-23**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 102 (102 - 117) bpm
   BP: 91/55(62) {84/41(52) - 110/65(70)} mmHg
   RR: 26 (23 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 156 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,374 mL
                                                                  1,809 mL
   PO:
             TF:
   IVF:
                                                                  1,924 mL
                                                                  1,764 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                    100 mL
   Urine:
                                                                    893 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,481 mL
                                                                  1,709 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 641 (530 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 13.9 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), difficult to assess pulses
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, Rash: flat erythematous rash on legs, arms, stomch and
   chest. Itching.
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   244 K/uL
   7.3 g/dL
   113 mg/dL
   2.0 mg/dL
   34 mEq/L
   4.4 mEq/L
   53 mg/dL
   98 mEq/L
   141 mEq/L
   25.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
                             [**2178-8-21**]  02:54 AM
                             [**2178-8-21**]  08:06 PM
                             [**2178-8-22**]  03:18 AM
                             [**2178-8-23**]  03:14 AM
   WBC
   7.1
   6.3
   7.2
   5.8
   7.0
   5.4
   6.5
   11.3
   Hct
   24.3
   22.9
   24.8
   23.4
   24.6
   26.7
   24.4
   23.2
   22.3
   25.8
   Plt
   127
   147
   154
   151
   161
   199
   216
   244
   Cr
   0.6
   0.7
   0.7
   0.8
   1.0
   1.4
   2.0
   Glucose
   109
   118
   100
   155
   160
   118
   113
   Other labs: PT / PTT / INR:16.9/55.2/1.5, ALT / AST:15/37, Alk Phos / T
   Bili:43/0.6, Amylase / Lipase:356/239,  Lactic Acid:0.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:4.3 mg/dL
   Imaging: CT sinus final read pending
   Microbiology: BC since [**8-17**] pending
   Urine culture pending
   Sputum culture: spare orapharyngeal flora
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure, currently with trach and peg
   - continue albuterol and ipratroprium
   - Will monitor discomfort; currently treated with fentanyl patch with
   fentanyl IV as needed
   - Pt on [**6-9**]. Will continue to wean off vent
    # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology
   at this time.
   - on Vanc/Cefepime day [**8-11**].
   - Will continue Vanc and add flagyl and Cipro for possible GI source of
   infection
   - Follow cultures and amylase/lipase/LFTs
   - CT Sinus to eval did not reveal clinically significant sinusitis
   -Will take out R IJ and put in L IJ.
   - Sending new blood and urine cultures
   # Rash: possibly [**3-9**] drugs. Eos not elevated
   - benadryl with close follow up
   # Elevated Cr: Possibly post contrast
   - Will give IV fluids and monitor Cr
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
improving clincially
   - minimize positive pressure if possible
   # Constipation
  CT showed stool throughout colon
   - on senna, colase, bisacodyl
   - Added miralax and increased frequency of lactulose
   - Added go-yteely today
    #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - lovenox. Will discuss dosage pharmacy given increased Cr
   # Hypotension
   - continue to monitor BP and keep MAP > 60
    # Hypernatremia
  Pt [**Name (NI) **] is improved at 141 today.
   # FEN
 tube feeds through PEG
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
 will switch
   18 Gauge - [**2178-8-21**] 11:13 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments: Communicate with brother
   [**Name (NI) 129**] status: Full code
   Disposition: pending above

2178-08-23 11:36:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo male with emhysema, OSA, obesity admitted with acute respiraotry
   failure from particulant inhalation, course notable for VAP, trach
   bleed, SQ emphysema
   24 Hour Events:
   Erythematous rash, no mucosal involvement
   Vanc trough 32- repeat level pending
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-22**] 07:45 AM
   Cefipime - [**2178-8-23**] 04:09 AM
   Metronidazole - [**2178-8-23**] 10:17 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-22**] 10:35 PM
   Enoxaparin (Lovenox) - [**2178-8-23**] 12:10 AM
   Other medications:
   alb/atrovent, colace, senna, pantorpazole, miralax, laculose,
   vancomycin, lovenox, golytely
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-23**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98
   HR: 94 (94 - 117) bpm
   BP: 83/48(57) {75/40(50) - 110/59(69)} mmHg
   RR: 25 (20 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,374 mL
                                                                  3,993 mL
   PO:
   TF:
   IVF:
                                                                  1,924 mL
                                                                  3,948 mL
   Blood products:
   Total out:
                                                                    893 mL
                                                                    120 mL
   Urine:
                                                                    893 mL
                                                                    120 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,481 mL
                                                                  3,873 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (530 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///34/
   Ve: 13.8 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, No(t) Thin,
   No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, trach'd
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant), (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Rhonchorous: ), SQ emphysema
   Abdominal: Soft, Non-tender, Obese, hypoactivs bs
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing,
   venous stasis hyperpigementation
   Skin:  Warm, Rash: erythematous papular rash
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   244 K/uL
   113 mg/dL
   2.0 mg/dL (was 1.4)
   34 mEq/L
   4.4 mEq/L
   53 mg/dL
   98 mEq/L
   141 mEq/L
   25.8 %
   11.3 K/uL
        [image002.jpg]
                             [**2178-8-17**]  03:15 AM
                             [**2178-8-18**]  04:30 AM
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
                             [**2178-8-21**]  02:54 AM
                             [**2178-8-21**]  08:06 PM
                             [**2178-8-22**]  03:18 AM
                             [**2178-8-23**]  03:14 AM
   WBC
   7.1
   6.3
   7.2
   5.8
   7.0
   5.4
   6.5
   11.3
   Hct
   24.3
   22.9
   24.8
   23.4
   24.6
   26.7
   24.4
   23.2
   22.3
   25.8
   Plt
   127
   147
   154
   151
   161
   199
   216
   244
   Cr
   0.6
   0.7
   0.7
   0.8
   1.0
   1.4
   2.0
   Glucose
   109
   118
   100
   155
   160
   118
   113
   Other labs: PT / PTT / INR:16.9/55.2/1.5, ALT / AST:15/37, Alk Phos / T
   Bili:43/0.6, Amylase / Lipase:356/239, Differential-Neuts:90.7 %,
   Band:13.0 %, Lymph:5.9 %, Mono:2.5 %, Eos:0.6 %, Lactic Acid:0.7
   mmol/L, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:4.3 mg/dL
   Imaging: CT sinus: mild thickening of sphenoid sinus, small air fluid
   level in sphenoid
   Microbiology: [**8-17**] bd cultures NGTD
   sputum cx's spare oropharyngeal flora
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 yomale with acute respiratory failure from particulant inhalation;
   course complicated by SQ emphysema, VAP/
   Leukocytosis-
   On Vanc/Cefipime x 7 days
   So far with unrevealing cultures
   Abdominal CT [**8-20**] with large amts of stool but no add'l stool pathology
   Re-site CVL
   Change to cipro & flagyl
   Acute respiratory failure: continues to require mechanical ventilation.
   Non-oliguric acute renal failure- Urine Na<10 suggesting some component
   of volume depletion though course also suggesting post-contrast
   nephropathy. Will volume resuscitate and continue to montior I's and
   O's.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-7-28**] 02:54 PM
   18 Gauge - [**2178-8-21**] 11:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-08-24 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2178-8-23**] 04:32 PM
 MULTI LUMEN - STOP [**2178-8-23**] 05:00 PM
 URINE CULTURE - At [**2178-8-23**] 05:10 PM
 WOUND CULTURE - At [**2178-8-23**] 05:17 PM
   tip of RIJ
 BLOOD CULTURED - At [**2178-8-24**] 04:13 AM
 ARTERIAL LINE - START [**2178-8-24**] 05:30 AM
 ARTERIAL LINE - STOP [**2178-8-24**] 05:49 AM
   -blood cultures sent
   -Vanc trough 4, so restarted Vanc. AM trough also sent
   -Continued to have MAPs in low 50s. Lactate was normal. Mixed venous
   this AM 42.
   -Triple lumen changed from Right to left
   -2L NS in early am
   -per radiology, CT did not show an abscess; ? if mediastinitis however
   CT with contrast would be needed  and pt. could not tolerate given ARF.
   -Flagyll and Cefepime d/c
d due to drug rash
   -now on .10 of Levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2178-8-23**] 04:09 AM
   Metronidazole - [**2178-8-23**] 05:57 PM
   Vancomycin - [**2178-8-24**] 12:07 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2178-8-23**] 12:19 PM
   Pantoprazole (Protonix) - [**2178-8-23**] 08:22 PM
   Other medications:
   1000 mL NS
   11. Acetaminophen 12. Albuterol Inhaler 13. Artificial Tear Ointment
   14. Bisacodyl 15. Chlorhexidine Gluconate 0.12% Oral Rinse
   16. Ciprofloxacin 17. Ciprofloxacin 18. Docusate Sodium (Liquid) 19.
   Enoxaparin Sodium 20. Fentanyl Citrate
   21. Golytely 22. 23. 24. 25. 26. 27. Insulin 28. Ipratropium Bromide
   MDI 29. Lactulose
   30. MetRONIDAZOLE (FLagyl) 31. Midazolam 32. Norepinephrine 33.
   Pantoprazole 34. Polyethylene Glycol
   35. Sarna Lotion 36. Senna 37. Sodium Chloride 0.9% Flush 38. Sodium
   Chloride 0.9% Flush 39. Sodium Chloride 0.9% Flush
   40. Vancomycin 41. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-24**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.8
C (96.4
   HR: 84 (82 - 102) bpm
   BP: 90/41(51) {74/39(48) - 110/54(69)} mmHg
   RR: 21 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 10 (6 - 11)mmHg
   CO/CI (Fick): (15.5 L/min) / (5.6 L/min/m2)
   Mixed Venous O2% Sat: 70 - 70
   Total In:
                                                                  7,436 mL
                                                                  2,484 mL
   PO:
   TF:
                                                                     62 mL
                                                                    141 mL
   IVF:
                                                                  7,330 mL
                                                                  2,343 mL
   Blood products:
   Total out:
                                                                  1,385 mL
                                                                     35 mL
   Urine:
                                                                    185 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,051 mL
                                                                  2,449 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (580 - 580) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///30/
   Ve: 12 L/min
   Physical Examination
   Gen: opens eyes to voice, does not respond to commands
   CV: RRR nl s1/s2, no murmurs
   Pulm: rhonchorous b/l from anterior
   Abd: +BS, soft, NT, obese
   Ext: 2+ peripheral edema upper and lower
   Skin: no apparent rashes
   Labs / Radiology
   195 K/uL
   6.2 g/dL
   92 mg/dL
   2.5 mg/dL
   30 mEq/L
   3.7 mEq/L
   55 mg/dL
   103 mEq/L
   144 mEq/L
   22.3 %
   6.1 K/uL
        [image002.jpg]
                             [**2178-8-18**]  10:51 PM
                             [**2178-8-19**]  05:05 AM
                             [**2178-8-19**]  10:05 AM
                             [**2178-8-20**]  03:12 AM
                             [**2178-8-21**]  02:54 AM
                             [**2178-8-21**]  08:06 PM
                             [**2178-8-22**]  03:18 AM
                             [**2178-8-23**]  03:14 AM
                             [**2178-8-23**]  03:10 PM
                             [**2178-8-24**]  03:40 AM
   WBC
   7.2
   5.8
   7.0
   5.4
   6.5
   11.3
   6.1
   Hct
   24.8
   23.4
   24.6
   26.7
   24.4
   23.2
   22.3
   25.8
   22.3
   Plt
   154
   151
   161
   199
   216
   244
   195
   Cr
   0.7
   0.8
   1.0
   1.4
   2.0
   2.3
   2.5
   TropT
   0.05
   Glucose
   100
   155
   160
   118
   113
   112
   92
   Other labs: PT / PTT / INR:17.5/69.9/1.6, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:14/35, Alk Phos / T Bili:39/0.3, Amylase
   / Lipase:84/32, Differential-Neuts:90.7 %, Band:13.0 %, Lymph:5.9 %,
   Mono:2.5 %, Eos:0.6 %, Lactic Acid:0.7 mmol/L, Ca++:7.0 mg/dL, Mg++:2.5
   mg/dL, PO4:5.8 mg/dL
   Imaging: CXR [**8-23**] In comparison with study of [**8-20**], there has been
   placement of a
   left IJ catheter that extends to the lower portion of the SVC, somewhat
   proximal to the right IJ catheter. Diffuse bilateral pulmonary
   opacifications
   are seen, most likely related to a combination of vascular congestion
   and
   multifocal pneumonia.
   Microbiology: blood ctx [**Date range (1) 7323**] pending, [**8-17**] negative
   catheter tip [**8-23**] pending
   urine [**8-23**] pending, [**8-21**] yeast
   sputum [**8-20**] GPC in pairs
   Assessment and Plan
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease presents with hemoptysis, and hypoxic and hypercarbic
   respiratory failure.
   # Hypoxic respiratory failure, currently with trach and peg
   - continue albuterol and ipratroprium
   - Will monitor discomfort; currently treated with fentanyl IV and
   versed.
   - Pt on [**6-9**]. Will try to wean once BPs more stable.
    # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology
   at this time.
   - finished 8 days Vanc/Cefepime, now on Vanc/Cipro (D1:[**8-23**]).
   - Follow cultures and amylase/lipase/LFTs
   - check sputum ctx, tip from catheter from [**8-23**]
   - CT Sinus to eval did not reveal clinically significant sinusitis
   - f/u  urine ctx, check cdiff
   - ID consult given no gram negative coverage and ?source with fevers
   and leukocytosis; ?start Meropenem given history VRE.
   # Hypotension: currently supported with levophed
   -check CVP
   -TTE to determine if any RV strain to suggest PE given high ddimer,
   anemia, and inability to wean
   # Anemia: Likely partially due to hemodilution and recent bleed from
   trache site.  Brother unaware of history of anemia though it HCP
   - research chart to determine if hx of anemia has been worked up
   - transfuse 1U PRBC this morning since appears hypovolemic and recheck
   pm Hct.
   # Rash: possibly [**3-9**] drugs. Eos not elevated; no rash today
   - benadryl with close follow up; likely due to Flagyl
   # Elevated Cr: Possibly post contrast
   - Gave IVF and Cr now up to 2.5; recheck PM lytes; IVF if not trending
   down.
   - check UA, urine eos, for question AIN; ATN [**3-9**] hypotension
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
improving clincially
   - minimize positive pressure if possible
   # Constipation
  pt. now had BM
   - on senna, colase, bisacodyl
   - Added miralax and increased frequency of lactulose
   - Added go-yteely yesterday
    #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - on lovenox. Pharmacy said to decrease Lovenox to QDay if Cr clearance
   < 30
   - change to Heparin today as would benefit from IVF and with anemia,
   would be easier to turn off
   # Hypotension
   - continue to monitor BP and keep MAP > 60
    # Hypernatremia
  Pt [**Name (NI) **] is improved at 144 today.
   # FEN
 tube feeds through PEG
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2178-8-23**] 05:50 PM 20 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-8-21**] 11:13 PM
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Prophylaxis:
   DVT: lovenox
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: spoke with brother, [**Name (NI) **], today, who is aware
   of worsened respiratory status from the weekend, unlikely d/c in next
   couple of days, and aware of plan for ID consult and echocardiogram
   today.
   Code status: Full code
   Disposition: ICU pending above

2178-08-26 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2178-8-25**] 01:22 PM
   Changed respiratory settings for patient comfort.  Follow up ABG
   7.2/83/112/34.  Position changed and vent settings returned to previous
   and ABG improved to 7.24/66/89/30.  On going renal failure despite
   continued fluid bolus, total 3L o/n.  Per ID, meropenem changed from
   500mg IV q8 to 500mg IV q12h.  Requested vanc trough prior to next dose
   of vanc.  requested new sputum sample.  patient had bronch in afternoon
   to collect sputum.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2178-8-23**] 05:57 PM
   Vancomycin - [**2178-8-25**] 09:45 PM
   Ciprofloxacin - [**2178-8-25**] 10:30 PM
   Meropenem - [**2178-8-25**] 11:49 PM
   Infusions:
   Heparin Sodium - 550 units/hour
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2178-8-25**] 01:24 PM
   Fentanyl - [**2178-8-25**] 01:24 PM
   Pantoprazole (Protonix) - [**2178-8-25**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.6
C (96.1
   HR: 64 (64 - 78) bpm
   BP: 110/56(74) {100/51(69) - 125/64(84)} mmHg
   RR: 22 (19 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 162.1 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 9 (6 - 241)mmHg
   CO/CI (Fick): (338 L/min) / (121.1 L/min/m2)
   Mixed Venous O2% Sat: 98 - 98
   Total In:
                                                                  5,271 mL
                                                                    199 mL
   PO:
   TF:
                                                                    204 mL
   IVF:
                                                                  4,737 mL
                                                                    199 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                    165 mL
                                                                     55 mL
   Urine:
                                                                    165 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,106 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 618 (499 - 618) mL
   PS : 12 cmH2O
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 46
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.24/66/89.[**Numeric Identifier 433**]/24/0
   Ve: 11.9 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   7.7 g/dL
   98 mg/dL
   3.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   59 mg/dL
   103 mEq/L
   140 mEq/L
   24.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2178-8-24**]  03:40 AM
                             [**2178-8-24**]  04:50 PM
                             [**2178-8-24**]  05:00 PM
                             [**2178-8-25**]  03:09 AM
                             [**2178-8-25**]  03:27 AM
                             [**2178-8-25**]  06:56 AM
                             [**2178-8-25**]  01:42 PM
                             [**2178-8-25**]  05:58 PM
                             [**2178-8-25**]  08:34 PM
                             [**2178-8-26**]  02:46 AM
   WBC
   6.1
   6.6
   6.4
   6.3
   Hct
   22.3
   23.9
   26.6
   27.3
   24.9
   Plt
   195
   230
   230
   214
   Cr
   2.5
   2.9
   3.2
   3.4
   3.5
   TropT
   0.05
   TCO2
   33
   34
   34
   34
   30
   Glucose
   92
   122
   131
   107
   98
   Other labs: PT / PTT / INR:14.3/58.8/1.2, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:20/68, Alk Phos / T Bili:53/0.3, Amylase
   / Lipase:123/74, Differential-Neuts:72.0 %, Band:3.0 %, Lymph:13.0 %,
   Mono:6.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L, Ca++:7.4 mg/dL, Mg++:2.5
   mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure..
   # Hypoxic respiratory failure, currently with trach and peg: pt. with
   breath stacking seen on vent and work of breathing with nasal flaring
   - continue albuterol and ipratroprium
   - Will monitor discomfort; currently treated with fentanyl IV and
   versed.
   - change vent settings today, match PEEP to autopeep, switch to PCV and
   then titrate sedation so that patient is ventilating all of his carbon
   dioxide.
   - CXR today, r/o pneumothorax given worsening respiratory status.
   #Renal Failure
   -worsening renal failure with Urine eos.  Possible AIN vs renal
   stenosis vs [**3-9**] sepsis.
   -renal U/S with dopplers today
   -c/s renal
    # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology
   at this time.
   - finished 8 days Vanc/Cefepime, now on Vanc/Cipro (D2:[**8-23**]), Meropenem
   (D2:[**8-24**])
   - bronch today, may need pedi bronch to get good sputum sample so as to
   be able to narrow antibiotics
   - Follow cultures and amylase/lipase/LFTs
   - f/u blood ctxs
   - f/u  urine ctx
   -f/u sputum cx from bronch o/n.
   # Hypotension: currently supported with levophed
   # Pneumomediastinum/sq emphysema
   - continue to follow CXR
improving clincially
   - AM CXR
   # Anemia: Likely partially due to hemodilution and recent bleed from
   trache site.  Brother unaware of history of anemia though it HCP
   - f/u iron studies, B12, folate
   # Rash: possibly [**3-9**] drugs. Eos now elevated; no rash today
   - benadryl with close follow up; likely due to Flagyl
   -question if this allergic rxn culd have also been causing renal
   failure
   # Elevated Cr: Possibly post contrast vs AIN, has not been hypotensive
   to suggest ATN
   -check urine eos, sediment; calculate FeNa to determine pre or
   intra-renal disorder
   # Constipation
   - on senna, colase, bisacodyl
   - Added miralax and increased frequency of lactulose
    #Hyperthyroid (subclinical)
   - no acute isssues
   # Hx of Chronic DVT
   - changed to Heparin yesterday as would benefit from IVF and with
   anemia, would be easier to turn off; titrate to goal PTT
   # Hypotension
   - continue to monitor BP and keep MAP > 60
   # FEN
 tube feeds through PEG
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-8-21**] 11:13 PM
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-08-27 06:39:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, sepsis, acute renal failure
   24 Hour Events:
 BLOOD CULTURED - At [**2178-8-27**] 04:24 AM
   - renal doppler normal
   - renal does not think AIN so no steroids needed. Saw urine and did not
   see eos. Thinks this is ATN because saw granular casts.
   - ID had no further (appreciable) recs. Vanc trough at night was >40 so
   held PM dose.
   - CT showed organizing, growing psoas/illiacus hematoma.
   - Got 1 u PRBC because goal HCT 28 because want pt to run higher so if
   he falls, he has room to go. New HCT pending
   - bleeding from foley
   -worsening acidosis, despite 1L of fluid. Looks like component of
   metabolic acidosis getting worse
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-25**] 09:45 PM
   Ciprofloxacin - [**2178-8-25**] 10:30 PM
   Meropenem - [**2178-8-27**] 12:22 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-26**] 08:06 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-27**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 35.5
C (95.9
   HR: 75 (62 - 86) bpm
   BP: 98/50(66) {87/46(62) - 113/60(80)} mmHg
   RR: 25 (12 - 33) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 166.6 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 9 (5 - 330)mmHg
   Total In:
                                                                    874 mL
                                                                  1,562 mL
   PO:
   TF:
                                                                     38 mL
                                                                    105 mL
   IVF:
                                                                    631 mL
                                                                  1,212 mL
   Blood products:
                                                                    205 mL
                                                                    145 mL
   Total out:
                                                                    240 mL
                                                                     50 mL
   Urine:
                                                                    140 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    634 mL
                                                                  1,512 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 634 (446 - 656) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   SpO2: 98%
   ABG: 7.21/67/86.[**Numeric Identifier **]/24/-2
   Ve: 14.3 L/min
   PaO2 / FiO2: 249
   Physical Examination
   GEN: NAD
   CV: limited exam [**3-9**] body habitus, but RRR no M/R/G
   Resp: bilateral, difuse rhonci, no wheezes
   Abd: soft, NT, ND, hypoactive bowel sounds
   Ext: 1+ edema in  feet, looks relatively stable
   Neuro: does not respond to verbal stimuli, occasional grimace though
   unclear source of pain, slightly worse than optimum baseline patient
   has displayed in the past
   GU: blood in urine, no clots currently visible
   Labs / Radiology
   201 K/uL
   8.3 g/dL
   99 mg/dL
   4.1 mg/dL
   24 mEq/L
   4.1 mEq/L
   61 mg/dL
   104 mEq/L
   139 mEq/L
   27.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2178-8-26**]  08:13 AM
                             [**2178-8-26**]  11:13 AM
                             [**2178-8-26**]  12:56 PM
                             [**2178-8-26**]  01:11 PM
                             [**2178-8-26**]  04:57 PM
                             [**2178-8-26**]  05:06 PM
                             [**2178-8-26**]  11:55 PM
                             [**2178-8-27**]  01:56 AM
                             [**2178-8-27**]  02:10 AM
                             [**2178-8-27**]  04:17 AM
   WBC
   6.9
   Hct
   24.6
   24.0
   27.2
   Plt
   201
   Cr
   4.1
   TCO2
   29
   29
   31
   29
   31
   29
   28
   Glucose
   99
   Other labs: PT / PTT / INR:13.6/52.0/1.2, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:25/104, Alk Phos / T Bili:62/0.4,
   Amylase / Lipase:108/74, Differential-Neuts:72.0 %, Band:3.0 %,
   Lymph:13.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:0.6 mmol/L, LDH:502
   IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:6.4 mg/dL
   Imaging: CT chest/abd/pevlis [**2178-8-26**]: organizing hematoma in R
   psas/illiacus that is larger than previous. Likely ARSD in lungs.
   Renal U/S: no abnormalities
   Microbiology: Bronchealveolar lavage: GRAM STAIN (Final [**2178-8-25**]):
         1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):    NO GROWTH, <1000 CFU/ml.
   Urine culture [**8-26**]: pending
   Blood culture from [**8-21**] pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypoxic respiratory failure, currently with trach and peg: CT
   suggestive of ARDS
   - continue albuterol and ipratroprium
   -check q2 ABG. Pt had worsening acidosis yesterday.
   -[**8-25**] patient had marked improvement in ABG after given fluid. Think
   that this improves his blood flow to ventilating portion of lungs. Last
   night BP improved after 1L of fluid, but had minimal improvement in
   ABG. Continues to have high stroke variance. Will give more fluid today
   and monitor I/Os and ABG.
   - Considering bicarb not rising enough given respiratory acidosis
   suggests a component of non- gap metabolic acidosis. Losses would be
   via GI tract. Or, if kidneys were not excreting enough anions [**3-9**] renal
   failure, that would also drive bicarb down. Given bicarb yesterday.
   Will give fluid in the form of D5 with 3amps of bicarb and monitor ABGs
   today.  Will also titrate bowel regimen to 200-350cc bowel loss.
   #Renal Failure: Per Renal this is ATN and not AIN. Renal U/S were
   normal.  No steroids at this time
   -like renal failure causing poor excretion of anions which is driving
   bicarb down.
   -Will give bicarb and monitor response.
   # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology at
   this time.
   - finished 8 days Vanc/Cefepime, now on Vanc  and Meropenem day [**4-12**] for
   8d VAP coarse.
   - f/u blood ctxs
   - f/u  urine ctx
   - also sending CMV virology
   # Hypotension: currently off levophed
   - Showed some improvement with 1L last night
   - Will try D5 with bicarb today and monitor response.
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
   - given Hct is stable, will continue heparin for now and check Hct Q6
   # Hx of Chronic DVT
 Tightened goal PTT, however pt started bleeding
   last night from foley. Foley was changed yesterday so likely [**3-9**] foley
   trauma
   - Will check for DVT with BLE u/s. If no DVT, will stop heparin.
   # Pneumomediastinum/sq emphysema
 resolving
   - continue to follow CXR
improving clincially
    # Constipation
   - on senna, colase, bisacodyl
   - miralax and lactulose
     #Hyperthyroid (subclinical)
   - no acute isssues
    # Hypotension
   - continue to monitor BP and keep MAP > 60
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-26**] 08:13 PM 20 mL/hour. Nutrition
   consulted
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Prophylaxis:
   DVT: (Heparin IV)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-08-28 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2178-8-27**] 11:31 AM
   LEs
   -started on methylpred for AIN
   -vanc still very elevated; so held
   -must s/w IR for guided line for HD
   -family updated
   -no dvts [**Name Prefix (Prefixes) **]
   -[**Last Name (Prefixes) **] bleed-> heparin turned off and given 2U; good Hct bump
   -also given 1L D5 3amp bicarb
   -ABGs with pH down to 7.19/72/145 after Fi02 had been increased from
   35->50 and PEEP 8->10;
   trending in right direct after lowered fi02 to 35, PS to 10 from 15
   7.28/55/68
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-8-25**] 09:45 PM
   Ciprofloxacin - [**2178-8-25**] 10:30 PM
   Meropenem - [**2178-8-28**] 12:00 AM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-27**] 08:22 PM
   Other medications:
   Acetaminophen 7. Albuterol Inhaler 8. Artificial Tear Ointment 9.
   Beclomethasone Dipropionate
   10. Bisacodyl 11. Calcium Gluconate 12. Calcium Gluconate 13.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   14. Docusate Sodium (Liquid) 15. Fentanyl Citrate 16. Golytely 17.
   Heparin 18. 19. 20. 21.
   22. 23. Insulin 24. Ipratropium Bromide MDI 25. Lactulose 26. Meropenem
   27. MethylPREDNISolone Sodium Succ
   28. Midazolam 29. Norepinephrine 30. Pantoprazole 31. Polyethylene
   Glycol 32. PredniSONE 33. Sarna Lotion
   34. Senna 35. Sodium Chloride 0.9% Flush 36. Sodium Chloride 0.9% Flush
   37. Sodium Chloride 0.9% Flush
   38. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-28**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.4
C (95.7
   HR: 65 (62 - 82) bpm
   BP: 127/67(88) {95/44(63) - 138/67(93)} mmHg
   RR: 27 (19 - 39) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 166.6 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 13 (7 - 20)mmHg
   Total In:
                                                                  4,318 mL
                                                                    537 mL
   PO:
   TF:
                                                                    785 mL
                                                                    288 mL
   IVF:
                                                                  2,274 mL
                                                                    237 mL
   Blood products:
                                                                    700 mL
                                                                     12 mL
   Total out:
                                                                    123 mL
                                                                     48 mL
   Urine:
                                                                    123 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,195 mL
                                                                    489 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 638 (497 - 638) mL
   PS : 12 cmH2O
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: 7.28/55/68/26/-1
   Ve: 16.2 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   213 K/uL
   9.8 g/dL
   195 mg/dL
   4.3 mg/dL
   26 mEq/L
   4.5 mEq/L
   65 mg/dL
   102 mEq/L
   140 mEq/L
   30.2 %
   6.6 K/uL
        [image002.jpg]
                             [**2178-8-27**]  02:30 PM
                             [**2178-8-27**]  02:49 PM
                             [**2178-8-27**]  06:09 PM
                             [**2178-8-27**]  08:30 PM
                             [**2178-8-27**]  08:47 PM
                             [**2178-8-27**]  09:43 PM
                             [**2178-8-28**]  01:30 AM
                             [**2178-8-28**]  01:38 AM
                             [**2178-8-28**]  04:54 AM
                             [**2178-8-28**]  04:58 AM
   WBC
   6.6
   Hct
   25.3
   31.3
   30.2
   Plt
   213
   Cr
   4.3
   4.3
   TCO2
   28
   28
   29
   27
   28
   27
   Glucose
   128
   195
   Other labs: PT / PTT / INR:12.1/39.8/1.0, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:25/104, Alk Phos / T Bili:62/0.4,
   Amylase / Lipase:108/74, Differential-Neuts:72.0 %, Band:3.0 %,
   Lymph:13.0 %, Mono:6.0 %, Eos:4.0 %, Lactic Acid:0.6 mmol/L, LDH:502
   IU/L, Ca++:7.5 mg/dL, Mg++:2.6 mg/dL, PO4:6.7 mg/dL
   Imaging: CXR [**8-28**]
   CXR final [**8-27**]: Improved overall lung aeration compared to one day
   prior.
   Microbiology: CMV viral load pending
   blood 7/19, 20, 23 pending
   urine [**8-26**] yeast
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypoxic respiratory failure, currently with trach and peg: CT
   suggestive of ARDS
   -continue with low fi02, as this seems to be driving RR
   - continue albuterol and ipratroprium
   -check q2 ABG. Pt had worsening acidosis yesterday.
   - Considering bicarb not rising enough given respiratory acidosis
   suggests a component of non- gap metabolic acidosis; improved with IVF
   with bicarb yesterday; losses would be via GI tract. Or, if kidneys
   were not excreting enough anions [**3-9**] renal failure, that would also
   drive bicarb down. Ttrate bowel regimen to 200-350cc bowel loss;
   possible HD woud help with anion excretion.
   #Renal Failure: Per Renal ATN vs AIN.  Renal U/S were normal.  Started
   Methylpred last pm.
   -like renal failure causing poor excretion of anions which is driving
   bicarb down.
   -eval by IR for line placement for HD.
   # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology at
   this time.
   - finished 8 days Vanc/Cefepime, now on Vanc  and Meropenem day [**4-12**] for
   8d VAP coarse.
   - f/u blood ctxs
   - f/u  urine ctx
   - f/u cmv
   # Hypotension: currently off levophed
   -BPs stable
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
   -since no DVT on U/S, continue to hold Heparin
   # Hx of Chronic DVT
 Tightened goal PTT, however pt started bleeding
   last night from foley. Foley was changed yesterday so likely [**3-9**] foley
   trauma
   -Since no DVT, stop Heparin
   # Pneumomediastinum/sq emphysema
 resolving
   - continue to follow CXR
improving clincially
    # Constipation
   - on senna, colase, bisacodyl
   - miralax and lactulose
     #Hyperthyroid (subclinical)
   - no acute isssues
    # Hypotension
   - continue to monitor BP and keep MAP > 60
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-28**] 03:09 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Prophylaxis:
   DVT: Heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: family discussion with brother [**Name (NI) **] yesterday, stay course

2178-08-29 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2178-8-28**] 05:17 PM
   HD started after temporary HD catheter placed by IR
   ABG's checked through the night
   steroids renally dosed
   HCT stable
   Increased sedation used to reduce bronchospasm and discomfort on AC
   Some respiratory distress over night.  CXR normal.  ABG's similar to
   previous.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-8-28**] 11:53 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-28**] 04:00 PM
   Midazolam (Versed) - [**2178-8-28**] 04:01 PM
   Pantoprazole (Protonix) - [**2178-8-28**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-29**] 02:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-29**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.1
C (96.9
   HR: 71 (53 - 99) bpm
   BP: 122/62(82) {90/51(64) - 147/84(100)} mmHg
   RR: 21 (15 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 176.2 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 5 (4 - 8)mmHg
   CO/CI (Fick): (27.4 L/min) / (9.8 L/min/m2)
   Mixed Venous O2% Sat: 83 - 83
                                Total In:
                                                                  3,449 mL
                                                                  1,854 mL
   PO:
                                TF:
                                                                    662 mL
                                                                     55 mL
   IVF:
                                                                  1,985 mL
                                                                  1,799 mL
   Blood products:
                                                                     12 mL
   Total out:
                                                                  1,214 mL
                                                                  2,332 mL
   Urine:
                                                                    101 mL
                                                                     30 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  2,235 mL
                                                                   -478 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 618 (512 - 754) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 94%
   ABG: 7.21/68/86.[**Numeric Identifier **]/26/-2
   Ve: 12.8 L/min
   PaO2 / FiO2: 249
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: B/L)
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   290 K/uL
   9.8 g/dL
   158 mg/dL
   4.6 mg/dL
   26 mEq/L
   4.6 mEq/L
   69 mg/dL
   103 mEq/L
   141 mEq/L
   30.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2178-8-28**]  04:58 AM
                             [**2178-8-28**]  01:50 PM
                             [**2178-8-28**]  01:58 PM
                             [**2178-8-28**]  05:50 PM
                             [**2178-8-28**]  05:53 PM
                             [**2178-8-28**]  07:34 PM
                             [**2178-8-28**]  10:34 PM
                             [**2178-8-29**]  12:27 AM
                             [**2178-8-29**]  05:30 AM
                             [**2178-8-29**]  05:43 AM
   WBC
   6.4
   9.4
   Hct
   32.3
   31.8
   30.9
   Plt
   207
   290
   Cr
   4.6
   TCO2
   27
   29
   29
   30
   28
   27
   29
   Glucose
   158
   Other labs: PT / PTT / INR:12.1/37.6/1.0, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:25/104, Alk Phos / T Bili:62/0.4,
   Amylase / Lipase:108/74, Differential-Neuts:94.0 %, Band:1.0 %,
   Lymph:3.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, LDH:502
   IU/L, Ca++:7.9 mg/dL, Mg++:2.7 mg/dL, PO4:7.2 mg/dL
   Imaging: port CXR- unchanged from previous
   Microbiology: Pending CMV, Bcx
   Ucx grew yeast
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS
   -current Vt near 6cc/kg
   -FiO2 increased overnight due to hypoxemia
   - continue albuterol and ipratroprium
   -check q4 ABG.
   -respiratory acidosis with minimal change from yesterday
   - Considering bicarb not rising enough given respiratory acidosis
   suggests a component of non- gap metabolic acidosis; possible HD would
   help with anion excretion
   #Renal Failure: Per Renal ATN vs AIN.  Renal U/S were normal.  Started
   prednisone dosed by IBW: prednisone 80mg IV
   -likely renal failure causing poor excretion of anions which is driving
   bicarb down.
   -eval by IR for line placement for HD after f/u with renal if plan for
   HD.
   # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology at
   this time.
   - finished 8 days Vanc/Cefepime, now on Meropenem (D1:[**8-24**]) day [**6-12**] for
   8d VAP coarse.
   - f/u blood ctxs
   - f/u  urine ctx
   - f/u cmv
   # Hypotension:
   -restarted levophed
   -BPs stable
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
   -stable currently
   # Hx of Chronic DVT
 Tightened goal PTT, however pt started bleeding
   last night from foley. Foley has been changed so likely [**3-9**] foley
   trauma
   -since no DVT on U/S, continue to hold Heparin today for 2-3 days with
   plan to restart on Monday.  If continues to bleed, will need IVC
   filter.
   # Pneumomediastinum/sq emphysema
 resolving
   - continue to follow CXR
improving clincially
    # Constipation
   - on senna, colase, bisacodyl
   - miralax and lactulose
     #Hyperthyroid (subclinical)
   - no acute isssues
    # Hypotension- currently off pressors
   - continue to monitor BP and keep MAP > 60
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-29**] 01:13 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments: Brother closely involved in care.
   Code status: Full code
   Disposition:

2178-08-29 09:18:00 Physician Attending Progress Note
Chief Complaint:
   HPI: Increased respiratory distress and PIPs overnight
 responded to
   bronchodilators
   24 Hour Events:
 DIALYSIS CATHETER - START [**2178-8-28**] 05:17 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2178-8-28**] 11:53 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl (Concentrate) - 250 mcg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-28**] 04:00 PM
   Midazolam (Versed) - [**2178-8-28**] 04:01 PM
   Pantoprazole (Protonix) - [**2178-8-28**] 08:04 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-29**] 02:12 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Genitourinary: Foley
   Flowsheet Data as of  [**2178-8-29**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.3
   HR: 70 (53 - 99) bpm
   BP: 94/49(65) {90/49(64) - 147/78(100)} mmHg
   RR: 35 (15 - 40) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 176.2 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 5 (4 - 8)mmHg
   CO/CI (Fick): (27.4 L/min) / (9.8 L/min/m2)
   Mixed Venous O2% Sat: 83 - 83
                               Total In:
                                                                  3,449 mL
                                                                  2,695 mL
   PO:
                               TF:
                                                                    662 mL
                                                                     78 mL
   IVF:
                                                                  1,985 mL
                                                                  2,377 mL
   Blood products:
                                                                     12 mL
   Total out:
                                                                  1,214 mL
                                                                  3,306 mL
   Urine:
                                                                    101 mL
                                                                     50 mL
   NG:
                                                                    400 mL
   Stool:
                                                                    700 mL
   Drains:
   Balance:
                                                                  2,235 mL
                                                                   -611 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 618 (512 - 754) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 30 cmH2O
   SpO2: 94%
   ABG: 7.21/68/86.[**Numeric Identifier **]/28/-2
   Ve: 10.7 L/min
   PaO2 / FiO2: 249
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: mildly throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   290 K/uL
   127 mg/dL
   4.1 mg/dL
   28 mEq/L
   4.4 mEq/L
   64 mg/dL
   100 mEq/L
   141 mEq/L
   30.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2178-8-28**]  04:58 AM
                             [**2178-8-28**]  01:50 PM
                             [**2178-8-28**]  01:58 PM
                             [**2178-8-28**]  05:50 PM
                             [**2178-8-28**]  05:53 PM
                             [**2178-8-28**]  07:34 PM
                             [**2178-8-28**]  10:34 PM
                             [**2178-8-29**]  12:27 AM
                             [**2178-8-29**]  05:30 AM
                             [**2178-8-29**]  05:43 AM
   WBC
   6.4
   9.4
   Hct
   32.3
   31.8
   30.9
   Plt
   207
   290
   Cr
   4.6
   4.1
   TCO2
   27
   29
   29
   30
   28
   27
   29
   Glucose
   158
   127
   Other labs: PT / PTT / INR:12.1/37.6/1.0, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:25/104, Alk Phos / T Bili:62/0.4,
   Amylase / Lipase:108/74, Differential-Neuts:78.0 %, Band:2.0 %,
   Lymph:4.0 %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:1.5 mmol/L, LDH:502
   IU/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:6.1 mg/dL
   Assessment and Plan
   51 yo man with respiratory failure due to particulate inhalation.
   Respiratory slow to resolve.  Now requiring CVVH for ESRD and
   metabolic/fluid derangements.
   1.       Respiratory Failure:  Will increase respiratory rate on vent
   given hypercarbia.  Given FIO2 of .35, can consider moving away a true
   low tidal volume strategy.
   2.       ESRD: Cont CVVH to remove fluid.  Check albumin
   3.       Ventilator associated PNA: Day [**6-12**] meropenem
   4.       Sedation: requiring high dose of fentanyl/versed.  More
   liberal vent setting may help with this
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-29**] 01:13 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP: HOB elevation, mouth care
   Comments:
   Communication:  Brother
   [**Name (NI) 129**] status: Full code
   Disposition : ICU
   Pt is critically ill
   Total time spent: 35 minutes

2178-08-30 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased RR and added bicarb to dialysate fluid. ABG showed
   improvement
   - Added fluconazole for funguria per ID. Will treat for total 14 days.
   After treatment, check urine culture. If not clear, get renal u/s
   - purulent d/c from trache over past 2 days-> sent for ctx today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-29**] 02:28 PM
   Meropenem - [**2178-8-30**] 02:19 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-29**] 08:13 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-30**] 02:47 AM
   Midazolam (Versed) - [**2178-8-30**] 06:31 AM
   Other medications:
   20 gm Calcium Gluconate/ 500 mL D5W 7. Acetaminophen 8. Albuterol
   Inhaler
   9. Artificial Tear Ointment 10. Beclomethasone Dipropionate 11.
   Bisacodyl 12. Bisacodyl 13. Chlorhexidine Gluconate 0.12% Oral Rinse
   14. Citrate Dextrose 3% (ACD-A) CRRT 15. Docusate Sodium (Liquid) 16.
   Fentanyl Citrate 17. Fluconazole
   18. Golytely 19. Heparin 20. 21. 22. 23. 24. 25. Insulin 26.
   Ipratropium Bromide MDI 27. Lactulose
   28. Meropenem 29. Metoclopramide 30. Midazolam 31. Norepinephrine 32.
   Pantoprazole 33. Potassium Chloride
   34. Potassium Chloride 10 mEq / 100 mL SW (CRRT Only) 35. Polyethylene
   Glycol 36. Prismasate (B22 K4)*
   37. PredniSONE 38. Prismasate (B32 K2) 39. Sarna Lotion 40. Senna 41.
   Sodium CITRATE 4% 42. Sodium Chloride 0.9% Flush
   43. Sodium Chloride 0.9% Flush 44. Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-30**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 87 (66 - 102) bpm
   BP: 143/77(100) {89/47(63) - 143/77(100)} mmHg
   RR: 21 (16 - 43) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 176.2 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 5 (2 - 10)mmHg
   Total In:
                                                                  8,435 mL
                                                                  2,412 mL
   PO:
   TF:
                                                                    558 mL
                                                                    132 mL
   IVF:
                                                                  7,337 mL
                                                                  2,280 mL
   Blood products:
   Total out:
                                                                 12,598 mL
                                                                  3,767 mL
   Urine:
                                                                    107 mL
                                                                     37 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,163 mL
                                                                 -1,355 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.25/70/81.[**Numeric Identifier 8**]/28/0
   Ve: 13.3 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Gen: trached, did not open eyes to voice, did not respond to commands
   HEENT: pupils NR, disconjugate gave with right eye to right
   CV: tachycardic, RR, nl s1/s2 no murmurs
   Pulm: b/l ant  lower field rhonchi
   Abd: decreased BS, soft, NT ND
   Ext: continued 2+ edema, no rashes
   Labs / Radiology
   295 K/uL
   9.8 g/dL
   135 mg/dL
   3.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   47 mg/dL
   101 mEq/L
   140 mEq/L
   32.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2178-8-29**]  05:30 AM
                             [**2178-8-29**]  05:43 AM
                             [**2178-8-29**]  10:59 AM
                             [**2178-8-29**]  11:30 AM
                             [**2178-8-29**]  05:15 PM
                             [**2178-8-29**]  05:20 PM
                             [**2178-8-29**]  11:01 PM
                             [**2178-8-29**]  11:18 PM
                             [**2178-8-30**]  04:54 AM
                             [**2178-8-30**]  05:05 AM
   WBC
   9.4
   9.2
   9.4
   Hct
   30.9
   31.1
   32.3
   Plt
   290
   304
   295
   Cr
   4.1
   3.6
   3.5
   3.2
   TCO2
   29
   29
   29
   30
   32
   32
   Glucose
   127
   100
   123
   135
   Other labs: PT / PTT / INR:13.3/37.8/1.1, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:23/60, Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:102/46, Differential-Neuts:78.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:502 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR today
   Microbiology: CMV negative final
   blood 7/20, [**8-27**] pending; [**8-23**] negative
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS
   - stable overnight, now with increasing pH
   - continue albuterol and ipratroprium
   -check q4 ABG.
   -respiratory acidosis
   - continue bicarb, dialysis which will help with acidosis
   - f/u sputum ctx
   #Renal Failure: Per Renal ATN vs AIN.  Renal U/S were normal.  Started
   prednisone dosed by IBW: prednisone 80mg IV
   -cont Fluconazole (day 1 [**8-29**]) for 14 days for funguria though has not
   grown in blood; change to PO;
   -confirm with renal at what point would want renal U/s for + urine ctxs
   - cont dialysis; goal negative 4L/24H
   # Fevers/Leukocytosis with elevated lipase/amylase. Unclear etiology at
   this time; no recent fevers, WBC stable
    - finished 8 days Vanc/Cefepime, now on Meropenem (D1:[**8-24**]) day [**8-12**]
   for 8d VAP coarse.
   - f/u blood ctxs
   - f/u  urine ctx
   - cmv negative
   -check cdiff
   -f/u abdominal exam later today once sedation weaned
   -send sputum ctx
   # Hypotension:
   -had restarted levophed; currently off, goal MAP >60
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
    -stable currently
   # Hx of Chronic DVT
 Tightened goal PTT, however pt started bleeding
   from foley. Foley has been changed so likely [**3-9**] foley trauma
    -since no DVT on U/S, continue to hold Heparin for 2-3 days with plan
   to restart on Monday.  If continues to bleed, will need IVC filter.
   -increase SC Heparin to 7500U TID today
   #  Disconjugate gaze and poorly reactive pupils- wean sedation and
   monitor later today
   -evaluate previous notes and if present before, less concern; if [**Last Name **]
   problem and still present later today will need head CT.
   # Pneumomediastinum/sq emphysema
 resolving
   - continue to follow CXR
improving clincially
    # Constipation
   - on senna, colase, bisacodyl
   - miralax and lactulose
     #Hyperthyroid (subclinical)
   - no acute isssues
    # Hypotension- currently off pressors
   - continue to monitor BP and keep MAP > 60
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-29**] 06:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: [**Name (NI) **], brother
   [**Name (NI) 129**] status: Full code
   Disposition: ICU level of care

2178-08-30 10:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   4L net negative yesterday
   24 Hour Events:
   Tolerating 200cc off per hour by CVVH
   History obtained from Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-29**] 02:28 PM
   Meropenem - [**2178-8-30**] 02:19 AM
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-8-29**] 08:13 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-30**] 02:47 AM
   Midazolam (Versed) - [**2178-8-30**] 08:09 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-8-30**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 89 (66 - 102) bpm
   BP: 111/59(77) {89/47(63) - 143/77(100)} mmHg
   RR: 24 (16 - 43) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 176.2 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 10 (2 - 10)mmHg
   Total In:
                                                                  8,435 mL
                                                                  3,334 mL
   PO:
   TF:
                                                                    558 mL
                                                                    183 mL
   IVF:
                                                                  7,337 mL
                                                                  2,931 mL
   Blood products:
   Total out:
                                                                 12,598 mL
                                                                  4,848 mL
   Urine:
                                                                    107 mL
                                                                     52 mL
   NG:
                                                                    450 mL
   Stool:
   Drains:
   Balance:
                                                                 -4,163 mL
                                                                 -1,514 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 500) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: 7.25/70/81.[**Numeric Identifier 8**]/28/0
   Ve: 13.6 L/min
   PaO2 / FiO2: 234
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: discoguate gaze, pupils 3-->2 b/l
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, question tenderness to paplation
   diffusely
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   295 K/uL
   135 mg/dL
   3.2 mg/dL
   28 mEq/L
   4.7 mEq/L
   47 mg/dL
   101 mEq/L
   140 mEq/L
   32.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2178-8-29**]  05:30 AM
                             [**2178-8-29**]  05:43 AM
                             [**2178-8-29**]  10:59 AM
                             [**2178-8-29**]  11:30 AM
                             [**2178-8-29**]  05:15 PM
                             [**2178-8-29**]  05:20 PM
                             [**2178-8-29**]  11:01 PM
                             [**2178-8-29**]  11:18 PM
                             [**2178-8-30**]  04:54 AM
                             [**2178-8-30**]  05:05 AM
   WBC
   9.4
   9.2
   9.4
   Hct
   30.9
   31.1
   32.3
   Plt
   290
   304
   295
   Cr
   4.1
   3.6
   3.5
   3.2
   TCO2
   29
   29
   29
   30
   32
   32
   Glucose
   127
   100
   123
   135
   Other labs: PT / PTT / INR:13.3/37.8/1.1, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:23/60, Alk Phos / T Bili:73/0.2, Amylase
   / Lipase:102/46, Differential-Neuts:78.0 %, Band:2.0 %, Lymph:4.0 %,
   Mono:10.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL,
   LDH:502 IU/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   51 yo man with respiratory failure due to particulate inhalation.
   Respiratory slow to resolve.  Now requiring CVVH for ESRD and
   metabolic/fluid derangements.
   1.       Respiratory Failure:  Cont current vent managment
   2.       ESRD: Cont CVVH to remove fluid.  Check albumin
   3.       Ventilator associated PNA: Day [**7-13**] meropenem
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2178-08-31 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2178-8-30**] 08:12 AM
 STOOL CULTURE - At [**2178-8-30**] 10:23 AM
   r/o c.diff.
 BLOOD CULTURED - At [**2178-8-30**] 09:00 PM
   from arterial line
 BLOOD CULTURED - At [**2178-8-30**] 09:10 PM
   from central line
 BLOOD CULTURED - At [**2178-8-30**] 09:15 PM
   from HD line
 SPUTUM CULTURE - At [**2178-8-30**] 09:28 PM
 URINE CULTURE - At [**2178-8-31**] 12:00 AM
   -changed to IV steroids for AIN
   -for high residuals started on narcan TID, can go up to 12mg TID
   -disconjugate eyes resolved with less sedation
   -sent for cdiff, negative
   -increased Heparin SC
   -sent for repeat sputum
   -pm abd exam unconcerning
   o/n
   -WBC rising, sent vanc trough which was still therapeutic and diff with
   bandemia
   -strange RBC forms-> sent haptoglobin and LDH
   -830pm has increased PIP, tachycardia -> hypotensive, levophed
   temporarilty restarted; this same sequence happened at 630 [**8-30**] am
   after flushing HD line as well, so HD ctx sent; ? restart Citalopram
   home dose tomorrow
   -after persistant hypercarbia 7.22/78/85, increased TV to 500 and
   rechecked ABG at 130 though at the same time did have
   bradycardia/hypertension with movement and ventricular bigemeny; held
   CVVH as had been negative 5200 over day and machine was stopping, will
   need to touch base with renal in the am.
   -with persistant hypotension in 80s (MAPs in 60s) given 500cc NS bolus
   then 1L D5W with 3Amps bicarb; off of pressors by morning
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-30**] 02:16 PM
   Meropenem - [**2178-8-31**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-30**] 08:15 PM
   Midazolam (Versed) - [**2178-8-30**] 08:45 PM
   Pantoprazole (Protonix) - [**2178-8-30**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-31**] 03:55 AM
   Other medications:
   20 gm Calcium Gluconate/ 500 mL D5W 7. 500 mL NS 8. Acetaminophen 9.
   Albuterol Inhaler
   10. Artificial Tear Ointment 11. Beclomethasone Dipropionate 12.
   Bisacodyl 13. Bisacodyl 14. Chlorhexidine Gluconate 0.12% Oral Rinse
   15. Citrate Dextrose 3% (ACD-A) CRRT 16. Docusate Sodium (Liquid) 17.
   Fentanyl Citrate 18. Fluconazole
   19. Golytely 20. Heparin 21. 22. 23. 24. 25. 26. Insulin 27.
   Ipratropium Bromide MDI 28. Lactulose
   29. Meropenem 30. MethylPREDNISolone Sodium Succ 31. Midazolam 32.
   Naloxone 33. Norepinephrine 34. Pantoprazole
   35. Potassium Chloride 36. Potassium Chloride 10 mEq / 100 mL SW (CRRT
   Only) 37. Polyethylene Glycol
   38. Prismasate (B22 K4)* 39. Prismasate (B32 K2) 40. Sarna Lotion 41.
   Senna 42. Sodium CITRATE 4%
   43. Sodium Chloride 0.9% Flush 44. Sodium Chloride 0.9% Flush 45.
   Sodium Chloride 0.9% Flush
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-31**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 100 (54 - 115) bpm
   BP: 132/76(94) {66/39(51) - 175/97(129)} mmHg
   RR: 32 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 176.2 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 1 (-8 - 10)mmHg
   Total In:
                                                                  8,084 mL
                                                                  2,349 mL
   PO:
   TF:
                                                                    259 mL
                                                                     21 mL
   IVF:
                                                                  7,445 mL
                                                                  2,298 mL
   Blood products:
   Total out:
                                                                 13,360 mL
                                                                    551 mL
   Urine:
                                                                    110 mL
                                                                     25 mL
   NG:
                                                                    300 mL
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -5,276 mL
                                                                  1,798 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.31/63/98.[**Numeric Identifier 500**]/32/2
   Ve: 17.2 L/min
   PaO2 / FiO2: 280
   Physical Examination
   Gen: not opening eyes to voice or responding to commands
   HEENT: PERRL, eyes conjugate
   CV: rrr nl s1/s2 no mumurs
   Pulm: ronchi b/l from anterior
   Abd: decrease BS, soft, NTND
   Ext: 2+ edema LE and UE
   Skin: HD catheter site non-purulent, no erythema, NT
   Labs / Radiology
   274 K/uL
   9.4 g/dL
   144 mg/dL
   2.6 mg/dL
   32 mEq/L
   4.4 mEq/L
   39 mg/dL
   100 mEq/L
   141 mEq/L
   30.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2178-8-30**]  04:54 AM
                             [**2178-8-30**]  05:05 AM
                             [**2178-8-30**]  11:26 AM
                             [**2178-8-30**]  04:50 PM
                             [**2178-8-30**]  10:55 PM
                             [**2178-8-30**]  11:13 PM
                             [**2178-8-31**]  12:16 AM
                             [**2178-8-31**]  01:33 AM
                             [**2178-8-31**]  02:01 AM
                             [**2178-8-31**]  02:19 AM
   WBC
   9.4
   14.4
   13.1
   Hct
   32.3
   32.1
   30.9
   Plt
   295
   273
   274
   Cr
   3.2
   2.7
   2.6
   2.6
   TCO2
   32
   31
   32
   34
   34
   31
   33
   Glucose
   135
   124
   137
   144
   Other labs: PT / PTT / INR:13.7/37.1/1.2, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:22/47, Alk Phos / T Bili:70/0.3, Amylase
   / Lipase:125/46, Differential-Neuts:77.0 %, Band:8.0 %, Lymph:3.0 %,
   Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Albumin:2.6 g/dL,
   LDH:516 IU/L, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Hapto <20
   Imaging: CXR today: HO read unchanged
   CXR [**8-30**]: Compared to the prior exam there is no significant interval
   change.
   Microbiology: sputum [**8-30**]: 4+ GNR, ctx pending
   blood 7/26, 23 pending
   urine [**8-30**] pending
   cdiff [**8-30**] negative
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Leukocytosis with elevated lipase/amylase. Unclear etiology at this
   time; no recent fevers, WBC increased dramatically last night.  Pan
   cultured.  Still therapeutic on Vanc.  Cdiff negative.  +UA with many
   WBC, GNR in sputum
    - finished 8 days Vanc/Cefepime, now on Meropenem (D1:[**8-24**]) day [**9-12**]
   for 8d VAP coarse; will continue given GNR in sputum and f/u with ID;
   only not being covered for Legionella and will addadditional
   Pseudomonal coverage though has ?AIN due to Cipro- check urine eos
   first then start Cipro IV
   -f/u with ID: we [**Male First Name (un) 344**]
t feel needs to restart Vanco given leukocytosis
   while therapeutic on Vanco and GNR in sputum; we are restarting Cipro,
   ?fungemia coverage
   -check urine eos
   - f/u blood ctxs
   - f/u  urine ctx
   - f/u final sputum ctx
   -recheck cdiff X2
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS
   - difficulty overnight, increased TV to 500 and improving
   - continue albuterol and ipratroprium
   -check q4 ABG.
   - continue bicarb when needed for fluid resuscitation
   - antibiotics as above
   - start Citalopram 20mg daily for anxiety
   #Renal Failure: Per Renal ATN vs AIN.  Renal U/S were normal.  Being
   treated for funguria
    -cont Fluconazole (day 1 [**8-29**]) for 14 days for funguria though has not
   grown in blood; change to PO;
   - day [**6-11**] of methylprednisolone for AIN
   - cont urine ctxs, if still positive after treatment with Fluconazole,
   will need u/s
   - dialysis currently on hold [**3-9**] to hypotension requiring pressors
   - f/u with renal today on when to restart CVVH; run even to +500 today
   given hypotension
   # Hypotension:
   -had restarted levophed; currently off, goal MAP >60
   - hold CVVH for now
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
   -stable currently however given laboratory values of Haptoglobin <20
   and elevated LDH he has a hemolytic anemia; sending DIC work-up, retic
   count
   -cell types suggest extravascular
   # Hx of Chronic DVT
 Tightened goal PTT, however pt started bleeding
   from foley. Foley has been changed so likely [**3-9**] foley trauma
    -since no DVT on U/S, heldHeparin for 2-3 days with plan to restart on
   Monday.  If continues to bleed, will need IVC filter.
   - hold restarting heparin for now given hemolytic anemia, trend Hcts
   Q8H today.  If stable, restart Heparin tonight.  If unstable, eval for
   IVC filter tomorrow
   -continue SC Heparin
   #  Disconjugate gaze and poorly reactive pupils- improved with weaning
   of sedation
   # Pneumomediastinum/sq emphysema
 resolving
   - continue to follow CXR
improving clincially
    # Constipation
    - on senna, colase, bisacodyl
   - miralax and lactulose
   - d/c Narcan given increase agitation
    # Hyperthyroid (subclinical)
   - no acute isssues
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-31**] 03:57 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending above
   ------ Protected Section ------
   Examined coccyx ulceration at 1020am: approximately 5 cm shallow
   ulcerated area with satellite 1cm in diameter superficial ulceration on
   right lumbar region.  No drainage, minor amount of blood.  Surrounding
   superficial black necrotic area concerning for future sloughing with
   minimal friction.
   ------ Protected Section Addendum Entered By:[**Name (NI) 3864**] [**Last Name (NamePattern1) 7467**], MD
   on:[**2178-8-31**] 10:27 ------

2178-08-31 09:00:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Multiple cultures for increased WBC with bands.
   CVVHD stopped due to hemodynamic instability and substantially negative
   fluid balance --> settled out and off pressor.
   Respiratory acidosis --> increased sedation.
                                      Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-30**] 02:16 PM
   Meropenem - [**2178-8-31**] 03:00 AM
   Infusions:
   Fentanyl (Concentrate) - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Fentanyl - [**2178-8-30**] 08:15 PM
   Midazolam (Versed) - [**2178-8-30**] 08:45 PM
   Pantoprazole (Protonix) - [**2178-8-30**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2178-8-31**] 03:55 AM
   Other medications:
   MDIs, CHG, SQI, bowel reg, PPI, midaz, fent, beclovent, [**Last Name (un) **], fluc,
   SQH, naloxone oral, methylpred 60 mg IV q 8 hours
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-8-31**] 08:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 86 (54 - 115) bpm
   BP: 120/68(85) {66/39(51) - 175/97(129)} mmHg
   RR: 0 (0 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 176.2 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 4 (-8 - 10)mmHg
   Total In:
                                                                  8,084 mL
                                                                  2,527 mL
   PO:
   TF:
                                                                    259 mL
                                                                     46 mL
   IVF:
                                                                  7,445 mL
                                                                  2,400 mL
   Blood products:
   Total out:
                                                                 13,360 mL
                                                                    971 mL
   Urine:
                                                                    110 mL
                                                                     45 mL
   NG:
                                                                    300 mL
   Stool:
                                                                    650 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                 -5,276 mL
                                                                  1,556 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: PEEP > 10
   PIP: 40 cmH2O
   SpO2: 98%
   ABG: 7.35/60/107/32/4
   Ve: 13 L/min
   PaO2 / FiO2: 306
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: distant breath sounds
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   9.4 g/dL
   274 K/uL
   144 mg/dL
   2.6 mg/dL
   32 mEq/L
   4.4 mEq/L
   39 mg/dL
   100 mEq/L
   141 mEq/L
   30.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2178-8-30**]  05:05 AM
                             [**2178-8-30**]  11:26 AM
                             [**2178-8-30**]  04:50 PM
                             [**2178-8-30**]  10:55 PM
                             [**2178-8-30**]  11:13 PM
                             [**2178-8-31**]  12:16 AM
                             [**2178-8-31**]  01:33 AM
                             [**2178-8-31**]  02:01 AM
                             [**2178-8-31**]  02:19 AM
                             [**2178-8-31**]  06:24 AM
   WBC
   14.4
   13.1
   Hct
   32.1
   30.9
   Plt
   273
   274
   Cr
   2.7
   2.6
   2.6
   TCO2
   32
   31
   32
   34
   34
   31
   33
   35
   Glucose
   124
   137
   144
   Other labs: PT / PTT / INR:13.7/37.1/1.2, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:22/47, Alk Phos / T Bili:70/0.3, Amylase
   / Lipase:125/46, Differential-Neuts:77.0 %, Band:8.0 %, Lymph:3.0 %,
   Mono:8.0 %, Eos:0.0 %, D-dimer:4227 ng/mL, Fibrinogen:565 mg/dL, Lactic
   Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:516 IU/L, Ca++:8.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Fluid analysis / Other labs: UA: >1000 wbc
   Imaging: bilateral airspace opacities
   Microbiology: Sputum: 3+ GNR on gram stain
   No (+) BCx
   Assessment and Plan
   51-year-old man with respiratory failure, ARF, and hemodynamic
   instability.
   We will plan:
   1) Respiratory failure
     * Improved with increased sedation
     * Vt @ 6cc/kg
     * D/C oral naloxone
   2) shock
 now off pressors
   3) Bandemia
   -          Source of infection is not clear: PNA, C diff, urine
   -          Agree with expansion of GNR coverage
   -          Discuss with ID regarding vanco and expansion to fungemic
   coverage.
   3) acute renal failure
   -          Recheck urine eos today since we will be changing
   antibiotics
   -          CVVH for even today (metabolic management)
   4) anemia: ?hemolysis, as well as RP hematoma
   -          Follow Hct today and consider resuming heparin today or
   tomorrow
   -          If not back on by tomorrow, consider IVC filter
   5) hx of DVT
   -          As above.
   Other issues as per ICU team note.
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-31**] 03:57 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 min
   Patient is critically ill

2178-09-01 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2178-8-31**] 10:50 AM
 STOOL CULTURE - At [**2178-8-31**] 10:51 AM
   -ID states they would strongly encourage keeping Vanco, we could start
   Cipro or use Tobra--restarted Cipro.  Changed fluconazole to Micafungin
   for possibility of resistant candidiasis.
   -Heparin held for dropping Hct. Txf 2 units PRBC, Hct bumped to 31.6.
   No evidence for DIC.  TBili normal.
   -RBSI 52 this am- SBT this am at first with MVs 14-15; however suddenly
   became apneic, put back on PSV and was tachycardic to 120s
   -No pressor requirement o/n
   -CVVH goal even to +500.
   -guiac negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-30**] 02:16 PM
   Ciprofloxacin - [**2178-8-31**] 12:14 PM
   Micafungin - [**2178-8-31**] 12:15 PM
   Meropenem - [**2178-8-31**] 10:04 PM
   Vancomycin - [**2178-9-1**] 05:04 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-9-1**] 02:00 AM
   Other medications:
   20 gm Calcium Gluconate/ 500 mL D5W 7. Acetaminophen 8. Albuterol
   Inhaler
   9. Artificial Tear Ointment 10. Beclomethasone Dipropionate 11.
   Bisacodyl 12. Bisacodyl 13. Chlorhexidine Gluconate 0.12% Oral Rinse
   14. Citrate Dextrose 3% (ACD-A) CRRT 15. Ciprofloxacin 16. Docusate
   Sodium (Liquid) 17. Fentanyl Citrate
   18. Golytely 19. Heparin 20. 21. 22. 23. 24. 25. Insulin 26.
   Ipratropium Bromide MDI 27. Lactulose
   28. MethylPREDNISolone Sodium Succ 29. Meropenem 30. Micafungin 31.
   Micafungin 32. Midazolam 33. Norepinephrine
   34. Pantoprazole 35. Potassium Chloride 36. Potassium Chloride 10 mEq /
   100 mL SW (CRRT Only) 37. Polyethylene Glycol
   38. Prismasate (B32 K2)* 39. Prismasate (B32 K2) 40. Sarna Lotion 41.
   Senna 42. Sodium CITRATE 4%
   43. Sodium Chloride 0.9% Flush 44. Sodium Chloride 0.9% Flush 45.
   Sodium Chloride 0.9% Flush 46. Vancomycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-1**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.3
C (95.6
   HR: 59 (57 - 102) bpm
   BP: 120/68(88) {94/48(63) - 140/79(99)} mmHg
   RR: 28 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 170.7 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: -2 (-2 - 4)mmHg
   Total In:
                                                                  6,361 mL
                                                                  2,451 mL
   PO:
   TF:
                                                                    300 mL
                                                                    111 mL
   IVF:
                                                                  5,458 mL
                                                                  2,169 mL
   Blood products:
                                                                    393 mL
                                                                    171 mL
   Total out:
                                                                  5,025 mL
                                                                  2,664 mL
   Urine:
                                                                    120 mL
                                                                     15 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,336 mL
                                                                   -213 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 4
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 52
   PIP: 32 cmH2O
   Plateau: 30 cmH2O
   Compliance: 20.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.30/64/111/32/2
   Ve: 13.8 L/min
   PaO2 / FiO2: 317
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   273 K/uL
   9.8 g/dL
   157 mg/dL
   2.3 mg/dL
   32 mEq/L
   4.0 mEq/L
   38 mg/dL
   100 mEq/L
   140 mEq/L
   31.6 %
   11.2 K/uL
        [image002.jpg]
                             [**2178-8-31**]  09:30 AM
                             [**2178-8-31**]  09:31 AM
                             [**2178-8-31**]  09:54 AM
                             [**2178-8-31**]  02:05 PM
                             [**2178-8-31**]  04:26 PM
                             [**2178-8-31**]  08:06 PM
                             [**2178-8-31**]  08:10 PM
                             [**2178-8-31**]  08:22 PM
                             [**2178-9-1**]  02:00 AM
                             [**2178-9-1**]  02:03 AM
   WBC
   11.0
   11.2
   Hct
   27.0
   27.5
   31.6
   Plt
   [**Telephone/Fax (3) 7478**]
   Cr
   2.8
   2.6
   2.3
   TCO2
   35
   36
   34
   33
   33
   Glucose
   109
   147
   157
   Other labs: PT / PTT / INR:13.4/35.8/1.1, CK / CKMB /
   Troponin-T:82//0.05, ALT / AST:22/47, Alk Phos / T Bili:70/0.4, Amylase
   / Lipase:125/46, Differential-Neuts:79.0 %, Band:3.0 %, Lymph:6.0 %,
   Mono:7.0 %, Eos:0.0 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**9-1**]: ?more opaque left retrocardiac heart border
   Microbiology: cdiff neg X2
   U legionella negative
   sputum [**8-30**] pending
   blood 7/28, 26,23 pending
   urine [**8-26**], 26 pending
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Leukocytosis with elevated lipase/amylase. Unclear etiology at this
   time; no recent fevers, WBC trended down but still elevated with
   bands.  Still therapeutic on Vanc.  Cdiff negative.  +UA with many WBC,
   GNR in sputum
    - finished 8 days Vanc/Cefepime, now on Meropenem (D1:[**8-24**]) will
   continue given GNR in sputum and f/u with ID; Cipro (D1: [**8-31**]) for
   extra pseudomonal coverage
   - Micafungin 100 mg IV DAILY (D1 [**8-31**]) for fungal coverage
   -check urine eos today given restarted Cipro
   - f/u blood ctxs
   - f/u  urine ctx
   - f/u final sputum ctx
   -recheck cdiff X1
   # Tachycardia
   -did 12 lead, appears to be afib with RVR
   -started Metoprolol once at 25mg for rate control
   -not currently a good candidate for further anticoagulation or
   cardioversion; continue Heparin SC
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS
   - failing PSV with tachycardia; switch back to AC now
   - continue albuterol and ipratroprium
   -check q4 ABG.
   - continue bicarb when needed for fluid resuscitation
   - antibiotics as above
   -Start Citalopram 20mg daily for anxiety
   - change sedation to propofol with hope that will maintain respiration
   on future SBT tonight or tomorrow
   #Renal Failure: Per Renal ATN vs AIN.  Renal U/S were normal.  Being
   treated for funguria
    -on Micafungin per above
   -cont to follow Uctxs, if still pos, will need u/s
   - day [**7-12**] of methylprednisolone for AIN
   -recheck urine eos given restarted Cipro
   -cont CCVH at even for acidosis
   - f/u with renal recs
   # Hypotension:
    -had restarted levophed; currently off, goal MAP >60
   - run even on CVVH for now
   - check CVP; if <10, give volume with D5W and bicarb
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
    -s/p transfusion, DIC work-up negative
   -check Q8H
   -rescan abdomen for? growth of iliacus hematoma
   # Hx of Chronic DVT
 Tightened goal PTT, however pt started bleeding
   from foley. Foley has been changed so likely [**3-9**] foley trauma
   -since transfusion required, hold off on Heparin gtt; unstable to go
   off floor for IVC filter currently
   -continue SC Heparin
   -re-ultrasound LE to r/o DVT
   # Pneumomediastinum/sq emphysema
 resolving
    - continue to follow CXR
improving clincially
    # Constipation
    - on senna, colase, bisacodyl
   - miralax and lactulose
   - d/c Narcan given increase agitation
   - increased residual threshold to 200cc
    # Hyperthyroid (subclinical)
   - no acute isssues
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-31**] 03:57 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: ppi IV
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:pending above

2178-09-02 07:15:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure, renal failure
   24 Hour Events:
 ULTRASOUND - At [**2178-9-1**] 11:32 AM
   LE US
   - EKG showed Afib. Pt started on metoprolol for rate control.
   - BLE U/S showed no DVT
   - ID wanted to check UA. If > [**Age over 90 **] yeast, wanted speciation.
   - HCT stable
   -Sputum culture grew out pseudomonas
   -Pt aggitated, tachypnic, and tachycardic last night. Given total 7.5mg
   Haldol and 200 of Fentanyl with incomplete improvement in aggitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-8-30**] 02:16 PM
   Vancomycin - [**2178-9-1**] 05:04 AM
   Ciprofloxacin - [**2178-9-1**] 09:29 AM
   Micafungin - [**2178-9-1**] 01:08 PM
   Meropenem - [**2178-9-1**] 10:05 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2178-9-2**] 12:45 AM
   Heparin Sodium (Prophylaxis) - [**2178-9-2**] 02:13 AM
   Fentanyl - [**2178-9-2**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-2**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.4
   HR: 110 (59 - 120) bpm
   BP: 110/67(82) {96/62(74) - 133/78(96)} mmHg
   RR: 32 (16 - 36) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 170.7 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 5 (5 - 9)mmHg
   Total In:
                                                                  8,118 mL
                                                                  2,071 mL
   PO:
   TF:
                                                                    386 mL
                                                                    172 mL
   IVF:
                                                                  7,301 mL
                                                                  1,899 mL
   Blood products:
                                                                    171 mL
   Total out:
                                                                  8,384 mL
                                                                  3,116 mL
   Urine:
                                                                    118 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -266 mL
                                                                 -1,045 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 14 cmH2O
   Plateau: 26 cmH2O
   Compliance: 26.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.33/59/91.[**Numeric Identifier **]/29/2
   Ve: 12.9 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), limited exam
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffusely, bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   308 K/uL
   10.4 g/dL
   127 mg/dL
   1.6 mg/dL
   29 mEq/L
   3.9 mEq/L
   30 mg/dL
   97 mEq/L
   136 mEq/L
   34.5 %
   10.8 K/uL
        [image002.jpg]
                             [**2178-9-1**]  08:30 AM
                             [**2178-9-1**]  09:21 AM
                             [**2178-9-1**]  01:37 PM
                             [**2178-9-1**]  02:03 PM
                             [**2178-9-1**]  02:09 PM
                             [**2178-9-1**]  07:59 PM
                             [**2178-9-1**]  08:00 PM
                             [**2178-9-1**]  10:25 PM
                             [**2178-9-2**]  02:00 AM
                             [**2178-9-2**]  02:08 AM
   WBC
   10.9
   10.8
   Hct
   33.9
   32.6
   32.3
   34.5
   Plt
   262
   308
   Cr
   1.9
   1.6
   TropT
   0.12
   TCO2
   33
   32
   31
   30
   33
   Glucose
   143
   139
   124
   127
   Other labs: PT / PTT / INR:12.6/35.2/1.1, CK / CKMB /
   Troponin-T:49//0.12, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:115/64, Differential-Neuts:80.0 %, Band:3.0 %, Lymph:7.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR [**9-2**]: Radiology read pending, but no significant interval
   change
   [**2178-9-1**] BLE U/S: No DVT
   Microbiology: [**2178-8-30**] Sputum PSEUDOMONAS AERUGINOSA. MODERATE
   GROWTH.         ? OF TWO COLONIAL MORPHOLOGIES.
   BC [**8-27**], [**8-30**], [**9-1**], [**9-2**] no growth to date
   ECG: [**9-2**] EKG:
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Leukocytosis with elevated lipase/amylase. Unclear etiology at this
   time; no recent fevers, WBC trended down but still elevated with
   bands.  Cdiff negative.  +UA with many WBC and fungus, Sputum now
   growing pseudomonas
    - Now on Vanc, Cipro and Meropenum for VAP coverage. Meropenem
   (D1:[**8-24**]); Cipro (D1: [**8-31**]) for extra pseudomonal coverage
   - Continue to follow BC and sputum culture for sensitivities.
   - Micafungin 100 mg IV DAILY day [**4-18**] for fungal coverage. Call Micro
   for speciation of fungus
   # Tachycardia
   -did 12 lead, appears to be afib with RVR
   -started Metoprolol 25mg TID for rate control
   -not currently a good candidate for further anticoagulation or
   cardioversion; continue Heparin SC
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS
   - failing PSV with tachycardia; switch back to AC now
   -given aggitation, tachycardia, tachypnea overnight would not try SBT
   today
   - continue albuterol and ipratroprium
   -check q4 ABG.
   - continue bicarb when needed for fluid resuscitation
   - antibiotics as above
   -Start Citalopram 20mg daily for anxiety
   #Sedation: Pt seemed aggitated and showed discomfort overnight.
   - Worry about benzo withdrawal given long term Versed use. However,
   versed  lipophilic so pt should have stored benzo in body and this
   makes him less likely to withdrawal
   - Add fentanyl drip for pain control
   - If has additional aggitation, give Haldol. EKG pending this AM.
   #Renal Failure: Per Renal ATN vs AIN.  Renal U/S were normal.  Being
   treated for funguria
    -on Micafungin per above
   -cont to follow Uctxs, if still pos, will need u/s
   - day [**8-11**] of methylprednisolone for AIN
   -Continue to check urine eos daily
   -cont CCVH at even for acidosis
   - f/u with renal recs
   # Hypotension:
   -off pressors, goal MAP >60
   - run even on CVVH for now
   # Anemia: Pt has h/o of bleeding from trach site and now has
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt
    -s/p transfusion, DIC work-up negative
   -check Q8. goal HCT > 28
   -HCT stable so no need to recan abdomen now.
    # Hx of Chronic DVT
 U/S did not show DVT
   -HCT stable, can restart Heparin gtt with tightened goal PTT
   # Pneumomediastinum/sq emphysema
 resolving
    - continue to follow CXR
improving clincially
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-8-31**] 03:57 AM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-09-03 07:01:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure
   24 Hour Events:
 ULTRASOUND - At [**2178-9-2**] 12:51 PM
   renal US
   -renal U/S negative though difficult study (?cystoscopy/urology
   tomorrow)
   -changed to sinus tachycardia in mid-afternoon, continued on low-dose
   beta blocker
   -free T4 nl at 1.6, TSH inappropriately elevated
   -did not start Heparin gtt because no final reads on bleeds on CT
   -could not get MRI to evaluate ext dismobility because of metal in
   trache; so got CT head/cspine/chest
   . prelim: no intracranial hemorrhage or edema. Unchanged moderate
   mucosal thickening of the sphenoid sinuses.
   . prelim: Tracheostomy tube in upper to mid trachea. Secretions
   superior to tracheostomy tube. Foci of pneumomediastinum (2:20), new
   from [**2178-8-26**], likely due to barotrauma. Severe lung disease w/
   cystic emphysema at apices, fibrosis at bases and upper lobe traction
   bronchectasis. The remaining lung parenchyma is diffusely ground glass
   in appearance. Bibasilar opacities have decreased from [**8-26**].
   -Speciation back on urine as PARAPSILOSIS. ID wants cystoscopy
   -Dead space .75
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2178-9-1**] 01:08 PM
   Ciprofloxacin - [**2178-9-2**] 10:10 AM
   Vancomycin - [**2178-9-2**] 11:26 AM
   Meropenem - [**2178-9-2**] 09:51 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Heparin Sodium - 550 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2178-9-2**] 09:12 AM
   Haloperidol (Haldol) - [**2178-9-2**] 01:17 PM
   Pantoprazole (Protonix) - [**2178-9-2**] 08:10 PM
   Heparin Sodium - [**2178-9-3**] 04:00 AM
   Fentanyl - [**2178-9-3**] 05:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-3**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.6
   HR: 83 (76 - 114) bpm
   BP: 133/75(96) {109/63(82) - 142/81(102)} mmHg
   RR: 30 (19 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.4 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 5 (5 - 6)mmHg
   Total In:
                                                                  8,672 mL
                                                                  2,128 mL
   PO:
   TF:
                                                                    808 mL
                                                                    274 mL
   IVF:
                                                                  7,513 mL
                                                                  1,854 mL
   Blood products:
   Total out:
                                                                  9,927 mL
                                                                  1,928 mL
   Urine:
                                                                     50 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -1,255 mL
                                                                    200 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.32/62/98.[**Numeric Identifier 500**]/30/2
   Ve: 16.2 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), limited exam
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffuse bilaterally) Inspiratory wheeze
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese, hypoactive
   bowels
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   306 K/uL
   10.4 g/dL
   123 mg/dL
   1.4 mg/dL
   30 mEq/L
   3.3 mEq/L
   29 mg/dL
   97 mEq/L
   138 mEq/L
   34.4 %
   15.3 K/uL
        [image002.jpg]
                             [**2178-9-2**]  02:08 AM
                             [**2178-9-2**]  08:04 AM
                             [**2178-9-2**]  08:33 AM
                             [**2178-9-2**]  01:57 PM
                             [**2178-9-2**]  02:02 PM
                             [**2178-9-2**]  02:29 PM
                             [**2178-9-2**]  07:51 PM
                             [**2178-9-2**]  08:29 PM
                             [**2178-9-3**]  01:58 AM
                             [**2178-9-3**]  02:00 AM
   WBC
   15.3
   Hct
   34.4
   36.7
   34.4
   Plt
   306
   Cr
   1.5
   1.4
   TropT
   0.17
   TCO2
   33
   33
   32
   33
   33
   Glucose
   150
   136
   137
   123
   Other labs: PT / PTT / INR:12.8/33.4/1.1, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:115/64, Differential-Neuts:81.0 %, Band:5.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:1.4 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs: TSH:5.2 Free-T4:1.6
   Other Blood Chemistry:
   T3: 84
   Imaging: [**2178-9-2**] CT chest: Tracheostomy tube in upper to mid trachea.
   Secretions superior to tracheostomy tube. Foci of pneumomediastinum
   (2:20), new from [**2178-8-26**], likely due to barotrauma. Severe lung
   disease w/ cystic emphysema at apices,
   fibrosis at bases and upper lobe traction bronchectasis. The remaining
   lung parenchyma is diffusely ground glass in appearance. Bibasilar
   opacities have decreased from [**8-26**].
   [**2178-9-2**] CT head: No intracranial hemorrhage or edema. Unchanged
   moderate mucosal thickening of the sphenoid sinuses.
   [**2178-9-2**] CT neck: 1. Tracheostomy tube terminating in the upper-to-mid
   trachea. Secretions are present superior to the tracheostomy tube.
   2. New foci of pneumomediastinum in comparison to chest CT [**2178-8-26**].
   3. Severe emphysematous changes and ground-glass opacity at the imaged
   portions of the lungs, described on concurrent chest CT.
   [**2178-9-2**] Renal U/S Markedly limited exam; no evidence of hydronephrosis
   or abnormal echogenic areas to suggest the presence of a fungus ball as
   questioned
   [**2178-9-3**] CXR: Radiology read pending, but no interval change
   Microbiology: BC [**8-30**], [**9-1**], [**9-2**] pending
   UC [**8-26**]: [**Female First Name (un) **] PARAPSILOSIS.    >100,000 ORGANISMS/ML..
   Stoold [**9-1**]: c diff negative
   Assessment and Plan
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - NIF was relatively normal at -39, therefore weakness less likely
   cause of continued respiratory failure. Furthermore, CT head/spine
   shows no stroke
   - Free T4 normal, suggesting hypothyroidism not related to this issue
   - Heparin drip restarted
   - Attempt to reduce PEEP pressures
   - Cont albuerol and ipratroprium
   -Q4 ABG check
   - SBT qday
   # VAP: On Vacn, Cipro (D1 [**8-31**]), Meropenum (D1 [**8-24**]).
    - Follow sputum cultures for speciation
    - Follow blood cultures
   #Sedation: Goal is to get sedation under control with fentanyl  patch
   and/or morphine
   - Propofol w/ fentanyl IV as needed for pain control.
   - Will try fentanyl patch today
   #Funguria
   - Fluconazole started yesterday because PARAPSILOSIS more sensitive to
   parapsilosis and fluconazole more concentrated in urine. Day [**7-19**]
   - Consider cystoscopy per renal to ensure no fungal ball
    # Afib w/ RVR
   -Metoprolol to 37.5 mg TID for rate control
   -not currently a good candidate for cardioversion
   #Renal Failure: Per Renal ATN vs AIN.  Being treated for funguria
    -Cont CVVH to make pt even
   - Checking daily urine eos for AIN
   - D/C methylprednisolone
   - f/u with renal recs. Renal considering starting HD tomorrow
   # Anemia: Pt has h/o of bleeding from trach site and had
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt. HCT currently stable
    -check Q12. goal HCT > 28
    # Hx of Chronic DVT
 U/S did not show DVT
   -HCT stable, restarted heparin gtt
   # Pneumomediastinum/sq emphysema
 new foci
   - Reduce PEEP
   - continue to follow CXR
improving clincially
    # Hypotension:
   -off pressors, goal MAP >60
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-2**] 11:11 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2178-8-23**] 04:32 PM
   Arterial Line - [**2178-8-24**] 07:00 PM
   Dialysis Catheter - [**2178-8-28**] 05:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2178-09-04 07:43:00 Physician Resident Progress Note
Chief Complaint: Respiratory failure and renal failure
   24 Hour Events:
 MULTI LUMEN - STOP [**2178-9-3**] 04:42 PM
   Continue in next department
 DIALYSIS CATHETER - STOP [**2178-9-3**] 04:42 PM
   Continue in next department
 ARTERIAL LINE - STOP [**2178-9-3**] 04:42 PM
   A line placement during day shift
   Continue in next department
 INVASIVE VENTILATION - STOP [**2178-9-3**] 04:42 PM
   Continue in next department
   -urology c/s for funguria: suggest continue fluconazole, may try NS
   washouts or amphotericin B washouts (50mg in 1 L/ per day), if funguria
   persists, may consider CT w/ contrast to locate fungal ball in
   kidneys/ureters.
   -hct staying above 28, did not transfuse
   -PTT subtherapeutic, increased Heparin to 650 units/hr from 550.
   -RT advanced ETT and reinflated cuff due to cuff leak
   -Dr. [**Last Name (STitle) 906**] had a conversation with brother [**Name (NI) 117**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2178-9-1**] 01:08 PM
   Vancomycin - [**2178-9-2**] 11:26 AM
   Meropenem - [**2178-9-3**] 10:01 AM
   Ciprofloxacin - [**2178-9-3**] 11:00 AM
   Fluconazole - [**2178-9-3**] 02:14 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Propofol - 13 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-4**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.8
C (96.5
   HR: 82 (65 - 94) bpm
   BP: 140/77(99) {106/57(70) - 153/89(108)} mmHg
   RR: 19 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.4 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 214 (-2 - 227)mmHg
   Total In:
                                                                  5,476 mL
                                                                    573 mL
   PO:
   TF:
                                                                  1,060 mL
                                                                    334 mL
   IVF:
                                                                  4,266 mL
                                                                    179 mL
   Blood products:
   Total out:
                                                                  4,398 mL
                                                                    630 mL
   Urine:
                                                                    150 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    850 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,078 mL
                                                                    -56 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 35
   PIP: 10 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 97%
   ABG: 7.31/65/74/31/3
   Ve: 16 L/min
   PaO2 / FiO2: 211
   Physical Examination
   General Appearance: Overweight / Obese, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), limited exam
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: diffusely, bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   306 K/uL
   10.4 g/dL
   108 mg/dL
   1.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   32 mg/dL
   99 mEq/L
   138 mEq/L
   33.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2178-9-3**]  07:50 AM
                             [**2178-9-3**]  07:59 AM
                             [**2178-9-3**]  10:35 AM
                             [**2178-9-3**]  03:55 PM
                             [**2178-9-3**]  03:59 PM
                             [**2178-9-3**]  04:05 PM
                             [**2178-9-3**]  07:55 PM
                             [**2178-9-3**]  08:30 PM
                             [**2178-9-3**]  11:09 PM
                             [**2178-9-4**]  06:13 AM
   Hct
   29.9
   33.1
   Cr
   1.4
   1.5
   TCO2
   32
   32
   32
   32
   32
   34
   Glucose
   133
   108
   Other labs: PT / PTT / INR:12.4/48.7/1.0, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:115/64, Differential-Neuts:81.0 %, Band:5.0 %, Lymph:4.0 %,
   Mono:5.0 %, Eos:0.0 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:129.0, Mg++:1.8
   mg/dL, PO4:3.3 mg/dL
   Imaging: [**2178-9-4**] CXR: radiology read pending, but no interval change
   appreciated
   Microbiology: [**8-30**] Sputum culture: no speciation
   [**8-30**] and [**9-2**] blood cultures pending
   Assessment and Plan
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - Cont albuerol and ipratroprium
   - SBT tried this AM. Pt tolerating it better than yesterday. Will
   monitor an ABG. If patient ABG stable, will attempt pressure support.
   # VAP: On Vacn, Cipro (D1 [**8-31**]), Meropenum (D1 [**8-24**]).
    - Sensitivities show sensitive to gentamicin and tobramicin. Resistant
   to [**Last Name (un) 1540**] and Cipro. Will speak to ID and start either Gent or Tobra
   today and D/C all other antibiotics.
   - Will continue to monitor with CXR and sputum cultures
   #Sedation: Goal is to get sedation under control with fentanyl  patch
   and/or morphine
   - Propofol w/ fentanyl IV as needed for pain control. Pt needed 200 of
   Fentanyl overnight
   - Will increase fentanyl patch to 150 and monitor.
   - Will monitor amylase and lipase every day to every other day since pt
   is on propofol and had slightly higher levels prior to initiation of
   propofol
   #Funguria
   - Fluconazole started yesterday because PARAPSILOSIS more sensitive to
   parapsilosis and fluconazole more concentrated in urine. Day [**8-18**]
   - Urology does not want to do cystoscopy at this time. Recommend
   bladder irrigation with amphotericin
   - Continue to monitor urine cultures
    # Afib w/ RVR
   -Metoprolol to 37.5 mg TID for rate control
   -not currently a good candidate for cardioversion
   #Renal Failure: Treated for AIN
   - Pt to go to HD today
   - f/u with renal recs.
   # Anemia: Pt has h/o of bleeding from trach site and had
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt. HCT currently stable
    -check Q12. goal HCT > 28
    # Hx of Chronic DVT
 U/S did not show DVT
   - Heparin gtt
   - Follow PTT as needed
   # Pneumomediastinum/sq emphysema
 new foci
   - continue to follow CXR
     # Hypotension:
   -off pressors, goal MAP >60
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-3**] 11:22 AM 45 mL/hour
   Glycemic Control:
   Lines: Triple  lumen, HD line, A-line
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2178-09-04 09:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2178-9-3**] 04:42 PM
   Continue in next department
 DIALYSIS CATHETER - STOP [**2178-9-3**] 04:42 PM
   Continue in next department
 ARTERIAL LINE - STOP [**2178-9-3**] 04:42 PM
   A line placement during day shift
   Continue in next department
 INVASIVE VENTILATION - STOP [**2178-9-3**] 04:42 PM
   Continue in next department
   History obtained from icu team
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Micafungin - [**2178-9-1**] 01:08 PM
   Vancomycin - [**2178-9-2**] 11:26 AM
   Meropenem - [**2178-9-3**] 10:01 AM
   Ciprofloxacin - [**2178-9-3**] 11:00 AM
   Fluconazole - [**2178-9-3**] 02:14 PM
   Infusions:
   Heparin Sodium - 650 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: none
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2178-9-4**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 79 (65 - 94) bpm
   BP: 142/80(102) {106/57(70) - 153/82(108)} mmHg
   RR: 23 (18 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.4 kg (admission): 163.3 kg
   Height: 74 Inch
   CVP: 214 (-2 - 227)mmHg
   Total In:
                                                                  5,476 mL
                                                                    892 mL
   PO:
   TF:
                                                                  1,060 mL
                                                                    431 mL
   IVF:
                                                                  4,266 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  4,398 mL
                                                                    630 mL
   Urine:
                                                                    150 mL
                                                                     30 mL
   NG:
   Stool:
                                                                    850 mL
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,078 mL
                                                                    262 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 35
   PIP: 30 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.31/65/74/29/3
   Ve: 12.7 L/min
   PaO2 / FiO2: 211
   Physical Examination
   General Appearance: intubated, sedated
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Noxious
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.7 g/dL
   283 K/uL
   104 mg/dL
   1.8 mg/dL
   29 mEq/L
   3.4 mEq/L
   42 mg/dL
   96 mEq/L
   137 mEq/L
   33.7 %
   19.4 K/uL
        [image002.jpg]
                             [**2178-9-3**]  07:59 AM
                             [**2178-9-3**]  10:35 AM
                             [**2178-9-3**]  03:55 PM
                             [**2178-9-3**]  03:59 PM
                             [**2178-9-3**]  04:05 PM
                             [**2178-9-3**]  07:55 PM
                             [**2178-9-3**]  08:30 PM
                             [**2178-9-3**]  11:09 PM
                             [**2178-9-4**]  05:59 AM
                             [**2178-9-4**]  06:13 AM
   WBC
   19.4
   Hct
   29.9
   33.1
   33.7
   Plt
   283
   Cr
   1.5
   1.8
   TCO2
   32
   32
   32
   32
   32
   34
   Glucose
   108
   104
   Other labs: PT / PTT / INR:12.4/48.7/1.0, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:115/64, Differential-Neuts:85.0 %, Band:0.0 %, Lymph:6.0 %,
   Mono:9.0 %, Eos:0.0 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:129.0, Mg++:1.9
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   51 yo male with ongoing respiratory failure after inhalational injury.
   Now with ventilator associated pneumonia and renal failure.
   1. Respiratory Failure: Doing well on 5/0 this AM.  Will continue on
   PSV and try to introduce trach mask trial periods if possible
   2. VAP: D/Cing vanc.  On cipro/meropenem - awaiting sensitivities of
   cultures
   3. Funguria: Repeat urine culture.  Will initiate ampho b bladder
   irrigation
   4. Renal Failure: Intiating HD today possibly
   5. Anemia: Hct stable
   Other issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: 35 minutes
   Patient is critically ill

2178-09-05 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Fentanyl patch increased to 150 however patient kept making facial
   grimmaces and seemed in pain at night. Went up on propofol drip.
   - Pt tolerated pressure support well
   - Started bladder irrigation with amphotericin. Will continue for [**3-10**]
   days. Follow reponse with urine cultures.
   -currently on [**6-9**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2178-9-2**] 11:26 AM
   Meropenem - [**2178-9-3**] 10:01 AM
   Fluconazole - [**2178-9-3**] 02:14 PM
   Ciprofloxacin - [**2178-9-4**] 10:23 AM
   Tobramycin - [**2178-9-4**] 01:24 PM
   Infusions:
   Heparin Sodium - 1,050 units/hour
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2178-9-5**] 12:30 AM
   Fentanyl - [**2178-9-5**] 04:00 AM
   Other medications:
   Acetaminophen 7. Albuterol Inhaler 8. Amphotericin B 9. Artificial Tear
   Ointment
   10. Beclomethasone Dipropionate 11. Bisacodyl 12. Bisacodyl 13.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   14. Citalopram Hydrobromide 15. Docusate Sodium (Liquid) 16. Fentanyl
   Citrate 17. Fentanyl Patch
   18. Fluconazole 19. Golytely 20. Haloperidol 21. Heparin 22. 23. 24.
   25. 26. 27. Insulin
   28. Ipratropium Bromide MDI 29. Lactulose 30. Magnesium Sulfate 31.
   Metoprolol Tartrate 32. Norepinephrine
   33. Pantoprazole 34. Potassium Chloride 35. Potassium Chloride 36.
   Polyethylene Glycol 37. Propofol
   38. Sarna Lotion 39. Senna 40. Sodium Chloride 0.9% Flush 41. Sodium
   Chloride 0.9% Flush 42. Sodium Chloride 0.9% Flush
   43. Tobramycin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-5**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 71 (68 - 90) bpm
   BP: 129/67(87) {110/61(79) - 170/94(123)} mmHg
   RR: 18 (16 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 163.4 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 310 (2 - 340)mmHg
   Total In:
                                                                  2,598 mL
                                                                    531 mL
   PO:
   TF:
                                                                  1,081 mL
                                                                    327 mL
   IVF:
                                                                  1,071 mL
                                                                    203 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    126 mL
   Urine:
                                                                     95 mL
                                                                    126 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,903 mL
                                                                    405 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 574 (574 - 704) mL
   PS : 5 cmH2O
   RR (Set): 28
   RR (Spontaneous): 17
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: 7.31/59/87.[**Numeric Identifier 274**]/30/0
   Ve: 10.9 L/min
   PaO2 / FiO2: 251
   Physical Examination
   Gen: opens eyes to voice, not responding to commands, grimacing with
   and without touch
   CV: rrr nl s1/s2 no murmurs
   Pulm: rhonchi b/l from anterior
   Abd: obese, +BS, soft NT ND
   Ext: 2+ edema, no spontaneous movement or resistance to gravity.
   Labs / Radiology
   181 K/uL
   9.7 g/dL
   115 mg/dL
   1.6 mg/dL
   30 mEq/L
   3.0 mEq/L
   33 mg/dL
   102 mEq/L
   140 mEq/L
   32.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2178-9-3**]  04:05 PM
                             [**2178-9-3**]  07:55 PM
                             [**2178-9-3**]  08:30 PM
                             [**2178-9-3**]  11:09 PM
                             [**2178-9-4**]  05:59 AM
                             [**2178-9-4**]  06:13 AM
                             [**2178-9-4**]  12:00 PM
                             [**2178-9-4**]  08:31 PM
                             [**2178-9-5**]  05:37 AM
                             [**2178-9-5**]  06:03 AM
   WBC
   19.4
   13.6
   Hct
   33.1
   33.7
   31.0
   32.4
   Plt
   283
   181
   Cr
   1.8
   1.6
   TCO2
   32
   32
   32
   34
   33
   31
   Glucose
   104
   115
   Other labs: PT / PTT / INR:12.7/45.3/1.1, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:from 115/ 64 to 237/169, Differential-Neuts:85.0 %, Band:2.0
   %, Lymph:2.0 %, Mono:6.0 %, Eos:4.0 %, D-dimer:4227 ng/mL,
   Fibrinogen:477 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.6 g/dL, LDH:424
   IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR [**9-5**]: some clearing of left lower lobe infiltrate per HO
   read
   Microbiology: blood 7/29 negative prelim
   [**9-2**], 28, 26 pending
   urine [**9-4**] pending
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - Cont albuerol and ipratroprium
   - Try trache mask today.
   # Resistant pulmonary Pseudomonas: [**Last Name (un) 206**] to tobra/gent only. Loaded
   tobra 180mg post HD friday, plan to check tobra level monday AM prior
   to HD, if level > 2.5, then 100 mg post HD monday, if <2.5 then 120mg
   post HD monday(per pharmacy). All other antibiotics stopped.
   -check Tobra level prior to HD and dose accordingly
   -cont Tobra, D1= [**9-4**], day 2/?14-21 days
   -check with lab for colistin sensitivities
   #Funguria
   - Fluconazole because PARAPSILOSIS more sensitive to parapsilosis and
   fluconazole more concentrated in urine. Day [**9-18**] (day 1 [**8-29**])
   - Urology does not want to do cystoscopy at this time. Recommend
   bladder irrigation with amphotericin
   -cont amphotericin bladder irrigation, day [**3-10**] today
   - Continue to monitor urine cultures
   #Sedation: Goal is to get sedation under control with fentanyl  patch
   and/or morphine
   - Fentanyl patch increased to 150 however patient kept making facial
   grimmaces and seemed in pain at night. Went up on propofol drip.
   -Amylase/lipase now elevated-> d/c propfol, go to fentanyl prn and low
   dose Haldol Q6H prn after EKG
    # Afib w/ RVR: appears in NSR now
   -Metoprolol to 37.5 mg TID for rate control
   #Renal Failure: Treated for AIN
   -on UF now; f/u with renal on schedule since this was not known to us
   - cont HD tomorrow.
   # Anemia: Pt has h/o of bleeding from trach site and had
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt. HCT currently stable
    -check Q12. goal HCT > 28
    # Hx of Chronic DVT
 U/S did not show DVT
   - Heparin gtt
   -start coumadin 5mg daily today since HCT has been stable
   - Follow PTT as needed
   # Pneumomediastinum/sq emphysema
 new foci
   - continue to follow CXR
   -f/u with radiology on air seen outside of CW on CXR
     # Hypotension:
   -off pressors, goal MAP >60
   # Skin breakdown
   -wound care consult for trache site ulceration and right buttocks
   wounds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-4**] 09:33 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-9-3**] 04:45 PM
   Dialysis Catheter - [**2178-9-3**] 04:45 PM
   Arterial Line - [**2178-9-3**] 04:45 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments: speak with brother, [**Name (NI) **], today about
   resistant pneumonia today
   Code status: Full code
   Disposition: icu care pending above ; PICC order ; d/w CM on Monday

2178-09-07 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt with lower sedation now exhibiting signs of distress including
   groaning and grimacing.  Fentanyl patch increased and boluses used to
   control signs of pain.  Requiring 400 ug of bolused fentanyl for pain
   control. Clonazepam started for history of anxiety.  Switched back to
   AC.  TF restarted. HCT and ABG stable.  PICC line ordered for IR
   placement tomorrow. ID and Renal want Tobra tr prior to HD tomorrow.
   Renal will reassess for HD vs UF in AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2178-9-4**] 10:23 AM
   Tobramycin - [**2178-9-4**] 01:24 PM
   Fluconazole - [**2178-9-6**] 02:00 PM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-6**] 07:53 PM
   Fentanyl - [**2178-9-7**] 02:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-7**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.7
C (96.3
   HR: 67 (57 - 78) bpm
   BP: 119/68(85) {90/47(60) - 146/81(106)} mmHg
   RR: 27 (11 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 163.3 kg
   Height: 74 Inch
    CVP: 1 (-2 - 324)mmHg
   Total In:
                                                                  2,125 mL
                                                                    570 mL
   PO:
   TF:
                                                                    461 mL
                                                                    338 mL
   IVF:
                                                                    794 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                  1,357 mL
                                                                    188 mL
   Urine:
                                                                    557 mL
                                                                    188 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    768 mL
                                                                    382 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 682 (682 - 682) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: RR >35
   PIP: 38 cmH2O
   SpO2: 100%
   ABG: 7.27/62/102/28/0
   Ve: 10.5 L/min
   PaO2 / FiO2: 291
   Physical Examination
   Gen- Alert to voice, tracking with eyes
   HEENT- PERRL, no JVD
   Pulm- B/L coarse BS anteriorly, no wheeze/rales
   CV- S1/S2 w/o MGR
   Abd- soft, NTND, +BS
   Ext- 1+ LE Edema
   Skin- ulceration on L side of trach unchanged.
   Labs / Radiology
   128 K/uL
   9.1 g/dL
   92 mg/dL
   1.8 mg/dL
   28 mEq/L
   4.1 mEq/L
   33 mg/dL
   104 mEq/L
   140 mEq/L
   30.4 %
   10.0 K/uL
        [image002.jpg]
                             [**2178-9-5**]  08:08 PM
                             [**2178-9-6**]  03:00 AM
                             [**2178-9-6**]  03:25 AM
                             [**2178-9-6**]  06:11 AM
                             [**2178-9-6**]  11:33 AM
                             [**2178-9-6**]  02:34 PM
                             [**2178-9-6**]  05:31 PM
                             [**2178-9-6**]  05:38 PM
                             [**2178-9-7**]  03:51 AM
                             [**2178-9-7**]  04:06 AM
   WBC
   17.5
   10.0
   Hct
   31.8
   31.1
   30.4
   Plt
   149
   128
   Cr
   1.5
   1.8
   TCO2
   35
   35
   33
   34
   33
   32
   30
   Glucose
   96
   92
   Other labs: PT / PTT / INR:13.1/66.1/1.1, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:86/40, Differential-Neuts:86.5 %, Band:2.0 %, Lymph:6.8 %,
   Mono:4.6 %, Eos:1.8 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.8 mg/dL
   Imaging: CXR-
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - Cont albuerol and ipratroprium
   - continue AC
   - ABGs q12
   - attempt PSV trial today
   # Resistant pulmonary Pseudomonas: [**Last Name (un) 206**] to tobra/gent only. Loaded
   tobra 180mg post HD friday, plan to check tobra level monday AM prior
   to HD, if level > 2.5, then 100 mg post HD monday, if <2.5 then 120mg
   post HD monday(per pharmacy). All other antibiotics stopped.
   -check Tobra level prior to HD and dose accordingly
   -cont Tobra, D1= [**9-4**], day 4/?14-21 days
   -check with lab for colistin sensitivities, hold colistin for now due
   to renal tox.
   #Funguria
   - Fluconazole because PARAPSILOSIS more sensitive to fluconazole and
   its more concentrated in urine. Day [**10-19**] (day 1 [**8-29**])
   - Urology does not want to do cystoscopy at this time.
   -finshined amphotericin bladder irrigation yesterday
   - Continue to monitor urine cultures
   #Renal Failure: Treated for AIN
   - renal to recommended either HD or UF, wait renal recs for plan.
   #Sedation: Currently requiring 100microgram boluses of fentanyl q1hr as
   well as increased fentanyl to 200 microgram patchyesterday
   -D/C fentanyl drip, increase fentanyl patch, give fentanyl bolus for
   sedation/pain control
   -started standing clonazepam for anxiety
   -ABGs as above
    # Afib w/ RVR: appears in NSR now
   -Metoprolol to 37.5 mg TID for rate control
   # Anemia: Pt has h/o of bleeding from trach site and had
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt. HCT currently stable
    -check Q12. goal HCT > 28
    # Hx of Chronic DVT
 U/S did not show DVT, no bump in INR from
   yesterday to today
   - increase coumadin to 7.5 mg NG daily
   -continue heparin drip until INR therapeutic
   - Check INR, PT, PTT this AM
   # Pneumomediastinum/sq emphysema
 decreased from yesterday
   - continue to follow CXR
     # Hypotension:
   -off pressors, goal MAP >60
   # Skin breakdown
   -wound care consult for trach site ulceration and right buttocks wounds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-7**] 05:18 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2178-9-3**] 04:45 PM
   Multi Lumen - [**2178-9-3**] 04:45 PM
   Arterial Line - [**2178-9-3**] 04:45 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:  famotidine
   VAP:
   Comments:
   Communication:  Comments: w/ brother, encourage visit today while
   patient more alert/interactive
   Code status: Full code
   Disposition:CM for rehab placement

2178-09-08 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2178-9-7**] 04:00 PM
 URINE CULTURE - At [**2178-9-7**] 06:25 PM
 MULTI LUMEN - STOP [**2178-9-7**] 08:00 PM
   Continue in next department
   [**9-7**]
   Tobramycin level 1.5, gave patient tobramycin 120mg IV x1, warfarin
   started. FiO2 increased to 40 for desat to 85 and PaO2 60. Total course
   of 14 days of fluconazole per ID. PM hct 29.5.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-9-7**] 02:00 PM
   Tobramycin - [**2178-9-7**] 09:00 PM
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-7**] 07:14 PM
   Fentanyl - [**2178-9-8**] 06:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-8**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.3
C (95.5
   HR: 66 (57 - 90) bpm
   BP: 115/65(83) {92/50(66) - 164/91(121)} mmHg
   RR: 22 (6 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  1,645 mL
                                                                    239 mL
   PO:
             TF:
                                                                    433 mL
                                                                    110 mL
   IVF:
                                                                    631 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                    576 mL
                                                                     75 mL
   Urine:
                                                                    576 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,069 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 34 cmH2O
   Plateau: 21 cmH2O
   Compliance: 28.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.26/66/96.[**Numeric Identifier 274**]/26/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   8.7 g/dL
   89 mg/dL
   2.1 mg/dL
   26 mEq/L
   4.4 mEq/L
   38 mg/dL
   105 mEq/L
   143 mEq/L
   29.9 %
   8.8 K/uL
        [image002.jpg]
                             [**2178-9-7**]  03:51 AM
                             [**2178-9-7**]  04:06 AM
                             [**2178-9-7**]  11:05 AM
                             [**2178-9-7**]  12:25 PM
                             [**2178-9-7**]  05:54 PM
                             [**2178-9-7**]  06:00 PM
                             [**2178-9-7**]  06:35 PM
                             [**2178-9-7**]  09:24 PM
                             [**2178-9-8**]  05:14 AM
                             [**2178-9-8**]  06:30 AM
   WBC
   10.0
   8.8
   Hct
   30.4
   29.5
   29.9
   Plt
   128
   109
   Cr
   1.8
   2.1
   TCO2
   30
   34
   33
   31
   32
   31
   31
   Glucose
   92
   89
   Other labs: PT / PTT / INR:14.5/98.9/1.3, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:86/40, Differential-Neuts:82.1 %, Band:2.0 %, Lymph:10.1 %,
   Mono:5.7 %, Eos:1.6 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:0.7 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.5 mg/dL, PO4:5.5 mg/dL
   Imaging: [**9-8**]: As compared to the previous radiograph, there is no
   relevant
   change. No evidence of pneumothorax, unchanged distribution and
   severity of
   the pre-existing bilateral parenchymal opacities. Unchanged position in
   the
   course of the monitoring and support devices.
   PICC placement via IR appropriate position, no pneumothorax
   Microbiology: urine cx pending
   blood cx from 27th: no fungi or mycobacteria
   ECG: 2 episodes apnea, bradycardic to 45 on tele
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-8**] 12:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2178-9-3**] 04:45 PM
   Arterial Line - [**2178-9-3**] 04:45 PM
   PICC Line - [**2178-9-7**] 04:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU for now

2178-09-09 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT abdomen with contrast showed no change from prior imaging
   Urine cultures are negative, bladder washings d/c'ed, continue diflucan
   Screened to go to rehab
   EKG - no afib, no ACS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-9-7**] 02:00 PM
   Tobramycin - [**2178-9-7**] 09:00 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2178-9-8**] 08:07 PM
   Fentanyl - [**2178-9-9**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.3
C (95.5
   HR: 63 (63 - 74) bpm
   BP: 110/65(83) {93/53(68) - 125/72(91)} mmHg
   RR: 8 (1 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 156 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  1,352 mL
                                                                    803 mL
   PO:
             TF:
                                                                    594 mL
                                                                    311 mL
   IVF:
                                                                    418 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                    857 mL
                                                                    440 mL
   Urine:
                                                                    657 mL
                                                                    290 mL
   NG:
   Stool:
                                                                    200 mL
                                                                    150 mL
   Drains:
   Balance:
                                                                    495 mL
                                                                    363 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (450 - 500) mL
   Vt (Spontaneous): 782 (763 - 782) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 24
   PIP: 34 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 98%
   ABG: 7.26/67/77.[**Numeric Identifier **]/28/0
   Ve: 12.7 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   116 K/uL
   8.5 g/dL
   87 mg/dL
   2.3 mg/dL
   28 mEq/L
   3.9 mEq/L
   38 mg/dL
   102 mEq/L
   138 mEq/L
   27.5 %
   8.0 K/uL
        [image002.jpg]
                             [**2178-9-8**]  06:30 AM
                             [**2178-9-8**]  10:00 AM
                             [**2178-9-8**]  11:44 AM
                             [**2178-9-8**]  08:43 PM
                             [**2178-9-8**]  10:25 PM
                             [**2178-9-9**]  02:06 AM
                             [**2178-9-9**]  02:24 AM
                             [**2178-9-9**]  04:16 AM
                             [**2178-9-9**]  05:09 AM
                             [**2178-9-9**]  06:20 AM
   WBC
   8.0
   Hct
   27.5
   Plt
   116
   Cr
   2.3
   TCO2
   31
   35
   31
   32
   32
   32
   33
   31
   Glucose
   96
   87
   Other labs: PT / PTT / INR:17.1/67.1/1.5, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:86/40, Differential-Neuts:79.0 %, Band:2.0 %, Lymph:10.6 %,
   Mono:8.0 %, Eos:2.0 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 RASH
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypercarbic respiratory failure, currently with trach and peg: CT
   suggestive of [**Doctor Last Name 2**] vs ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - Cont albuerol and ipratroprium
   - CMV Assist
   - attempt PSV trial today
   - ABG q12h, adjust vent as needed
   # Resistant pulmonary Pseudomonas: [**Last Name (un) 206**] to tobra/gent only. Loaded
   tobra 180mg post HD friday, plan to check tobra level monday AM prior
   to HD, if level > 2.5, then 100 mg post HD monday, if <2.5 then 120mg
   post HD monday(per pharmacy). All other antibiotics stopped.
   -check Tobra level prior to HD and dose accordingly
   -cont Tobra, D1= [**9-4**], day [**2090-7-18**] days
   -check with lab for colistin sensitivities, hold colistin for now due
   to renal tox.
   #Funguria
   - Cont fluconazole because PARAPSILOSIS more sensitive to fluconazole
   and its more concentrated in urine. Day [**1-18**] (day 1 [**8-29**])
   - Urology does not want to do cystoscopy at this time.
   - d/c bladder irrigation/washings - finshined amphotericin bladder
   irrigation 3 days ago
   - Urine cultures negative
   #Renal Failure: Treated for AIN
   - renal to recommended either HD or UF, wait renal recs for plan.
   #Sedation: Currently requiring 100microgram boluses of fentanyl q1hr as
   well as increased fentanyl to 200 microgram patchyesterday
   -D/C fentanyl drip, increase fentanyl patch, give fentanyl bolus for
   sedation/pain control
   -started standing clonazepam for anxiety
   -ABGs as above
    # Afib w/ RVR: appears in NSR now
   -Metoprolol to 25 mg TID for rate control
   # Anemia: Pt has h/o of bleeding from trach site and had
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt. HCT currently stable
    -check Q12. goal HCT > 28
    # Hx of Chronic DVT
 U/S did not show DVT, no bump in INR from
   yesterday to today
   - increase coumadin to 7.5 mg NG daily, follow INR
   - continue heparin drip until INR therapeutic
   - Check INR, PT, PTT this AM
   # Pneumomediastinum/sq emphysema
 decreased from yesterday
   - continue to follow CXR
   # Hypotension:
   -off pressors, goal MAP >60
   # Skin breakdown
   -wound care consult for trach site ulceration and right buttocks wounds
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-8**] 12:00 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Dialysis Catheter - [**2178-9-3**] 04:45 PM
   Arterial Line - [**2178-9-3**] 04:45 PM
   PICC Line - [**2178-9-7**] 04:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-09-10 07:56:00 Physician Resident Progress Note
Chief Complaint: 51 y/o M with a history of severe mixed obstructive
   and restrictive disease now with respiratory failure and worsening
   renal failure.
   24 Hour Events:
   - Pt switched back to AC from PSV 2/2 increasing pCO2
   - Thoracic surgery evaluated G-tube ulcer, added suture, want "vertical
   spacer"
   - Brother unable to come for mtg in PM
   - Renal and ID working out details of duration of pseudomonas
   treatment, 14d likely
   - Holding HD - Renal thinks starting to recover
 DIALYSIS CATHETER - STOP [**2178-9-9**] 04:10 PM
   Continue in next department
 DIALYSIS CATHETER - START [**2178-9-9**] 08:25 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-9-9**] 02:00 PM
   Tobramycin - [**2178-9-9**] 08:53 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Coumadin (Warfarin) - [**2178-9-9**] 04:00 PM
   Pantoprazole (Protonix) - [**2178-9-9**] 08:52 PM
   Fentanyl - [**2178-9-10**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-10**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.4
C (95.8
   HR: 65 (63 - 84) bpm
   BP: 95/52(67) {95/52(67) - 152/89(116)} mmHg
   RR: 25 (0 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  2,619 mL
                                                                    481 mL
   PO:
             TF:
                                                                  1,077 mL
                                                                    329 mL
   IVF:
                                                                    592 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    220 mL
   Urine:
                                                                    860 mL
                                                                    220 mL
   NG:
   Stool:
                                                                    450 mL
   Drains:
   Balance:
                                                                  1,309 mL
                                                                    261 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 513 (513 - 730) mL
   PS : 8 cmH2O
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI Deferred: Agitated
   PIP: 32 cmH2O
   Plateau: 27 cmH2O
   SpO2: 94%
   ABG: 7.23/69/81.[**Numeric Identifier 8**]/26/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Exam unchanged
   Neuro: responds to sound
   CV: rrr, without murmurs, rubs and gallops
   Resp: course breath sounds, anterior exam
   Abd: obese, soft, nontender, nondistended, G-tube with new dressing
   Labs / Radiology
   103 K/uL
   8.6 g/dL
   91 mg/dL
   2.4 mg/dL
   26 mEq/L
   4.0 mEq/L
   39 mg/dL
   103 mEq/L
   139 mEq/L
   27.7 %
   8.1 K/uL
        [image002.jpg]
                             [**2178-9-9**]  04:16 AM
                             [**2178-9-9**]  05:09 AM
                             [**2178-9-9**]  06:20 AM
                             [**2178-9-9**]  10:13 AM
                             [**2178-9-9**]  12:41 PM
                             [**2178-9-9**]  04:42 PM
                             [**2178-9-9**]  05:41 PM
                             [**2178-9-10**]  03:55 AM
                             [**2178-9-10**]  04:37 AM
                             [**2178-9-10**]  06:20 AM
   WBC
   8.8
   8.1
   Hct
   26.8
   27.7
   Plt
   112
   103
   Cr
   2.4
   TCO2
   32
   33
   31
   30
   31
   31
   32
   30
   Glucose
   91
   Other labs: PT / PTT / INR:21.1/69.1/2.0, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:86/40, Differential-Neuts:79.6 %, Band:2.0 %, Lymph:11.2 %,
   Mono:6.6 %, Eos:2.2 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
   # Hypoxemic Hypercarbic respiratory failure. Trach and G-tube. CT
   suggestive of [**Doctor Last Name 2**] or ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - Cont albuerol and ipratroprium
   - attempt PSV trial today
   - ABG q12h, adjust vent as needed
   # Resistant pulmonary Pseudomonas: [**Last Name (un) 206**] to tobra/gent only. Loaded with
   tobra last PM. Check levels Friday, if level > 2.5, then 100 mg post
   HD, if <2.5 then 120mg post HD. All other antibiotics stopped.
   -Cont Tobra (got 120mg  IV last PM)
   - Day 7/14d course per ID
   #Renal Failure: Treated for AIN, Cr rising
   - renal has no plan for HD today, thinks kidneys are starting to
   recover
   - Get renal plan for catheter
   # Coagulation: INR at 2.0
   - Follow to make sure at goal
   - continue warfarin
   - stop heparin
   #Thrombocytopenia: Decreased over last week, Down to 103. Unknown
   etiology, unlikely HIT due to timing and lack of thrombosis
   - PM platelets
   - D/C heparin - INR at goal
   # G-tube erosion
   - Surgery to come place vertical spacer
   #Funguria
   - Cont fluconazole because PARAPSILOSIS more sensitive to fluconazole
   and its more concentrated in urine. Day 13/14 (day 1 [**8-29**])
   - Urology does not want to do cystoscopy at this time.
   - d/c bladder irrigation/washings - finshined amphotericin bladder
   irrigation 4 days ago
   - Urine cultures negative
   #Sedation/Pain control: Improved, not apneic, only required more during
   dressing changes
   - cont fentanyl patch, bolus and methodone
   -started standing clonazepam for anxiety
    # Afib w/ RVR: appears in NSR now
   - Metoprolol to 25 mg TID for rate control
   # Anemia: Pt has h/o of bleeding from trach site and had
   retroperitoneal bleeding and bleeding from foley. Must weigh bleeding
   vs. PE given h/o dvt. HCT currently stable
    - check Q12. goal HCT > 28
    # Hx of Chronic DVT
 U/S did not show DVT, no bump in INR from
   yesterday to today
   - increase coumadin to 7.5 mg NG daily, follow INR
   - d/c heparin
   - Check INR, PT, PTT this AM
   # Pneumomediastinum/sq emphysema
 decreased from yesterday
   - continue to follow CXR
   # Hypotension:
   - off pressors, goal MAP >60
   # Skin breakdown
   - wound care consult for trach site ulceration and right buttocks
   wounds
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DECUBITUS ULCER (NOT PRESENT AT ADMISSION)
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 FUNGAL INFECTION, OTHER
 THROMBOCYTOPENIA, ACUTE
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 CONSTIPATION (OBSTIPATION, FOS)
 COAGULOPATHY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-9-3**] 04:45 PM
   PICC Line - [**2178-9-7**] 04:00 PM
   Dialysis Catheter - [**2178-9-9**] 08:25 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2178-09-11 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   d/c'd heparin, INR at goal. Surgery changed g-tube attachement.
   Dr. [**First Name (STitle) **] had meeting with brother and the PCP [**Name Initial (PRE) 6380**].  Renal dose not
   want HD at this time. Pull line prior to discharge. Brother called to
   say that Mom and Brother would prefer [**Hospital **] Rehab to Youvillle.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2178-9-9**] 02:00 PM
   Tobramycin - [**2178-9-9**] 08:53 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2178-9-11**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-9-11**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.4
C (95.8
   Tcurrent: 35.2
C (95.4
   HR: 64 (61 - 75) bpm
   BP: 100/56(73) {81/45(59) - 123/74(94)} mmHg
   RR: 25 (0 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 155 kg (admission): 163.3 kg
   Height: 74 Inch
             Total In:
                                                                  1,791 mL
                                                                    578 mL
   PO:
             TF:
                                                                  1,083 mL
                                                                    329 mL
   IVF:
                                                                    383 mL
                                                                     89 mL
   Blood products:
   Total out:
                                                                    595 mL
                                                                    925 mL
   Urine:
                                                                    595 mL
                                                                    325 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  1,196 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   RR (Set): 25
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 37 cmH2O
   Plateau: 31 cmH2O
   Compliance: 21.2 cmH2O/mL
   SpO2: 98%
   ABG: 7.25/70/124/27/1
   Ve: 13.1 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   109 K/uL
   7.7 g/dL
   85 mg/dL
   2.5 mg/dL
   27 mEq/L
   3.5 mEq/L
   41 mg/dL
   104 mEq/L
   139 mEq/L
   26.1 %
   8.1 K/uL
        [image002.jpg]
                             [**2178-9-10**]  04:37 AM
                             [**2178-9-10**]  06:20 AM
                             [**2178-9-10**]  05:36 PM
                             [**2178-9-10**]  05:46 PM
                             [**2178-9-10**]  06:56 PM
                             [**2178-9-10**]  10:43 PM
                             [**2178-9-11**]  01:34 AM
                             [**2178-9-11**]  02:07 AM
                             [**2178-9-11**]  02:36 AM
                             [**2178-9-11**]  02:49 AM
   WBC
   8.1
   Hct
   26.1
   Plt
   95
   109
   Cr
   2.5
   TCO2
   32
   30
   31
   31
   32
   32
   32
   32
   Glucose
   85
   Other labs: PT / PTT / INR:28.0/46.4/2.7, CK / CKMB /
   Troponin-T:55//0.17, ALT / AST:[**1-28**], Alk Phos / T Bili:58/0.3, Amylase
   / Lipase:86/40, Differential-Neuts:81.9 %, Band:2.0 %, Lymph:10.8 %,
   Mono:5.2 %, Eos:1.6 %, D-dimer:4227 ng/mL, Fibrinogen:477 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.6 g/dL, LDH:424 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.7 mg/dL
   Imaging: CXR: Trach  and PICC line in place. No change in lung fields.
   Microbiology: Bcx [**9-2**]: no growth
   Ucx [**9-5**]: no growth
   Assessment and Plan
   51 y/o M with a history of severe mixed obstructive and restrictive
   disease now with respiratory failure and worsening renal failure.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
   # Hypoxemic Hypercarbic respiratory failure. Trach and G-tube. CT
   suggestive of [**Doctor Last Name 2**] or ARDS. Likely cause of failure to wean is poor lung
   function. 75% of lung is dead space.
   - Cont albuerol and ipratroprium
   - attempt PSV trial today
   - ABG q12h, adjust vent as needed
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
   # Resistant pulmonary Pseudomonas: [**Last Name (un) 206**] to tobra/gent only. Loaded with
   tobra last PM. Check levels Friday, if level > 2.5, then 100 mg post
   HD, if <2.5 then 120mg post HD. All other antibiotics stopped.
   -Cont Tobra (got 120mg  IV last PM)
   - Day 7/14d course per ID
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   #Renal Failure: Treated for AIN, Cr rising, UOP ~600 yesterday, and
   ~400 this AM.  No HD yesterday.
   - F/U renal recs for ?HD
   - verify plan to remove HD catheter before d/c home
 IMPAIRED SKIN INTEGRITY
   # Trach, Decub, and G-tube sites
   - wound care consult for trach site ulceration and right buttocks
   wounds
   - thoracics following G-tube erosion, will place vertical spacer
 FUNGAL INFECTION, OTHER
   #Funguria
   - Cont fluconazole because PARAPSILOSIS more sensitive to fluconazole
   and its more concentrated in urine. Day 14/14 (day 1 [**8-29**])
   - Urology does not want to do cystoscopy at this time.
   - Urine cultures negative.
 THROMBOCYTOPENIA, ACUTE
   #Thrombocytopenia: Decreased over last week, Down to 109. Unknown
   etiology, unlikely HIT due to timing and lack of thrombosis
   - platelets # stable this AM from yesterday
   - D/C heparin - INR at goal
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   #Sedation/Pain control:  only required bolus during dressing changes
   - cont fentanyl patch, bolus and methodone
   -standing clonazepam for anxiety
 ATRIAL FIBRILLATION (AFIB)
   - Metoprolol to 25 mg TID for rate control
   - continue warfarin w/ goal INR 2.0
 CONSTIPATION (OBSTIPATION, FOS)
   -continue bowel regimen
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2178-9-11**] 05:25 AM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2178-9-3**] 04:45 PM
   PICC Line - [**2178-9-7**] 04:00 PM
   Dialysis Catheter - [**2178-9-9**] 08:25 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to rehab / long term care facility